2162-10-28 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2162-10-28**] 12:01 AM
 MULTI LUMEN - STOP [**2162-10-28**] 06:00 AM
 INVASIVE VENTILATION - START [**2162-10-28**] 06:25 AM
   - Surgery: no further recs
   - Bile cx from [**Hospital1 **]: neg gram stain, NGTD
   - Blood & urine from [**Hospital1 **]: NGTD
   - Notified ERCP, will see tomorrow, unlikely to do ERCP now
   - A-line placed
   - PaO2 and sats remain stable
   - 1 of 2 blood cx from [**Hospital1 **] with GPC in pairs/clusters --> re-cultured,
   started empiric Vanco
   - Good UOP, currently on LR @ 150cc/hr
   - INTUBATED at about 6 AM for increased work of breathing, CXR and
   oxygen saturations unchanged.
   - CVL was dislodged and came out --> replaced
   This morning sedated, intubated, not responsive to verbal stimuli.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Piperacillin - [**2162-10-28**] 02:13 AM
   Vancomycin - [**2162-10-28**] 04:13 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-10-27**] 09:34 AM
   Lorazepam (Ativan) - [**2162-10-27**] 02:08 PM
   Heparin Sodium (Prophylaxis) - [**2162-10-27**] 11:00 PM
   Hydromorphone (Dilaudid) - [**2162-10-28**] 04:00 AM
   Diazepam (Valium) - [**2162-10-28**] 04:16 AM
   Other medications:
   Protonix, Chlorhexidine swabs, Heparin SQ TID, Valium PRN CIWA >10
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged
   Flowsheet Data as of  [**2162-10-28**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 118 (104 - 123) bpm
   BP: 138/81(118) {138/81(114) - 168/155(161)} mmHg
   RR: 18 (18 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CVP: 17 (5 - 27)mmHg
   Total In:
                                                                  7,020 mL
                                                                  1,272 mL
   PO:
   TF:
   IVF:
                                                                  7,020 mL
                                                                  1,272 mL
   Blood products:
   Total out:
                                                                  1,915 mL
                                                                    950 mL
   Urine:
                                                                  1,365 mL
                                                                    650 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
                                                                    350 mL
                                                                    300 mL
   Balance:
                                                                  5,105 mL
                                                                    322 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   FiO2: 100%
   PIP: 27 cmH2O
   SpO2: 97%
   ABG: 7.33/40/80.[**Numeric Identifier 176**]/20/-4
   PaO2 / FiO2: 80
   Physical Examination
   General: Intubated, sedated, slightly flushed face, loud grunt-like
   inspiratory effort with grunt, appearing air-hungry
   HEENT: NC/AT. Slightly dry MM, but improved. Pupils responsive, no
   scleral icterus or conjunctival pallor.
   Neck: Flat, left IJ in place, c/d/I, site of prior right IJ site
   without erythema or hematoma
   Cardiac: Tachycardiac, regular, no rubs or gallops
   Lungs: Slightly rhoncherous, breath sounds bilaterally
   Abd: Very distended, +BS, slightly softer today, percutaneous GB drain
   in place site without erythema
   Extr: warm, mildly edematous, radial/PT/DP 2+
   Neurologic: Sedated, moves extremities in response to noxious stimuli
   Skin: No rashes or lesions.
   Labs / Radiology
   187 K/uL
   11.6 g/dL
   121 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.7 mEq/L
   14 mg/dL
   111 mEq/L
   139 mEq/L
   35.3 %
   10.4 K/uL
        [image002.jpg]
                             [**2162-10-26**]  10:18 PM
                             [**2162-10-27**]  01:45 AM
                             [**2162-10-27**]  08:14 AM
                             [**2162-10-27**]  12:43 PM
                             [**2162-10-27**]  03:04 PM
                             [**2162-10-27**]  09:16 PM
                             [**2162-10-28**]  12:18 AM
                             [**2162-10-28**]  03:48 AM
                             [**2162-10-28**]  05:41 AM
   WBC
   10.1
   9.2
   10.4
   Hct
   41.6
   39.1
   39.3
   36.5
   35.3
   Plt
   197
   191
   187
   Cr
   2.0
   1.7
   1.5
   1.3
   1.0
   TCO2
   18
   18
   19
   22
   Glucose
   141
   124
   127
   115
   118
   121
   Other labs: PT / PTT / INR:12.3/28.6/1.0, ALT / AST:82/85, Alk Phos / T
   Bili:140/1.1, Amylase / Lipase:37/82, Differential-Neuts:88.6 %,
   Lymph:8.0 %, Mono:2.1 %, Eos:1.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.6
   g/dL, LDH:411 IU/L, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL, PO4:2.5 mg/dL
   Micro:
   From  [**Hospital3 735**]: Bile, blood, urine all NGTD
   [**10-27**]: Bld cx, 1 of 2 bottles with gram pos cocci, [**10-28**] x2 NGTD
   [**10-27**] Urine cx NGTD
   [**10-27**] Bile cx NGTD, gram stain no organisms or poly
   CXR [**10-28**] 6:35 AM: ETT in place, about 4 cm from carina, increased
   haziness at both bases, more blunting of costophrenic angle suggestive
   of possible effusion, no clear consolidation
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who presented to OSH with abdominal pain,
   found to have pancreatitis, and is status-post percutaneous drain,
   intubated overnight for increased work of breathing.
   #) Respiratory failure: Intubated earlier this morning for increased
   work of breathing
oxygen saturation and CXR were not markedly changed.
   Suspect etiology was both due to discomfort of abdominal distension
   (which improved after NG placement), some volume overload, and possibly
   beginnings of [**Month/Year (2) 509**] (although no infiltrates on chest x-ray).  Currently
   on AC 450/14/5 with 100% oxygen.
   -          Repeat ABG demonstrated acidosis (7.23) with CO2 51, O2 159,
   and patient is currently breathing at rate of 22 with slightly larger
   volumes.  Given potential for [**Last Name (LF) 509**], [**First Name3 (LF) **] leave minute ventilation at
   current setting and increase rate to 22, PEEP to 8, and decrease Fi02
   to 80% to see if her oxygenation remains stable to improved. She still
   has a large A-a gradient, which is why development of [**First Name3 (LF) 509**] could be
   possible.
   -          Will increase flow to help with any degree of air hunger
   -          Sedation with versed and fentanyl.
   .
   #) Pancreatitis: Suspected to be secondary to high triglycerides,
   alcohol use. Also possible that patient could have passed stone given
   dilated CBD.
   - Appreciate surgery consult assistance
no intervention at present.
   - Continue very aggressive IVF resuscitation with 1 L NS boluses, will
   monitor tachycardia, laboratory values to assess adequacy of
   resuscitation; using LR and NS based on chloride, acid-base status,
   potassium/renal function. Main value today will be urine output
will
   bolus if drops below 50cc/hr.
   - Central line replaced.
   - Correcting hypocalcemia, calcium gtt, monitoring Q6H.
   - On Zosyn to empirically cover for gram negative pathogens (as
   discussed below).
   - NPO for bowel rest, will consider possibily initiating tube feeds
   (will discuss with surgery today initiating post-pyloric feedings).
   - Sepsis and [**First Name3 (LF) 509**] risk remain high, continuing to monitor; lactate has
   been WNL.
   - NG tube in place, stomach decompressed yesterday.
   .
   #) EtOH abuse: Continuing to monitor for signs of withdrawal given
   possible history of significant consumption. Last known drink was PM of
   [**10-24**]. Likely that LFT abnormalities related as discussed below.
   -          Will monitor on CIWA scale, prior to intubation, the
   importance of refraining from alcohol in setting of pancreatitis was
   stressed prior to intubation.
   -          Current tachycardia and hypertension (SBP now 130-160) may
   be due to withdrawal
will give trial of versed to see if this helps and
   then consider increasing sedation or boluses as needed.
   .
   #) Acidosis: Patient had had initial bicarbonate of 13 (with normal
   renal function, which was likely due to her renal failure and profound
   hypovolemia from third spacing of fluids, but cannot rule out other
   etiologies as her HCO3 was low prior to her renal insufficiency).
   Currently her acidosis is mixed from both respiratory and metabolic
   state.
   - Continuing IVFs to correct metabolic abnormalities, will continue to
   adjust ventilator to work on acid-base status as well.
   .
   #) Hypocalcemia: Patient with marked hypocalcemia, likely due to
   precipitation of calcium in pancreatic bed with fluid sequestration
   into third space. Improving with repletion and hydration.
   - Continue to repleat aggressively, checking Q6H, IV calcium.
   .
   #) Elevated LFTs: Patient had markedly elevated AST (800s at admission)
   greater than ALT, which is consistent with alcoholic hepatitis pattern.
   Her imaging from the OSH demonstrated fatty liver as well.
   - Will continue to trend LFTs which are markedly improved.
   - Hepatitis serologies pending.
   .
   #) Distended, thickened, gallbladder: Differential is acalculous
   cholecystitis (less likely given drainage from percutaneous tube),
   cholangitis, or secondary to edema and irritation of pancreas in
   surrounding area. No stones noted on imaging completed at OSH per
   report, and percutaneous drain, which was placed out of concern for
   possible cholangitis, revealed only bile. It is possible she passed
   stone given dilated duct noted.
   - Will discuss with surgery team if additional imaging (and which
   modality
MRI vs CT w/contrast) would be of assistance given her
   distended abdomen, worsening clinical status.
   - Following cx data, NGTD from [**Hospital3 735**].
   - Drain in place for now, further recommendations per surgical team
   - Zosyn started given concern for possible infection in setting of
   relative hypotension and bandemia.
   - ERCP team aware of patient.
   #) Gram positive cocci in blood cultures: [**Month (only) 51**] be contaminant or could
   represent superimposed infection. Vancomycin started (day 1 [**10-27**]). Left
   IJ has been removed.
   -          Monitoring all cx data (including from [**Hospital3 **])
   -          Continue vanco until further speciated.
   .
   #) Acute renal failure: Resolved with aggressive fluid resuscitation,
   was likely [**3-6**] to 3^rd spacing of fluids and resultant intravascular
   fluid depletion.
   .
   #) GERD: Continuing IV PPI
   .
   #) FEN: NPO, repleting electrolytes as needed. Will discuss TFs,
   aggressive IVFs as noted above.
   .
   #) PPx: On PPI (hx GERD), pneumoboots
   .
   #) Code: Full, confirmed with patient.
   .
   #) Communication: Per patient
s parents, updates should be relayed to
   patient
s father. [**Name (NI) 2051**] [**Name (NI) 251**] ([**Telephone/Fax (1) 2017**].
   ICU Care
   Nutrition:
   Glycemic Control:  N/A
   Lines:
   Arterial Line - [**2162-10-28**] 12:01 AM
   22 Gauge - [**2162-10-28**] 06:27 AM
   18 Gauge - [**2162-10-28**] 06:31 AM
   Multi Lumen - [**2162-10-28**] 07:14 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer:  PPI
   VAP:  Chlorhex, mouth hygiene
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: ICU

2162-10-29 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2162-10-28**] 09:09 PM
   - Ventilator settings changed AC: 450/22/8/60%  ABG 7.38/26/127/60%  ,
   now down to 50%, tolerating ABG 7.40, 37,107, 24
   - Surgery felt Zosyn was not necessary given that cultures are
   negative. No indication or reason to re-image at this time, continue
   current management. They did not feel it was appropriate to start tube
   feeds.
   - Tachycardia improved with increased doses of versed (10) and fentanyl
   (200)
   - Nutrition consult for TPN recommendations
   - OSH Micro: no growth
   - Cloudy, blood tinged urine: ua ordered, 15 WBC, few bacteria
   - Bolused 500cc LR for UO <50cc x2 hours. again at 1am.
   - Febrile to 101 at midnight. recultured blood and bile. Zosyn was
   re-started.
   - Hct drop, sent repeat and iron studies, hemolysis labs
   Patient intubated, sedated. Opens eyes when name is called, will
   squeeze hands bilaterally when requested, moves all extremities on
   request, shakes head
 when asked if in pain.
   Allergies:
   Last dose of Antibiotics:
   Piperacillin - [**2162-10-28**] 09:00 AM
   Vancomycin - [**2162-10-28**] 08:12 PM
   Piperacillin/Tazobactam (Zosyn) - [**2162-10-29**] 01:44 AM
   Infusions:
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-10-28**] 09:50 AM
   Heparin Sodium (Prophylaxis) - [**2162-10-29**] 12:00 AM
   Other medications:
   Tylenol PR PRN, chlorhexidine, heparin SQ TID, Diazepam 5 mg IV Q4H PRN
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2162-10-29**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.8
C (100
   HR: 95 (92 - 127) bpm
   BP: 89/62(73) {89/62(73) - 163/138(147)} mmHg
   RR: 22 (13 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 13 (6 - 15)mmHg
   Total In:
                                                                  3,092 mL
                                                                  1,487 mL
   PO:
   TF:
   IVF:
                                                                  3,092 mL
                                                                  1,487 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    630 mL
   Urine:
                                                                  1,500 mL
                                                                    330 mL
   NG:
                                                                    350 mL
                                                                    100 mL
   Stool:
   Drains:
                                                                    600 mL
                                                                    200 mL
   Balance:
                                                                    642 mL
                                                                    857 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.40/37/107/22/0
   Ve: 8.9 L/min
   PaO2 / FiO2: 214
   Physical Examination
   General: Sedated, arousable, in NAD, moving all extremities.
   HEENT: NC/AT, ETT in place, no scleral icterus or conjunctival pallor.
   MMM.
   Neck: Left IJ in place, c/d/I, supple
   Lungs: Ventilated breath sounds bilaterally, no wheezes, occ rhonchi
   Cardiac: Borderline tachycardic, regular, no m/g/r
   Abdomen: Distended, no significant change from yesterday-not firm, +BS,
   precut drain in place
   Extr: non-pitting edema of all extremities, pneumoboots in place
   Neuro: PERRL, opens eyes on command, moves all extremities when
   requested.
   Labs / Radiology
   188 K/uL
   9.5 g/dL
   89 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.1 mEq/L
   10 mg/dL
   113 mEq/L
   142 mEq/L
   28.8 %
   12.9 K/uL
        [image002.jpg]
                             [**2162-10-28**]  05:41 AM
                             [**2162-10-28**]  09:24 AM
                             [**2162-10-28**]  11:23 AM
                             [**2162-10-28**]  02:04 PM
                             [**2162-10-28**]  06:23 PM
                             [**2162-10-28**]  06:48 PM
                             [**2162-10-28**]  11:39 PM
                             [**2162-10-29**]  03:34 AM
                             [**2162-10-29**]  03:45 AM
                             [**2162-10-29**]  05:42 AM
   WBC
   12.9
   Hct
   28.6
   28.8
   Plt
   188
   Cr
   0.8
   0.7
   TCO2
   22
   22
   23
   22
   26
   25
   24
   Glucose
   95
   89
   Other labs: PT / PTT / INR:12.3/28.6/1.0, ALT / AST:45/46, Alk Phos / T
   Bili:111/1.7, Amylase / Lipase:37/82, Differential-Neuts:88.6 %,
   Lymph:8.0 %, Mono:2.1 %, Eos:1.0 %, Lactic Acid:0.5 mmol/L, Albumin:2.2
   g/dL, LDH:276 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Culture data:
   From [**Hospital3 735**]: Blood, urine, bile NGTD (last called to check on
   cultures yesterday)
   [**10-27**] Blood cultures enterococcous 1 of 2
   [**10-28**] Blood cultures NGTD x4
   [**10-27**] Urine culture NG final
   [**10-27**] Bile culture NGTD
   [**10-28**] Urine culture NGTD
   Chest X-ray [**10-29**]: Slightly worse right sided effusion noted, low lung
   volumes.
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who presented to OSH with abdominal pain,
   found to have pancreatitis, and is status-post percutaneous drain,
   intubated for increased work of breathing.
   #) Respiratory failure: Intubated yesterday ([**10-28**]) for increased work
   of breathing likely secondary to both due to discomfort of abdominal
   distension (which improved after NG placement), some volume overload,
   and possibly beginnings of ARDS (although no infiltrates on chest
   x-ray).  Currently on AC 450/22/8 with 50% oxygen and doing well,
   appears comfortable. No infiltrates on CXR to suggest ARDS.
          -      Last ABG demonstrated adequate settings: 7.4/37/107/24
   with lactate 0.5.
   -          Sedation with versed and fentanyl.
   .
   #) Pancreatitis: Suspected to be secondary to high triglycerides,
   alcohol use. Also possible that patient could have passed stone given
   dilated CBD.
   - Appreciate surgery consult assistance
no intervention at present.
   - Continue very aggressive IVF resuscitation with [**Telephone/Fax (1) 179**] cc LR
   boluses, will monitor tachycardia, laboratory values to assess adequacy
   of resuscitation; using LR and NS based on chloride, acid-base status,
   potassium/renal function. [**Telephone/Fax (1) 2132**] PRN UOP <50.
   - Central line replaced.
   - Correcting hypocalcemia, calcium gtt, monitoring [**Hospital1 7**].
   - Given lower HCT, mindful of possible transition to hemorrhage
   pancreatitis. Monitoring PM HCT. Abx as noted below.
   - NPO for bowel rest, no tube feeds per surgery recommendations, TPN
   initiated today.
   - Sepsis and ARDS risk remain high, continuing to monitor; lactate has
   been WNL.
   - NG tube in place for decompression.
   .
   #) Fevers: Overnight with fever to 101. Given that this after his Zosyn
   had been stopped, and high risk bacteremia from gut translocation.
   Concern also remains for possible cholangitis, although this has felt
   to be less likely.
   - Will re-start Zosyn today, continue to monitor all culture data.
   [**Hospital3 735**] confirmed that all culture data negative to date as of
   today. Patient re-cultured overnight.
   - Will continue to discuss with surgery when/if any repeat imaging
   would be of use.
   #) EtOH abuse: Continuing to monitor for signs of withdrawal given
   possible history of significant consumption. Last known drink was PM of
   [**10-24**]. Likely that LFT abnormalities related as discussed below.
   -          Yesterday, tachycardia and hypertension may have been
   secondary to withdrawal
improved with trial of versed [**Last Name (LF) **], [**First Name3 (LF) **]
   continuing increased dosing as needed.
   .
   #) Acidosis: Resolved
bicarb has returned to [**Location 810**], as has pH on ABG.
   Initially had initial bicarbonate of 13 (with normal renal function,
   which was likely due to her renal failure and profound hypovolemia from
   third spacing of fluids, but cannot rule out other etiologies as her
   HCO3 was low prior to her renal insufficiency).
   .
   #) Hypocalcemia: Patient with marked hypocalcemia, likely due to
   precipitation of calcium in pancreatic bed with fluid sequestration
   into third space. Improving with repletion and hydration, will continue
   to monitor [**Hospital1 7**].
   .
   #) Elevated LFTs: Patient had markedly elevated AST (800s at admission)
   greater than ALT, which is consistent with alcoholic hepatitis pattern.
   Her imaging from the OSH demonstrated fatty liver as well.
   - Will continue to trend LFTs which are markedly improved, nearly back
   to normal range.
   - Hepatitis serologies all negative (HCV, HBV sAg/sAb, HAV.
   .
   #) Distended, thickened, gallbladder: Differential is acalculous
   cholecystitis (less likely given drainage from percutaneous tube),
   cholangitis, or secondary to edema and irritation of pancreas in
   surrounding area. No stones noted on imaging completed at OSH per
   report, and percutaneous drain, which was placed out of concern for
   possible cholangitis, revealed only bile. It is possible she passed
   stone given dilated duct noted.
   - Continuing to discuss with surgery if any additional tests or imaging
   needed, none at present, appreciate assistance.
   - Following cx data, NGTD from [**Hospital3 735**].
   - Drain in place for now, further recommendations per surgical team
   - Zosyn for fevers, as noted above, (was started [**10-25**], today is day 5).
   - ERCP team aware of patient.
   #) Bacteremia: Cultures from day of admission grew out enterococci
   faecalis, sensitive to vancomycin which was started on [**10-27**]. Left IJ
   has been removed.
   -          Monitoring all cx data (including from [**Hospital3 **])
   .
   #) Anemia: Patient
s HCT continues to decline. Large degree was likely
   dilutional from aggressive IVF resuscitation, however concerning that
   it is continuing to decline, as noted above, transition to hemorrhagic
   pancreatitis is a possibility.
   - Iron studies, B12, folate, hemolysis, DIC labs all pending.
   - Re-check PM HCT.
   .
   #) GERD: Continuing IV PPI
   .
   #) FEN: NPO, repleting electrolytes as needed. TPN.
   .
   #) PPx: On PPI (hx GERD), pneumoboots
   .
   #) Code: Full, confirmed with patient.
   .
   #) Communication: Family was in today, was updated on progress, all
   questions answered, they will call anytime with questions. Per
   patient
s parents, updates should be relayed to patient
s father. [**Name (NI) 2051**]
   [**Name (NI) 251**] ([**Telephone/Fax (1) 2017**].
   ICU Care
   Nutrition:
   TPN, appreciate nutrition consult
   Glycemic Control:
   Lines:
   Arterial Line - [**2162-10-28**] 12:01 AM
   18 Gauge - [**2162-10-28**] 06:31 AM
   Multi Lumen - [**2162-10-28**] 07:14 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:
   VAP:  Chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: ICU

2162-10-30 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2162-10-29**] 05:10 PM
 ARTERIAL LINE - START [**2162-10-29**] 06:15 PM
 FEVER - 101.7
F - [**2162-10-29**] 12:00 PM
   - CT abdomen: bilateral moderate pleural effusions, increase in amont
   of ascities, peri-pancreatic stranding and inflammation, tip of
   appendix in ascites appeared possibly mildly inflamed. No evidence of
   abscess, hemorrhage, or bowel pathology.
   - Family in to visit, updated on care.
   - A-line replaced.
   - Transiently on pressure support while got CT abdomen due to high
   pressures.
   - Spiked to 101 in afternoon.
   Allergies:
   NKDA
   Last dose of Antibiotics:
   Piperacillin - [**2162-10-28**] 09:00 AM
   Vancomycin - [**2162-10-29**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2162-10-30**] 05:00 AM
   Infusions:
   Midazolam (Versed) - 11 mg/hour
   Fentanyl - 350 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-10-29**] 10:00 AM
   Other medications:
   Tylenol PRN, chlorhexidine, Diazepam 5 mg IV Q4H PRN, Pantoprazole 40
   mg IV
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2162-10-30**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.5
C (99.5
   HR: 90 (83 - 114) bpm
   BP: 112/59(75) {88/58(73) - 129/84(92)} mmHg
   RR: 22 (12 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 21 (12 - 52)mmHg
   Bladder pressure: 21 (21 - 21) mmHg
   Total In:
                                                                  3,856 mL
                                                                    803 mL
   PO:
   TF:
   IVF:
                                                                  3,084 mL
                                                                    513 mL
   Blood products:
   Total out:
                                                                  1,817 mL
                                                                    765 mL
   Urine:
                                                                  1,437 mL
                                                                    765 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
                                                                    280 mL
   Balance:
                                                                  2,039 mL
                                                                     38 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 31 cmH2O
   Plateau: 25 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.37/41/107/23/-1
   Ve: 9.4 L/min
   PaO2 / FiO2: 214
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   198 K/uL
   9.1 g/dL
   133 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.6 mEq/L
   11 mg/dL
   112 mEq/L
   141 mEq/L
   26.9 %
   13.1 K/uL
        [image002.jpg]
                             [**2162-10-28**]  11:39 PM
                             [**2162-10-29**]  03:34 AM
                             [**2162-10-29**]  03:45 AM
                             [**2162-10-29**]  05:42 AM
                             [**2162-10-29**]  04:09 PM
                             [**2162-10-29**]  06:35 PM
                             [**2162-10-29**]  08:04 PM
                             [**2162-10-30**]  12:00 AM
                             [**2162-10-30**]  04:35 AM
                             [**2162-10-30**]  05:12 AM
   WBC
   12.9
   13.1
   Hct
   28.6
   28.8
   28.3
   26.9
   Plt
   188
   198
   Cr
   0.7
   0.8
   TCO2
   25
   24
   23
   25
   23
   25
   Glucose
   89
   133
   Other labs: PT / PTT / INR:12.7/29.3/1.1, ALT / AST:39 (45) /45 (46),
   Alk Phos / T Bili:122 (111)/1.4 (1.7), Amylase / Lipase:59/135 ([**10-29**]),
   Differential-Neuts:74.0 %, Band:2.0 %, Lymph:12.0 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:300 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   *Comment on differential: Toxic granulations, dohle bodies
   [**2162-10-27**] Blood culture: Enterococcous faecalis (suspectible to
   ampicillin, vancomycin, PCN)
   All other culture data (bld cx, urine, bile) all NGTD.
   CT Abdomen with contrast [**10-29**]
   **WET READ**
   1. Significantly increased ascites
   2. Pancreatitis.
   3. Percutaneous cholecystostomy tube with patent CBD.
   4. Persistent diffuse fatty liver.
   5. Appendix normal caliber to tip which appears slightly dilated,
   perhaps
   secondary to proximity to fluid.
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who presented to OSH with abdominal pain,
   found to have pancreatitis, and is status-post percutaneous drain,
   intubated for increased work of breathing.
   #) Respiratory failure: Intubated yesterday ([**10-28**]) for increased work
   of breathing likely secondary to both due to discomfort of abdominal
   distension (which improved after NG placement), some volume overload,
   and possibly beginnings of ARDS (although no infiltrates on chest
   x-ray).  Currently on AC 450/22/8 with 50% oxygen and doing well,
   appears comfortable. No infiltrates on CXR to suggest ARDS.
          -      Last ABG demonstrated adequate settings: 7.4/37/107/24
   with lactate 0.5.
   -          Sedation with versed and fentanyl.
   .
   #) Pancreatitis: Suspected to be secondary to high triglycerides,
   alcohol use. Also possible that patient could have passed stone given
   dilated CBD.
   - Appreciate surgery consult assistance
no intervention at present.
   - Continue very aggressive IVF resuscitation with [**Telephone/Fax (1) 179**] cc LR
   boluses, will monitor tachycardia, laboratory values to assess adequacy
   of resuscitation; using LR and NS based on chloride, acid-base status,
   potassium/renal function. [**Telephone/Fax (1) 2132**] PRN UOP <50.
   - Central line replaced.
   - Correcting hypocalcemia, calcium gtt, monitoring [**Hospital1 7**].
   - Given lower HCT, mindful of possible transition to hemorrhage
   pancreatitis. Monitoring PM HCT. Abx as noted below.
   - NPO for bowel rest, no tube feeds per surgery recommendations, TPN
   initiated today.
   - Sepsis and ARDS risk remain high, continuing to monitor; lactate has
   been WNL.
   - NG tube in place for decompression.
   .
   #) Fevers: Overnight with fever to 101. Given that this after his Zosyn
   had been stopped, and high risk bacteremia from gut translocation.
   Concern also remains for possible cholangitis, although this has felt
   to be less likely.
   - Will re-start Zosyn today, continue to monitor all culture data.
   [**Hospital3 735**] confirmed that all culture data negative to date as of
   today. Patient re-cultured overnight.
   - Will continue to discuss with surgery when/if any repeat imaging
   would be of use.
   #) EtOH abuse: Continuing to monitor for signs of withdrawal given
   possible history of significant consumption. Last known drink was PM of
   [**10-24**]. Likely that LFT abnormalities related as discussed below.
   -          Yesterday, tachycardia and hypertension may have been
   secondary to withdrawal
improved with trial of versed [**Last Name (LF) **], [**First Name3 (LF) **]
   continuing increased dosing as needed.
   .
   #) Acidosis: Resolved
bicarb has returned to [**Location 810**], as has pH on ABG.
   Initially had initial bicarbonate of 13 (with normal renal function,
   which was likely due to her renal failure and profound hypovolemia from
   third spacing of fluids, but cannot rule out other etiologies as her
   HCO3 was low prior to her renal insufficiency).
   .
   #) Hypocalcemia: Patient with marked hypocalcemia, likely due to
   precipitation of calcium in pancreatic bed with fluid sequestration
   into third space. Improving with repletion and hydration, will continue
   to monitor [**Hospital1 7**].
   .
   #) Elevated LFTs: Patient had markedly elevated AST (800s at admission)
   greater than ALT, which is consistent with alcoholic hepatitis pattern.
   Her imaging from the OSH demonstrated fatty liver as well.
   - Will continue to trend LFTs which are markedly improved, nearly back
   to normal range.
   - Hepatitis serologies all negative (HCV, HBV sAg/sAb, HAV.
   .
   #) Distended, thickened, gallbladder: Differential is acalculous
   cholecystitis (less likely given drainage from percutaneous tube),
   cholangitis, or secondary to edema and irritation of pancreas in
   surrounding area. No stones noted on imaging completed at OSH per
   report, and percutaneous drain, which was placed out of concern for
   possible cholangitis, revealed only bile. It is possible she passed
   stone given dilated duct noted.
   - Continuing to discuss with surgery if any additional tests or imaging
   needed, none at present, appreciate assistance.
   - Following cx data, NGTD from [**Hospital3 735**].
   - Drain in place for now, further recommendations per surgical team
   - Zosyn for fevers, as noted above, (was started [**10-25**], today is day 5).
   - ERCP team aware of patient.
   #) Bacteremia: Cultures from day of admission grew out enterococci
   faecalis, sensitive to vancomycin which was started on [**10-27**]. Left IJ
   has been removed.
   -          Monitoring all cx data (including from [**Hospital3 **])
   .
   #) Anemia: Patient
s HCT continues to decline. Large degree was likely
   dilutional from aggressive IVF resuscitation, however concerning that
   it is continuing to decline, as noted above, transition to hemorrhagic
   pancreatitis is a possibility.
   - Iron studies, B12, folate, hemolysis, DIC labs all pending.
   - Re-check PM HCT.
   .
   #) GERD: Continuing IV PPI
   .
   #) FEN: NPO, repleting electrolytes as needed. TPN.
   .
   #) PPx: On PPI (hx GERD), pneumoboots
   .
   #) Code: Full, confirmed with patient.
   .
   #) Communication: Family was in today, was updated on progress, all
   questions answered, they will call anytime with questions. Per
   patient
s parents, updates should be relayed to patient
s father. [**Name (NI) 2051**]
   [**Name (NI) 251**] ([**Telephone/Fax (1) 2017**].
   ICU Care
   Nutrition:
   TPN without Lipids - [**2162-10-29**] 05:00 PM 41.[**Telephone/Fax (5) 662**] mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-10-28**] 06:31 AM
   Multi Lumen - [**2162-10-28**] 07:14 AM
   Arterial Line - [**2162-10-29**] 06:15 PM
   Prophylaxis:
   DVT: Heparin SQ TID
   Stress ulcer: PPI
   VAP:  Chlorhexidine, PPI
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: ICU

2162-10-30 10:33:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2162-10-29**] 05:10 PM
 ARTERIAL LINE - START [**2162-10-29**] 06:15 PM
 FEVER - 101.7
F - [**2162-10-29**] 12:00 PM
   Abd CT obtained [**10-29**] pm - new bilateral pleural effusions, increased
   ascites, peripancreatic stranding, no abscess/hemorrhage, CBD not
   increased.
   Switched over to PS during imaging, but then back to AC and remains on
   this.
   Allergies:
   Last dose of Antibiotics:
   Piperacillin - [**2162-10-28**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2162-10-30**] 05:00 AM
   Vancomycin - [**2162-10-30**] 08:00 AM
   Infusions:
   Fentanyl - 350 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-10-30**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2162-10-30**] 09:00 AM
   Other medications:
   midazolam 11 mg/hr
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-10-30**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.8
C (100
   HR: 94 (83 - 114) bpm
   BP: 119/66(83) {88/58(73) - 129/84(90)} mmHg
   RR: 22 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 16 (13 - 52)mmHg
   Total In:
                                                                  3,856 mL
                                                                  1,322 mL
   PO:
   TF:
   IVF:
                                                                  3,084 mL
                                                                    900 mL
   Blood products:
   Total out:
                                                                  1,817 mL
                                                                  1,230 mL
   Urine:
                                                                  1,437 mL
                                                                  1,185 mL
   NG:
                                                                    100 mL
                                                                     15 mL
   Stool:
   Drains:
                                                                    280 mL
                                                                     30 mL
   Balance:
                                                                  2,039 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 18 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 96%
   ABG: 7.37/41/107/23/-1
   Ve: 9.2 L/min
   PaO2 / FiO2: 214
   Physical Examination
   General: intubated, sedated, opens eyes to commands
   HEENT: PERRL, EOMI
   NECK: supple
   CV: S1/S2 R
   CHEST: cta anteriorly, decreased bs at bases b/l
   ABD: distended, no evidence of grimacing to pain
   EXT wwp, no  c/c, 1+ edema b.l
   Peripheral Vascular: (Right radial pulse: 1+), (Left radial pulse: 1+),
   (Right DP pulse1+), (Left DP pulse: 1+)
   Skin:  Not assessed
   Neurologic: Responds to: simple commands, Movement: all extremities,
   Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   198 K/uL
   133 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.6 mEq/L
   11 mg/dL
   112 mEq/L
   141 mEq/L
   26.9 %
   13.1 K/uL
         [image002.jpg]
                             [**2162-10-28**]  11:39 PM
                             [**2162-10-29**]  03:34 AM
                             [**2162-10-29**]  03:45 AM
                             [**2162-10-29**]  05:42 AM
                             [**2162-10-29**]  04:09 PM
                             [**2162-10-29**]  06:35 PM
                             [**2162-10-29**]  08:04 PM
                             [**2162-10-30**]  12:00 AM
                             [**2162-10-30**]  04:35 AM
                             [**2162-10-30**]  05:12 AM
   WBC
   12.9
   13.1
   Hct
   28.6
   28.8
   28.3
   26.9
   Plt
   188
   198
   Cr
   0.7
   0.8
   TCO2
   25
   24
   23
   25
   23
   25
   Glucose
   89
   133
   Other labs: PT / PTT / INR:12.7/29.3/1.1, ALT / AST:39/45, Alk Phos / T
   Bili:122/1.4, Amylase / Lipase:59/135, Differential-Neuts:74.0 %,
   Band:2.0 %, Lymph:12.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:0.8
   mmol/L, Albumin:2.2 g/dL, LDH:300 IU/L, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   40 y/o F w/hx of pancreatitis who presents with severe acute
   pancreatitis, ? cholangitis/choledocholithiasis and acute renal
   failure.
   1. Pancreatitis:  Required less fluid yesterday, maintaining good urine
   output, CVP currently 16, evidence of anasarca on recent CT
    - will start gradual diuresis (aim for
 500 cc today)
    - appreciate surgery input
    - monitor bladder pressures
   2. Volume overload: bilateral pleural effusions with abdominal ascites
   in setting of aggressive diuresis.
   given pancreatitis appears to be improving, abd CT no necrosis/abscess,
   electrolytes within normal limits, uop stable, pressures stable,
   therefore will start gentle diuresis
    - lasix 10 mg IV for goal net negative
   3. Gallbladder disease: ? cholangitis, bilis came up a bit yesterday,
   now having fevers through zosyn, biliary drain continues to drain bile.
    - will contact [**Name (NI) **] for culture data
    - t/b with surgery regarding plan for drain
    -contt vanc/zosyn
   2. Fever:  Febrile to 101 overnight.  Blood cx from admission growing
   enterococcus, but negative since then.  Initially febrile after d/c
   zosyn, however continues to have temp after zosyn has been added back.
   Reimaging does not reveal abscess or obvious source of infection.
    - urine, bile, sputum, blood culture
    - [**First Name9 (NamePattern2) 2160**] [**Last Name (un) 270**] to vanc
    - low threshold tap abd if fevers persist
    - cont vanc/zosyn and check vanc trough
   3. Respiratory failure:  Likely ARDS due to underlying pancreatitis,
   with difficulty keeping up with her minute ventilation due to abdominal
   distention, now + bilateral pleural effusions likely increasing wob.
   ABG improved with increase in respiratory rate.
    - will initiate diuresis, and cont to assess on ventilator, with
   diuresis and decrease in size of effusions may be able to progress on
   vent
   4. ETOH withdrawal: requiring heavy sedation dosing, likely [**3-6**] prior
   use
   5. Respiratory
   - continue low tidal volume and decrease FIO2 to 40%
   6. ARF: Resolved.
   5. Anemia:  28 this morning.  Likely related to volume resuscitation,
   less likely hemorrhagic pancreatitis, and no evidence of this on abd
   CT.  Fibrinogen and haptoglobin elevated and less likely DIC
   ICU Care
   Nutrition:
   TPN without Lipids - [**2162-10-29**] 05:00 PM 41.[**Telephone/Fax (5) 662**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2162-10-28**] 06:31 AM
   Multi Lumen - [**2162-10-28**] 07:14 AM
   Arterial Line - [**2162-10-29**] 06:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with Dr.
   [**Last Name (STitle) 192**] for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points=
   40 year old female with EtOH abuse, hypertriglyceridemia,  transferred
   from OSH with pancreatitis (TG vs GB vs EtOH induced) s/p drian
   placement, with course complicated by acute resp failure req/
   intubation in the setting of enterococcus bacteremia and volume
   overload. CT abd negative for necrotizing process. She is sedated but
   responds to simple commands, remains intubated. Lung diminished bs at
   bases but o/w clear. CV RRR. Abd distended with hypoactive bs. Ext [**2-3**]+
   edema bilaterally.
   Pancreatitis appears to be improving, remains critically ill requiring
   mech ventilation. Continue antibiotics, supportive care. Will attempt
   diuresis to remove fluid and hope to also wean vent as tolerated.
   Surgery following. Plans as per above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2162-10-30**] 16:40 ------

2162-10-31 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 WOUND CULTURE - At [**2162-10-30**] 06:54 PM
   T-Tube bile culture.
   -          [**Hospital1 **] cx: NGTD
   -          Bile cx resent here
   -          Ct scan w/o abscess
   -          Surgery: leave drain in place x 6 wks, no TF for now
   -          Lasix 10 mg IV x 1 with diuresis of approx 1 L
   -          8PM ABG 7.40/41/77/26 on 450x22x8x40%
   -          Hct stable
   -          When sedation lightened, pt become sagitated, PIP mid 30s to
   30s, came down with sedation
   Allergies:
   Last dose of Antibiotics:
   Piperacillin - [**2162-10-28**] 09:00 AM
   Vancomycin - [**2162-10-30**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2162-10-31**] 04:00 AM
   Infusions:
   Fentanyl - 350 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-10-30**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2162-10-30**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-10-31**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100
   HR: 86 (84 - 108) bpm
   BP: 125/75(94) {100/62(78) - 140/80(98)} mmHg
   RR: 22 (19 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 17 (0 - 22)mmHg
   Bladder pressure: 19 (19 - 19) mmHg
   Total In:
                                                                  3,117 mL
                                                                    925 mL
   PO:
   TF:
   IVF:
                                                                  1,999 mL
                                                                    481 mL
   Blood products:
   Total out:
                                                                  3,610 mL
                                                                    970 mL
   Urine:
                                                                  3,510 mL
                                                                    970 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
                                                                     75 mL
   Balance:
                                                                   -493 mL
                                                                    -45 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: #Overflow#
   RSBI Deferred: No Spon Resp
   PIP: 32 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: 7.40/41/77/25/0
   Ve: 10.2 L/min
   PaO2 / FiO2: 193
   Physical Examination
   Gen: intubated, sedated, arouses to voice
   HEENT: PERRL
   Lungs: Wheezes bilaterally
   Heart: s1s2 RRR
   Abd: obese, mildly firm, distended
   Ext: wd/wp, + peripheral edema
   Neuro: Sedated
   Labs / Radiology
    158
   9.3 g/dL
   140 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.4 mEq/L
   12 mg/dL
   109 mEq/L
   143 mEq/L
   28.4 %
   14.7 K/uL
        [image002.jpg]
                             [**2162-10-29**]  04:09 PM
                             [**2162-10-29**]  06:35 PM
                             [**2162-10-29**]  08:04 PM
                             [**2162-10-30**]  12:00 AM
                             [**2162-10-30**]  04:35 AM
                             [**2162-10-30**]  05:12 AM
                             [**2162-10-30**]  05:41 PM
                             [**2162-10-30**]  08:43 PM
                             [**2162-10-31**]  02:58 AM
                             [**2162-10-31**]  06:00 AM
   WBC
   13.1
   14.7
   Hct
   28.3
   26.9
   26.1
   28.4
   Plt
   198
   230
    158
   Cr
   0.8
   0.8
   TCO2
   23
   25
   23
   25
   26
   Glucose
   133
   140
   Other labs: PT / PTT / INR:12.9/29.2/1.1, ALT / AST:38/40, Alk Phos / T
   Bili:125/1.0, Amylase / Lipase:44/116, Differential-Neuts:73.0 %,
   Band:5.0 %, Lymph:10.0 %, Mono:7.0 %, Eos:3.0 %, Lactic Acid:1.1
   mmol/L, Albumin:2.4 g/dL, LDH:304 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.0 mg/dL
   MICRO:
   -          [**Hospital1 **]: NGTD
   -          Blood cx: pending
   -          Blood cx [**10-27**]: enterococcus
   CXR [**10-31**]: bilateral pleural effusions, stable
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who presented to OSH with abdominal pain,
   found to have pancreatitis, and is status-post percutaneous drain,
   intubated for increased work of breathing, now with fevers.
   #) Respiratory failure: Intubated on [**10-28**] for increased work of
   breathing likely secondary to both due to discomfort of abdominal
   distension (which improved after NG placement), some volume overload,
   and possibly beginnings of ARDS (although no infiltrates on chest
   x-ray).  Currently on AC 450/22/8 with 40% oxygen and doing well,
   appears comfortable. No infiltrates on CXR to suggest ARDS. X-ray today
   as well as CT scan consistent with moderate pleural effusions in
   setting of aggressive IVF resuscitation.
          -      Decreased FiO2 to 40% given last ABG; PS trial.
   -          Sedation with versed and fentanyl.
   -          Given massively fluid overloaded state (from necessary IVFs
   for pancreatitis), initiated diuresis, continue today goal negative 1 L
   today.
   .
   #) Pancreatitis: Suspected to be secondary to high triglycerides,
   alcohol use. Also possible that patient could have passed stone given
   dilated CBD. Calcium, renal function, UOP, BP all stable.
   - Appreciate surgery consult assistance
no intervention at present.
   - Bolus LR if UOP <50, other hemodynamic instability or worsening
   laboratory functions.
   - CT scan consistent with pancreatitis, no hemorrhage or abscess seen.
   - NPO for bowel rest, no tube feeds per surgery recommendations, TPN
   initiated [**10-29**].
   - Sepsis and ARDS risk remain high, continuing to monitor; lactate has
   been WNL.
   - NG tube in place for decompression.
   .
   #) Fevers, bacteremia: Continued fevers since [**Date range (1) 2161**]. Culture data
   only revealing for enterococcous.  High risk of bacteremia from gut
   translocation. CT negative for abscess or other concerning pathology.
   Concern also remains for possible cholangitis, although this has felt
   to be less likely. Med effect also possibility (new med would be zosyn,
   versed, fentanyl)
   - Continue zosyn and vancomycin (zosyn started [**10-25**], vancomycin [**10-28**]).
   - Continuing to investigate other potential infection sources (eg lung,
   urine, think about tapping ascites).
   - Re-culture bile, pending.
   - Send c-diff, urine/blood/sputum cx today
   #) EtOH abuse: Continuing to monitor for signs of withdrawal given
   possible history of significant consumption. Last known drink was PM of
   [**10-24**]. Likely that LFT abnormalities related as discussed below.
   -          Continuing versed boluses as needed, currently no signs of
   withdrawal.
   .
   #) Elevated LFTs: Patient had markedly elevated AST (800s at admission)
   greater than ALT, which is consistent with alcoholic hepatitis pattern.
   Her imaging from the OSH demonstrated fatty liver as well. T. Bili and
   direct bili were elevated which was concerning for worsening abdominal
   process, but they have improved. No stones have been seen on imaging.
   - Will continue to trend LFTs which are markedly improved, nearly back
   to normal range.
   - Hepatitis serologies all negative (HCV, HBV sAg/sAb, HAV.
   .
   #) Distended, thickened, gallbladder: Differential is acalculous
   cholecystitis (less likely given drainage from percutaneous tube),
   cholangitis, or secondary to edema and irritation of pancreas in
   surrounding area. No stones noted on imaging completed at OSH per
   report, and percutaneous drain, which was placed out of concern for
   possible cholangitis, revealed only bile. It is possible she passed
   stone given dilated duct noted.
   - Following cx data, NGTD from [**Hospital3 735**].
   - Drain in place for now, further recommendations per surgical team
   - Zosyn for fevers, as noted above, (was started [**10-25**], today is day 7).
   - ERCP team aware of patient.
   - Follow up final CT read.
   .
   #) Anemia: Patient
s HCT continues to decline, although today within
   laboratory error. Large degree was likely dilutional from aggressive
   IVF resuscitation. No hemorrhagic component noted on CT.
   - Iron studies, B12, folate, hemolysis, DIC labs all checked.
   - Hct stable
   .
   #) GERD: Continuing IV PPI
   .
   #) FEN: NPO, repleting electrolytes as needed. TPN.
   .
   #) PPx: On PPI (hx GERD), pneumoboots
   .
   #) Code: Full, confirmed with patient.
   .
   #) Communication: Family was in, was updated on progress, all questions
   answered, they will call anytime with questions. Per patient
s parents,
   updates should be relayed to patient
s father. [**Name (NI) 2051**] [**Name (NI) 251**] ([**Telephone/Fax (1) 2180**].
   ICU Care
   Nutrition:
   TPN without Lipids - [**2162-10-29**] 05:00 PM 41.[**Telephone/Fax (5) 662**] mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-10-28**] 06:31 AM
   Multi Lumen - [**2162-10-28**] 07:14 AM
   Arterial Line - [**2162-10-29**] 06:15 PM
   Prophylaxis:
   DVT: Heparin SQ TID
   Stress ulcer: PPI
   VAP:  Chlorhexidine, PPI
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: ICU

2162-10-31 10:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 WOUND CULTURE - At [**2162-10-30**] 06:54 PM
   T-Tube bile culture.
   [**Hospital **] hosp: no growth on culture data
   Surgery following - would like to keep drain in place for at least 6
   weeks
   Started diuresing - 10 iv lasix o/n with 1L uop
   with lightened sedation, increased aggitation, increased PIPs to 30s
   albuterol mdi initiated
                   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2162-10-31**] 04:00 AM
   Vancomycin - [**2162-10-31**] 08:18 AM
   Infusions:
   Midazolam (Versed) - 11 mg/hour
   Fentanyl - 350 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-10-31**] 09:51 AM
   Other medications:
   protonix 40 qday
   versed 11
   fentanyl 350 mcg/hr
   RISS
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-10-31**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100
   HR: 90 (84 - 108) bpm
   BP: 123/76(93) {100/62(78) - 140/80(98)} mmHg
   RR: 22 (19 - 22) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
   CVP: 13 (0 - 19)mmHg
   Bladder pressure: 19 (19 - 19) mmHg
   Total In:
                                                                  3,119 mL
                                                                  1,474 mL
   PO:
   TF:
   IVF:
                                                                  1,999 mL
                                                                    854 mL
   Blood products:
   Total out:
                                                                  3,610 mL
                                                                  1,430 mL
   Urine:
                                                                  3,510 mL
                                                                  1,430 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
                                                                     75 mL
   Balance:
                                                                   -491 mL
                                                                     44 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: #Overflow#
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.40/41/77/25/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, hypoactive bowel sounds
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
    158
   140 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.4 mEq/L
   12 mg/dL
   109 mEq/L
   143 mEq/L
   28.4 %
   14.7 K/uL
        [image002.jpg]
                             [**2162-10-29**]  04:09 PM
                             [**2162-10-29**]  06:35 PM
                             [**2162-10-29**]  08:04 PM
                             [**2162-10-30**]  12:00 AM
                             [**2162-10-30**]  04:35 AM
                             [**2162-10-30**]  05:12 AM
                             [**2162-10-30**]  05:41 PM
                             [**2162-10-30**]  08:43 PM
                             [**2162-10-31**]  02:58 AM
                             [**2162-10-31**]  06:00 AM
   WBC
   13.1
   14.7
   Hct
   28.3
   26.9
   26.1
   28.4
   Plt
   198
   230
    158
   Cr
   0.8
   0.8
   TCO2
   23
   25
   23
   25
   26
   Glucose
   133
   140
   Other labs: PT / PTT / INR:12.9/29.2/1.1, ALT / AST:38/40, Alk Phos / T
   Bili:125/1.0, Amylase / Lipase:44/116, Differential-Neuts:73.0 %,
   Band:5.0 %, Lymph:10.0 %, Mono:7.0 %, Eos:3.0 %, Lactic Acid:1.1
   mmol/L, Albumin:2.4 g/dL, LDH:304 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.0 mg/dL
   Imaging: bilateral effusions unchanged
   ett appropriate
   Microbiology: blood cx ngtd
   blood 9/24 - enterococcus
   urine [**10-28**] ngtd
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who presented to OSH with abdominal pain,
   found to have pancreatitis, and is status-post percutaneous drain,
   intubated for increased work of breathing, now with fevers.
   1) Respiratory failure: Intubated on [**10-28**] for increased work of
   breathing likely secondary to both due to discomfort of abdominal
   distension (which improved after NG placement), some volume overload,
   and possibly beginnings of ARDS (although no infiltrates on chest
   x-ray).  Currently improving respiratory status, still on AC, PEEP 8,
   largest compromise likely 2.2 b/l pleural effusions
    - will cont diuresis goal - 1l today
    - attempt PS
   2) Pancreatitis: Suspected to be secondary to high triglycerides,
   alcohol use. Also possible that patient could have passed stone given
   dilated CBD. Calcium, renal function, UOP, BP all stable.
   - Appreciate surgery consult assistance
no intervention at present.
   - Bolus LR if UOP <50, other hemodynamic instability or worsening
   laboratory functions.
   - CT scan completed last night consistent with pancreatitis, no
   hemorrhage or abscess seen.
   - NPO for bowel rest, no tube feeds per surgery recommendations, TPN
   initiated [**10-29**].
   - NG tube in place for decompression.
   3) cholangitis: surgery following, drain in place, unclear if she had
   infection or was passing stone
   #) Fevers, bacteremia: continues to have low-grade temps now with
   rising white count and bandemia
    - will check cdif
    - will check urine, blood, sputum cultures
    - if negative and continues to have fvrs/wbc, will obtain diagnostic
   tap abd/belly
   #) EtOH abuse: Continuing to monitor for signs of withdrawal given
   possible history of significant consumption. Last known drink was PM of
   [**10-24**]. Likely that LFT abnormalities related as discussed below.
   -          Continuing versed boluses as needed, very aggitated when
   sedation lessened
   #) Elevated LFTs: Patient had markedly elevated AST (800s at admission)
   greater than ALT, which is consistent with alcoholic hepatitis pattern.
   Her imaging from the OSH demonstrated fatty liver as well. T. Bili and
   direct bili were elevated which was concerning for worsening abdominal
   process, but they have improved. No stones have been seen on imaging.
   - Will continue to trend LFTs which are markedly improved, nearly back
   to normal range.
   - Hepatitis serologies all negative (HCV, HBV sAg/sAb, HAV.
   .
   #) Distended, thickened, gallbladder: Differential is acalculous
   cholecystitis (less likely given drainage from percutaneous tube),
   cholangitis, or secondary to edema and irritation of pancreas in
   surrounding area. No stones noted on imaging completed at OSH per
   report, and percutaneous drain, which was placed out of concern for
   possible cholangitis, revealed only bile. It is possible she passed
   stone given dilated duct noted.
   - Following cx data, NGTD from [**Hospital3 735**].
   - Drain in place for now, further recommendations per surgical team
   - Zosyn for fevers, as noted above, (was started [**10-25**], today is day 6).
   - ERCP team aware of patient.
   - Follow up final CT read.
   .
   #) Anemia: Patient
s HCT continues to decline, although today within
   laboratory error. Large degree was likely dilutional from aggressive
   IVF resuscitation. No hemorrhagic component noted on CT.
   likely [**3-6**] prolonged hosp and volume
   #) GERD: Continuing IV PPI
   #) FEN: NPO, repleting electrolytes as needed. TPN.
   .
   #) PPx: On PPI (hx GERD), pneumoboots
   .
   #) Code: Full, confirmed with patient.
   .
   #) Communication: Family was in, was updated on progress, all questions
   answered, they will call anytime with questions. Per patient
s parents,
   updates should be relayed to patient
s father. [**Name (NI) 2051**] [**Name (NI) 251**] ([**Telephone/Fax (1) 2180**].
   ICU Care
   Nutrition:
   TPN without Lipids - [**2162-10-31**] 09:21 AM 62.5 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2162-10-28**] 07:14 AM
   Arterial Line - [**2162-10-29**] 06:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with Dr.
   [**Last Name (STitle) 192**] for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:  40F w/ EtOH abuse, hypertriglyceridemia,
   transferred from OSH with pancreatitis (TG vs GB vs EtOH induced) s/p
   drian placement, with course complicated by acute resp failure req/
   intubation in the setting of enterococcus bacteremia and volume
   overload. CT abd negative for necrotizing process.
   On exam:
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100
   HR: 90 (84 - 108) bpm
   BP: 123/76(93) {100/62(78) - 140/80(98)} mmHg
   RR: 22 (19 - 22) insp/min
   SpO2: 95%
   Intubated, sedated- responds commands
   CV RRR
   Lungs diminished bs at bases o/w clear.
   Abd distended with [**Month (only) **] bs.
   Ext [**2-3**]+ edema bilaterally.
   40F w/ history of pancreatitis, alcohol abuse, and hyperlipidemia who
   presented to OSH with abdominal pain, found to have pancreatitis, and
   is status-post percutaneous drain, intubated for increased work of
   breathing, now with fevers.
   Pancreatitis appears to be improving. Continue antibiotics, supportive
   care. Intubated for inc WOB
 weaning as tol.  Large effusions may need
   to be addressed to improve resp mechanics.  Cont diuresis as able.
   Plans as per above.
   Pt is critically ill.
   Time spent on care 35min.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 973**], MD
   on:[**2162-10-31**] 18:53 ------

2162-11-01 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2162-10-31**] 12:37 PM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2162-10-31**] 03:30 PM
   - Vancomycin was stopped because enterococci susceptable to ampcillin
   and patient has been on Zosyn
   - Patient self extubated around 1pm. Oxygen saturations dropped to low
   80s, she was promptly reintubated
   - Prior to self extubation, she had failed PS trial with tachypnea and
   low volumes.
   - Surgery recommends considering ERCP tube while pancreatitis resolves
   so that cholecystostomy tube can be discontinued. They also recommend
   continue TPN if she is going to have an ERCP.
   - Post reintubation, AC 450/22/8/100%-- weaned stepwise to 40%, on this
   Gas was: 7.44/36/88/25. RR then 22->18. AM gas on this: 7.41/48/80
   - Patient waking up with large amounts of sedation.
   This morning opens eyes to command, nods
 when asked if in pain.
   Squeezes both hands on command, moves feet when asked. Per nursing,
   when sedation lifted, makes attempts to pull at tubes and drains.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2162-10-31**] 08:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2162-11-1**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-11-1**] 12:00 AM
   Other medications:
   Artificial tears, Albuterol MDI, Humalog Insulin Sliding Scale,
   Fentanyl, Versed, Chlorhexidine, Pantoprazole
   Changes to medical and family history:
   None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None.
   Flowsheet Data as of  [**2162-11-1**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.8
   HR: 92 (84 - 132) bpm
   BP: 132/78(95) {101/71(86) - 154/119(134)} mmHg
   RR: 20 (18 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 18 (10 - 297)mmHg
   Total In:
                                                                  3,435 mL
                                                                    882 mL
   PO:
   TF:
   IVF:
                                                                  1,923 mL
                                                                    422 mL
   Blood products:
   Total out:
                                                                  3,850 mL
                                                                  1,900 mL
   Urine:
                                                                  3,700 mL
                                                                  1,300 mL
   NG:
                                                                    100 mL
                                                                    300 mL
   Stool:
   Drains:
                                                                    300 mL
   Balance:
                                                                   -415 mL
                                                                 -1,018 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 1
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 81
   PIP: 32 cmH2O
   Plateau: 28 cmH2O
   SpO2: 95%
   ABG: 7.41/48/80.[**Numeric Identifier 176**]/29/4
   Ve: 8.6 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General: Intubated, sedated, opens eyes when asked, moving all
   extremities.
   HEENT: NC/AT. MMM, no scleral icterus or conjunctival pallor. Slightly
   flushed complexion.
   Neck: Left IJ in place, c/d/i
   Lungs: Transmitted upper airway noise, decreased BS at bases up
   lung field, +BS bilaterally
   Cardiac: Regular, no m/g/r appreciated above the ventilator
   Abd: Distended, but not firm, non-tender, +BS, percutaneous drain in
   place
   Extr: Warm, no lesions, non-pitting edema in lower extremities,
   pneumonboots in place
   Neuro: Responds appropriately to commands
   Skin: No lesions
   Labs / Radiology
   270 K/uL
   8.8 g/dL
   155 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.1 mEq/L
   12 mg/dL
   108 mEq/L
   144 mEq/L
   26.8 %
   15.8 K/uL
        [image002.jpg]
                             [**2162-10-30**]  05:12 AM
                             [**2162-10-30**]  05:41 PM
                             [**2162-10-30**]  08:43 PM
                             [**2162-10-31**]  02:58 AM
                             [**2162-10-31**]  06:00 AM
                             [**2162-10-31**]  12:25 PM
                             [**2162-10-31**]  06:36 PM
                             [**2162-10-31**]  11:19 PM
                             [**2162-11-1**]  03:59 AM
                             [**2162-11-1**]  04:32 AM
   WBC
   14.7
   15.8
   Hct
   26.1
   28.4
   26.8
   Plt
   230
    158
   270
   Cr
   0.8
   0.7
   TCO2
   25
   26
   28
   29
   25
   31
   Glucose
   140
   155
   Other labs: PT / PTT / INR:12.9/29.2/1.1, ALT / AST:36/34, Alk Phos / T
   Bili:125/0.6, Amylase / Lipase:40/97, Differential-Neuts:73.0 %,
   Band:5.0 %, Lymph:10.0 %, Mono:7.0 %, Eos:3.0 %, Lactic Acid:1.5
   mmol/L, Albumin:2.3 g/dL, LDH:290 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.2 mg/dL
   Today
s differential: 69% PMN, 10% Bands, 6% Lymph, 3% Mono, 0% Eos, 3%
   Atyps, 3% Metas, 6% Myelos
   No new culture data (only positive culture is Blood from  [**10-27**] 1 of 2
   with enterococcous faecalis).
   [**10-31**] Sputum cx, blood cx x2 NGTD, and urine cx. Stool negative for c.
   diff tox A  & B
   [**10-29**] and [**10-30**] Bile cx NGTD, gram stain without organisms or PMNs.
   [**10-28**] Blood cx x2 NGTD
   [**11-1**] Chest X-ray
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who presented to OSH with abdominal pain,
   found to have pancreatitis, and is status-post percutaneous drain for
   possible cholangitis, intubated for increased work of breathing,
   self-extubated yesterday and re-intubated.
   #) Respiratory failure: Yesterday patient failed PS trial, which is not
   unexpected given her moderate pleural effusions and total body
   overloaded volume state. She self-extubated, but required immediate
   re-intubation given low oxygen saturations. She was initially intubated
   on [**10-28**] for increased work of breathing likely secondary to both due to
   discomfort of abdominal distension. At this point volume overload
   appears to be her [**Last Name **] problem, as there have been no infiltrates to
   suggest ARDS.  Currently on AC 450/18/8 with 40% oxygen and doing well,
   appears comfortable. Chest x-rays and CT scan consistent with moderate
   pleural effusions in setting of aggressive IVF resuscitation.
          -      Will hold off on PS trial until further diuresed.
   -          Sedation with versed and fentanyl.
   -          Given massively fluid overloaded state (from necessary IVFs
   for pancreatitis), initiated diuresis, continue today goal negative
   1-1.5 L today, she puts out well to 10 mg IV lasix
   .
   #) Pancreatitis: Suspected to be secondary to high triglycerides,
   alcohol use. Also possible that patient could have passed stone given
   dilated CBD, but none have been seen on imaging. Calcium, renal
   function, UOP, BP all stable.
   - Appreciate surgery consult assistance
no intervention at present.
   - Bolus LR if UOP <50, other hemodynamic instability or worsening
   laboratory functions.
   - CT scan consistent with pancreatitis, no hemorrhage or abscess seen.
   - NPO for bowel rest, no tube feeds per surgery recommendations, TPN
   initiated [**10-29**].
   - Sepsis and ARDS risk remain high, continuing to monitor; lactate has
   been WNL.
   - NG tube in place for decompression.
   - Ideally would refrain from ERCP as her pancreatitis improves, however
   given her edematous gall bladder, without any stones seen, will discuss
   whether ERCP may be of benefit at this time.
   .
   #) Fevers, bacteremia, leukocytosis: Continued fevers since [**Date range (1) 2161**],
   with culture data only revealing for enterococcous.  High risk of
   bacteremia from gut translocation. CT negative for abscess or other
   concerning pathology. Concern also remains for possible cholangitis,
   although this has felt to be less likely. Med effect also possibility
   (new med would be zosyn, versed, fentanyl).
   Today with increasing bands on differential, which is concerning for
   infection, but culture data otherwise unrevealing and fever curve
   improving (Tmax was 100.4 in last 24 hours).
   - Antibiotics currently narrowed to zosyn (zosyn started [**10-25**],
   vancomycin [**Date range (1) 2200**]), since enterococcous was sensitive to ampicillin.
   - Continuing to investigate other potential infection sources (eg lung,
   urine, think about tapping ascites). Holding on paracentesis unless
   fever curve worsens.
   - Following all culture data including c. diff.
   #) EtOH abuse: No longer tachycardic or hypertensive. Considerable
   sedation needs, suspected to be related to EtOH consumption. Continuing
   to monitor for signs of withdrawal given possible history of
   significant consumption. Last known drink was PM of [**10-24**]. Likely that
   LFT abnormalities related as discussed below.
   -          Continuing versed boluses as needed, currently no signs of
   withdrawal.
   -          Folate and thiamine are in TPN, but supplementing as well.
   .
   #) Elevated LFTs: Transaminitis resolved. Initially she had had
   markedly elevated AST (800s at admission) greater than ALT, which was
   consistent with alcoholic hepatitis pattern. Her imaging from the OSH
   demonstrated fatty liver as well. T. Bili and direct bili were elevated
   which was concerning for worsening abdominal process, but they have
   improved. No stones have been seen on imaging.
   - Will continue to trend LFTs, AST/ALT now back to normal.
   - Hepatitis serologies all negative (HCV, HBV sAg/sAb, HAV.
   .
   #) Distended, thickened, gallbladder: Differential is acalculous
   cholecystitis (less likely given drainage from percutaneous tube),
   cholangitis, or secondary to edema and irritation of pancreas in
   surrounding area. No stones noted on imaging completed at OSH per
   report, and percutaneous drain, which was placed out of concern for
   possible cholangitis, revealed only bile. It is possible she passed
   stone given dilated duct noted.
   - Following cx data, NGTD from [**Hospital3 735**].
   - Drain in place for now, further recommendations per surgical team
   - Zosyn for fevers, as noted above, (was started [**10-25**], today is day 8).
   - ERCP team aware of patient
discussed again today and ERCP team
   recommended MRCP to start off with given that patient is improving.
   .
   #) Anemia: Patient
s HCT stable, although today within laboratory
   error. Large degree was likely dilutional from aggressive IVF
   resuscitation. No hemorrhagic component noted on CT.
   - Iron studies, B12, folate, hemolysis, DIC labs all checked.
   - Hct stable
   .
   #) GERD: Continuing IV PPI
   .
   #) FEN: NPO, repleting electrolytes as needed. On TPN.
   .
   #) PPx: On PPI (hx GERD), pneumoboots
   .
   #) Code: Full, confirmed with patient.
   .
   #) Communication: Family (mother and father) is aware of patient
   progress, knows to call anytime with questions. Per patient
s parents,
   updates should be relayed to patient
s father. [**Name (NI) 2051**] [**Name (NI) 251**] ([**Telephone/Fax (1) 2180**].
   ICU Care
   Nutrition:
   TPN without Lipids - [**2162-11-1**] 01:11 AM 62.5 mL/hour
   Glycemic Control:  Sliding scale.
   Lines:
   Multi Lumen - [**2162-10-28**] 07:14 AM
   Arterial Line - [**2162-10-29**] 06:15 PM
   Prophylaxis:
   DVT: Heparin SQ TID
   Stress ulcer: PPI
   VAP:  Chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU

2162-11-02 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2162-11-1**] 04:00 PM
   bedside US of abd done for evaluation for paracentesis
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2162-11-2**] 01:45 AM
   - Surgery recommended paracentesis to evaluate for bile
   peritonitis/bile leak. Bedside u/s did not reveal suitable window to do
   this safely, so radiology waa called and will do procedure via u/s
   guiadance today. Per surgery, drain should be left in if bile is noted.
   - Per ERCP team/surgery, MRCP recommended, was unable to be done
   overnight.
   - Patient self ex-tubated at 1:30 AM, had previously failed pressure
   support trial. Breathing appeared fatigued, oxygen saturations in 90's,
   was re-intubated.
   - 10 mg IV lasix given to further diuresis
   - Given rising band count, initiated empiric treatment for c. difficile
   with flagyl
   - Temperature 100.7
   This morning, patient opens eyes in response to verbal stimuli.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2162-10-31**] 08:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2162-11-2**] 04:22 AM
   Metronidazole - [**2162-11-2**] 04:22 AM
   Infusions:
   Fentanyl - 400 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-11-1**] 11:38 PM
   Furosemide (Lasix) - [**2162-11-2**] 02:48 AM
   Other medications:
   Flagyl 500 mg IV Q8H (day 2), Thiamine 100 mg IV daily, Folic acid 1mg
   IV daily, Insulin sliding scale, artificial tears, albuterol/atrovent
   nebs, Tylenol, chlorhexidine, heparin SQ TID
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2162-11-2**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.8
C (100.1
   HR: 95 (88 - 109) bpm
   BP: 150/80(101) {113/66(83) - 152/90(114)} mmHg
   RR: 18 (13 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 16 (15 - 245)mmHg
   Bladder pressure: 22 (22 - 22) mmHg
   Total In:
                                                                  4,028 mL
                                                                  1,056 mL
   PO:
   TF:
   IVF:
                                                                  2,022 mL
                                                                    620 mL
   Blood products:
   Total out:
                                                                  4,720 mL
                                                                  1,440 mL
   Urine:
                                                                  3,970 mL
                                                                  1,380 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
                                                                    350 mL
                                                                     60 mL
   Balance:
                                                                   -692 mL
                                                                   -382 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 435 (435 - 594) mL
   PS : 0 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 30 cmH2O
   SpO2: 100%
   ABG: 7.42/49/102/30/5
   Ve: 8 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General: Intubated, sedated, in NAD. Opens eyes when name is called.
   [**Name2 (NI) 1824**]: Left IJ in place, c/d/i. No scleral icterus or conjunctival
   pallor.
   Neck: Supple
   Lungs: Decreased BS at bases, few rhonchi and rales at bases,
   transmitted upper airway  noises
   Cardiac: Regular, no m/g/r
   Abdomen: Distended, soft, +BS, percutaneous drain in place
   Extr: Non-pitting edema, warm, no clubbing/cyanosis
   Skin: No lesions noted
   Neuro: Opens eyes, follows commands to squeeze hands and move toes.
   PERRL.
   Labs / Radiology
   329 K/uL
   8.6 g/dL
   142 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.9 mEq/L
   13 mg/dL
   106 mEq/L
   143 mEq/L
   26.0 %
   15.0 K/uL
        [image002.jpg]
                             [**2162-10-31**]  02:58 AM
                             [**2162-10-31**]  06:00 AM
                             [**2162-10-31**]  12:25 PM
                             [**2162-10-31**]  06:36 PM
                             [**2162-10-31**]  11:19 PM
                             [**2162-11-1**]  03:59 AM
                             [**2162-11-1**]  04:32 AM
                             [**2162-11-1**]  10:32 AM
                             [**2162-11-2**]  03:29 AM
                             [**2162-11-2**]  03:41 AM
   WBC
   14.7
   15.8
   15.0
   Hct
   28.4
   26.8
   26.0
   Plt
   230
    158
   270
   329
   Cr
   0.8
   0.7
   0.8
   TCO2
   28
   29
   25
   31
   30
   33
   Glucose
   140
   155
   142
   Other labs: PT / PTT / INR:13.0/28.9/1.1, ALT / AST:41/38, Alk Phos / T
   Bili:142/0.5, Amylase / Lipase:40/97, Differential-Neuts:69.0 %,
   Band:10.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.1
   mmol/L, Albumin:2.5 g/dL, LDH:345 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.7 mg/dL
   [**11-1**] and [**10-31**] Stool: (-) for c. difficile toxin A & B
   [**10-31**] Sputum culture: NGTD
   [**10-31**] Blood culture: NGTD x2
   [**10-30**] Bile culture NGTD
   [**10-28**] Blood culture NGTD x4
   [**10-27**] Blood culture NGTD x1, 1 with enterococcous
   Chest X-ray:
   [**11-2**] ETT in place about 4 cm above the carina
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who presented to OSH with abdominal pain,
   found to have pancreatitis, and is status-post percutaneous drain for
   possible cholangitis, intubated for increased work of breathing,
   self-extubated again overnight and re-intubated for respiratory
   distress.
   #) Respiratory failure: Overnight, patient again failed PS trial (was
   disynchronously breathing), and also again self-extubated despite being
   in restraints. After extubation, she had a good cough, but appeared to
   quickly fatigue, and needed to be re-intubated. She still has moderate
   pleural effusions and total body overloaded volume state. She was
   initially intubated on [**10-28**] for increased work of breathing likely
   secondary to both due to discomfort of abdominal distension. Although
   ARDS has been a concern, she has had no infiltrates on imaging.
          -    Will continue with PS trials as she is diuresed.
   -    Sedation with versed and fentanyl.
   -   Continuing to diurese
   .
   #) Pancreatitis: Suspected to be secondary to high triglycerides,
   alcohol use. Also possible that patient could have passed stone given
   dilated CBD, but none have been seen on imaging. Calcium, renal
   function, UOP, BP all stable.
   - Appreciate surgery consult assistance
no intervention at present.
   - Bolus LR if UOP <50, other hemodynamic instability or worsening
   laboratory functions.
   - CT scan consistent with pancreatitis, no hemorrhage or abscess seen.
   - NPO for bowel rest, no tube feeds per surgery recommendations, TPN
   initiated [**10-29**].
   - Sepsis and ARDS risk remain high, continuing to monitor; lactate has
   been WNL.
   - NG tube in place for decompression.
   - Ideally would refrain from ERCP as her pancreatitis improves, however
   given her edematous gall bladder, without any stones seen, will discuss
   whether ERCP may be of benefit at this time.
   .
   #) Fevers, bacteremia, leukocytosis: Continued fevers since [**Date range (1) 2161**],
   with culture data only revealing for enterococcous.  High risk of
   bacteremia from gut translocation. CT negative for abscess or other
   concerning pathology. Concern also remains for possible cholangitis,
   although this has felt to be less likely. Med effect also possibility
   (new med would be zosyn, versed, fentanyl).
   Today with increasing bands on differential, which is concerning for
   infection, but culture data otherwise unrevealing and fever curve
   improving (Tmax was 100.4 in last 24 hours).
   - Antibiotics currently narrowed to zosyn (zosyn started [**10-25**],
   vancomycin [**Date range (1) 2200**]), since enterococcous was sensitive to ampicillin.
   - Continuing to investigate other potential infection sources (eg lung,
   urine, think about tapping ascites). Holding on paracentesis unless
   fever curve worsens.
   - Following all culture data including c. diff.
   #) EtOH abuse: No longer tachycardic or hypertensive. Considerable
   sedation needs, suspected to be related to EtOH consumption. Continuing
   to monitor for signs of withdrawal given possible history of
   significant consumption. Last known drink was PM of [**10-24**]. Likely that
   LFT abnormalities related as discussed below.
   -          Continuing versed boluses as needed, currently no signs of
   withdrawal.
   -          Folate and thiamine are in TPN, but supplementing as well.
   .
   #) Elevated LFTs: Transaminitis resolved. Initially she had had
   markedly elevated AST (800s at admission) greater than ALT, which was
   consistent with alcoholic hepatitis pattern. Her imaging from the OSH
   demonstrated fatty liver as well. T. Bili and direct bili were elevated
   which was concerning for worsening abdominal process, but they have
   improved. No stones have been seen on imaging.
   - Will continue to trend LFTs, AST/ALT now back to normal.
   - Hepatitis serologies all negative (HCV, HBV sAg/sAb, HAV.
   .
   #) Distended, thickened, gallbladder: Differential is acalculous
   cholecystitis (less likely given drainage from percutaneous tube),
   cholangitis, or secondary to edema and irritation of pancreas in
   surrounding area. No stones noted on imaging completed at OSH per
   report, and percutaneous drain, which was placed out of concern for
   possible cholangitis, revealed only bile. It is possible she passed
   stone given dilated duct noted.
   - Following cx data, NGTD from [**Hospital3 735**].
   - Drain in place for now, further recommendations per surgical team
   - Zosyn for fevers, as noted above, (was started [**10-25**], today is day 8).
   - ERCP team aware of patient
discussed again today and ERCP team
   recommended MRCP to start off with given that patient is improving.
   .
   #) Anemia: Patient
s HCT stable, although today within laboratory
   error. Large degree was likely dilutional from aggressive IVF
   resuscitation. No hemorrhagic component noted on CT.
   - Iron studies, B12, folate, hemolysis, DIC labs all checked.
   - Hct stable
   .
   #) GERD: Continuing IV PPI
   .
   #) FEN: NPO, repleting electrolytes as needed. On TPN.
   .
   #) PPx: On PPI (hx GERD), pneumoboots
   .
   #) Code: Full, confirmed with patient.
   .
   #) Communication: Family (mother and father) is aware of patient
   progress, knows to call anytime with questions. Per patient
s parents,
   updates should be relayed to patient
s father. [**Name (NI) 2051**] [**Name (NI) 251**] ([**Telephone/Fax (1) 2180**].
   ICU Care
   Nutrition:
   TPN without Lipids - [**2162-11-1**] 05:07 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2162-10-28**] 07:14 AM
   Arterial Line - [**2162-10-29**] 06:15 PM
   20 Gauge - [**2162-11-1**] 11:38 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: PPI
   VAP:  Chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU

2162-11-03 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2162-11-2**] 08:33 AM
 PARACENTESIS - At [**2162-11-2**] 08:33 AM
 MAGNETIC RESONANCE IMAGING - At [**2162-11-2**] 02:00 PM
   MRCP
 ARTERIAL LINE - STOP [**2162-11-3**] 03:27 AM
 ARTERIAL LINE - START [**2162-11-3**] 04:40 AM
   Had MRCP which revealed marked gallbladder wall thickening with
   gallbladder wall being more heterogenous than on [**2162-10-25**] study.
   Gallbladder collapsed around cholecystostomy tube. Pericholecystic
   blood noted in region of gallbladder neck and porta hepatis. The
   findings were felt to be secondary to inflammation of the gallbladder
   secondary to pancreatitis. No CBD stone identified. Peripancreatitc
   fluid compatible with acute pancreatitis without necrosis or fluid
   collection.
   - Increased Versed to 20mh/hr, started Methadone per protocol, starting
   to wean fentanyl slowly
   - Surgery felt HIDA not likely to help or change management.
   - U/S abd: no fluid for paracentesis
   - Received a total of 30 mg lasix mg IV with good output
   - D/C'd a-line, nonfunctional --> new R a-line placed
   This morning, patient opens eyes when name called, moves extremities in
   response to command.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2162-10-31**] 08:18 AM
   Metronidazole - [**2162-11-3**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2162-11-3**] 04:00 AM
   Infusions:
   Fentanyl - 349.4 mcg/hour
   Midazolam (Versed) - 16 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-11-2**] 08:00 AM
   Fentanyl - [**2162-11-2**] 01:20 PM
   Cisatracurium - [**2162-11-2**] 02:00 PM
   Midazolam (Versed) - [**2162-11-2**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2162-11-3**] 12:15 AM
   Furosemide (Lasix) - [**2162-11-3**] 06:26 AM
   Other medications:
   Methadone 20 mg IVQ4H, Flagyl 500 mg IVQ8H (day 3), Thiamine, Folic
   acid, Insulin SS, Artificia tears, albuterol/atrovent, Tylenol,
   Chlorhexidine, Heparin SQ TDI, Pantoprazole 40 mg IV,
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2162-11-3**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.8
   HR: 83 (83 - 100) bpm
   BP: 106/62(77) {106/62(77) - 146/86(163)} mmHg
   RR: 20 (15 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  4,233 mL
                                                                  1,329 mL
   PO:
             TF:
   IVF:
                                                                  2,453 mL
                                                                    862 mL
   Blood products:
   Total out:
                                                                  4,420 mL
                                                                  1,860 mL
   Urine:
                                                                  3,850 mL
                                                                  1,260 mL
   NG:
                                                                    430 mL
                                                                    400 mL
   Stool:
   Drains:
                                                                    140 mL
                                                                    200 mL
   Balance:
                                                                   -187 mL
                                                                   -531 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 108 (108 - 108) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 37 cmH2O
   Plateau: 25 cmH2O
   SpO2: 95%
   ABG: 7.40/51/86.[**Numeric Identifier 143**]/31/4 (4:50 AM)
   Ve: 7.5 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General: Intubated, sedated, opens eyes to command, in NAD
   HEENT: NC/AT, ETT in place, no scleral icterus, no conjunctival pallor.
   PERRL.
   Neck: Supple, left IJ in place c/d/i
   Chest: Transmitted upper airway noises, decreased BS at bases.
   Cardiac: Regular rate and rhythm, no m/g/r
   Abd: Distended but soft, +BS, no change in drain appearance
   Extr: Warm, non-pitting edema, restraints and mitts in place
   bilaterally. A-line in place in right radial artery.
   Neuro: Awake, opens eyes when asked,follows commands and moves all
   extremities
   Labs / Radiology
   392 K/uL
   8.4 g/dL
   152 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.0 mEq/L
   13 mg/dL
   104 mEq/L
   142 mEq/L
   24.8 %
   11.9 K/uL
        [image002.jpg]
                             [**2162-10-31**]  06:36 PM
                             [**2162-10-31**]  11:19 PM
                             [**2162-11-1**]  03:59 AM
                             [**2162-11-1**]  04:32 AM
                             [**2162-11-1**]  10:32 AM
                             [**2162-11-2**]  03:29 AM
                             [**2162-11-2**]  03:41 AM
                             [**2162-11-3**]  03:44 AM
                             [**2162-11-3**]  04:56 AM
                             [**2162-11-3**]  04:59 AM
   WBC
   15.8
   15.0
   13.4
   11.9
   Hct
   26.8
   26.0
   26.6
   24.8
   Plt
   [**Telephone/Fax (3) 2251**]92
   Cr
   0.7
   0.8
   0.7
   0.8
   TCO2
   29
   25
   31
   30
   33
   33
   Glucose
   155
   142
   416
   152
   Other labs: PT / PTT / INR:13.0/28.9/1.1, ALT / AST:35/25, Alk Phos / T
   Bili:134/0.5, Amylase / Lipase:39/96, Differential-Neuts:83.0 %,
   Band:1.0 %, Lymph:5.0 %, Mono:5.0 %, Eos:3.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.6 g/dL, LDH:315 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:4.2
   mg/dL
   Culture data: [**10-31**] sputum culture yeast and oropharyngeal flora
rare
   growth. Otherwise no new culture data.
   Chest x-ray: [**11-3**] Persistent right-sided effusion greater than left, no
   other significant change
   [**11-2**] MRCP (Preliminary read):
   Marked gallbladder wall thickening with gallbladder wall being more
   heterogeneous than on the study of [**2162-10-25**]. Gallbladder is collapsed
   around a
   cholecystostomy tube. There is pericholecystic blood in region of
   gallbladder
   neck and porta hepatis. Findings are probably due to inflammation of
   the
   gallbladder secondary to the patient's pancreatitis. No common bile
   duct
   stone is identified. Peripancreatic fluid compatible with acute
   pancreatitis
   without necrosis or fluid collection. New moderate bilateral pleural
   effusions.
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who was transferred from an OSH for
   pancreatitis, gallbladder edema, and elevated LFTs, intubated for
   increased work of breathing.
   #) Respiratory failure: Patient
s RSBI today was 52. She had previously
   failed self-extubation twice, but in setting of significant sedation,
   secretions, and larger pulmonary effusions resulting in fatigue--she
   had a good cough. She was initially intubated on [**10-28**] for increased
   work of breathing likely secondary to both due to discomfort of
   abdominal distension. Although ARDS has been a concern, she continues
   to have no infiltrates on imaging.
          -    Spontaneous breathing trial today
if she does well, will
   consider extubation.
   -    Sedation with versed and fentanyl
currently transitioning to
   methadone per protocol, will consider adding valium tomorrow to
   continue to cut down on versed and fentanyl.
   -   Continuing to diurese
goal 1500cc to 2000cc net negative today,
   responds well to 10-20 mg IV lasix.
   -   Mitts to be placed to help prevent extubation again.
   .
   #) Pancreatitis: Suspected to be secondary to high triglycerides,
   alcohol use. Also possible that patient could have passed stone given
   dilated CBD, but none have been seen on imaging.  CT scan consistent
   with pancreatitis, no hemorrhage or abscess seen. Patient was
   aggressively fluid resuscitated and has been stable as far as her
   pancreatitis is concerned.
   - NPO for bowel rest, no tube feeds per surgery recommendations, TPN
   initiated [**10-29**]. Calling surgery again today to discuss tube feeds given
   recent MRCP results.
   - NG tube in place for decompression
not a significant amount of
   drainage at present.
   - MRCP as noted above, continues to demonstrate findings consistent
   with pancreatitis, no other significant new pathology (no abscess or
   pancreatitic hemorrhage).
   .
   #) Fevers, bacteremia, leukocytosis: Fever to 101 this morning. No new
   culture data. She has had fevers since [**Date range (1) 2161**], with culture data
   only revealing for enterococcous, presumably from gut translocation. CT
   and MRCP negative for abscess or other concerning pathology. Concern
   also had existed for possible cholangitis, although this has felt to be
   less likely. Med effect also possibility (new meds since
   hospitalization would be zosyn, versed, fentanyl).
   Bandemia improved with empiric treatment for c. difficile with flagyl
   started two days ago (WBC down today to 11).
   - Antibiotics currently narrowed to zosyn (zosyn started [**10-25**],
   vancomycin [**Date range (1) 2200**]), since enterococcous was sensitive to ampicillin,
   will plan to complete at least 14 day course (today is day 9).
   - Monitoring culture data, not enough fluid for paracentesis. TTE was
   discussed earlier, and given persistent fevers, will investigate for
   possible endocarditis in setting of one culture positive for
   enterococcous. IJ has been changed since (+) culture, will plan to try
   to place PICC today and d/c CVL. A-line was also re-sited this morning.
   Other consideration would be to check sinuses and consider
   thoracentesis. Will consider stopping Zosyn as well if work-up remains
   negative, as fevers could be secondary to medications or atelectasis as
   well.
   - Following all culture data including c. diff.
started empiric
   treatment on [**11-1**], stool negative x2. Given significant improvement in
   bandemia and leukocytosis, will continue treatment course.
   #) EtOH abuse: No longer tachycardic or hypertensive. Considerable
   sedation needs, suspected to be related to EtOH consumption. Continuing
   to monitor for signs of withdrawal given possible history of
   significant consumption. Last known drink was PM of [**10-24**].
   -          Sedation taper and transition as noted above.
   -          Folate and thiamine are in TPN, but supplementing as well.
   .
   #) Elevated LFTs: Transaminitis resolved. Was likely secondary to
   alcohol use (initial AST >800). Hepatitis serologies all negative (HCV,
   HBV sAg/sAb, HAV). Continuing to monitor trend.
   .
   #) Distended, thickened, gallbladder: Currently, based on imaging,
   appears that her cholecystitis was likely secondary to irritation from
   her pancreatitis. No stones have been seen on imaging at OSH or here.
   At OSH, a percutaneous drain was placed out of concern for possible
   cholangitis, revealed only bile. It is possible she passed stone given
   dilated duct noted.
   Unable to check for bile in ascites as it has resolved, HIDA not felt
   to be helpful.
   - Following cx data, NGTD from [**Hospital3 735**].
   - Drain in place for now, plan is for cholecysectomy in 6 weeks time.
   - Zosyn for fevers, as noted above, (was started [**10-25**], today is day 9).
   - ERCP team aware of patient
will follow up on results of MRCP. Per
   surgery team, HIDA will not change management.
   #) Anemia: Patient
s HCT stable, although today within laboratory
   error. Large degree was likely dilutional from aggressive IVF
   resuscitation. No hemorrhagic component noted on CT.
   - Iron studies, B12, folate, hemolysis, DIC labs all checked.
   - HCT stable
   .
   #) GERD: Continuing IV PPI
   .
   #) FEN: TPN
likely start tube feeds if okay with surgery.
   .
   #) PPx: On PPI (hx GERD), pneumoboots
   .
   #) Code: Full, confirmed with patient.
   .
   #) Communication: Family (mother and father) is aware of patient
   progress, knows to call anytime with questions. Per patient
s parents,
   updates should be relayed to patient
s father. [**Name (NI) 2051**] [**Name (NI) 251**] ([**Telephone/Fax (1) 2180**].
   ICU Care
   Nutrition:
   TPN without Lipids - [**2162-11-3**] 03:50 AM 62.5 mL/hour
   Likely will start tube feeds if okay with surgery.
   Glycemic Control:  Insulin in TPN, sliding scale.
   Lines:
   Multi Lumen - [**2162-10-28**] 07:14 AM
   20 Gauge - [**2162-11-1**] 11:38 PM
   Arterial Line - [**2162-11-3**] 04:40 AM
   * Will try to have PICC placed today (needs central access for TPN,
   needs continued access for sedation, lab draws) and d/c CVL.
   Prophylaxis:
   DVT: Heparin SQ TID
   Stress ulcer: PPI
   VAP:  Head of bed elevated, chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU

2162-11-04 11:10:00 Physician Attending Progress Note
Chief Complaint: Acute pancreatitis and cholecystitis
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2162-11-3**] 02:10 PM
 ARTERIAL LINE - STOP [**2162-11-3**] 04:19 PM
 PICC LINE - START [**2162-11-3**] 06:00 PM
 MULTI LUMEN - STOP [**2162-11-4**] 06:33 AM
 FEVER - 101.3
F - [**2162-11-3**] 12:00 PM
   During PICC line placment, required propofol bolus for sedation.
   Arterial line was displaced and couldn't be replaced.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2162-11-4**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2162-11-4**] 04:52 AM
   Infusions:
   Fentanyl - 325 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2162-11-3**] 01:24 PM
   Pantoprazole (Protonix) - [**2162-11-4**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2162-11-4**] 09:15 AM
   Other medications:
   Versed 16mg/hr
   Methadone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Edema
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2162-11-4**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.6
C (99.7
   HR: 83 (81 - 120) bpm
   BP: 108/67(76) {98/59(68) - 155/95(107)} mmHg
   RR: 20 (20 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,849 mL
                                                                  1,214 mL
   PO:
             TF:
                                                                     26 mL
                                                                    108 mL
   IVF:
                                                                  2,584 mL
                                                                  1,106 mL
   Blood products:
   Total out:
                                                                  5,165 mL
                                                                  1,465 mL
   Urine:
                                                                  4,215 mL
                                                                  1,165 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
                                                                    350 mL
                                                                    300 mL
   Balance:
                                                                 -1,316 mL
                                                                   -251 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: ///30/
   Ve: 9.2 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Bowel sounds present, Obese, percutaneous
   biliary drain site without erythema;
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   442 K/uL
   73 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.4 mEq/L
   14 mg/dL
   104 mEq/L
   142 mEq/L
   24.4 %
   12.2 K/uL
        [image002.jpg]
                             [**2162-10-31**]  11:19 PM
                             [**2162-11-1**]  03:59 AM
                             [**2162-11-1**]  04:32 AM
                             [**2162-11-1**]  10:32 AM
                             [**2162-11-2**]  03:29 AM
                             [**2162-11-2**]  03:41 AM
                             [**2162-11-3**]  03:44 AM
                             [**2162-11-3**]  04:56 AM
                             [**2162-11-3**]  04:59 AM
                             [**2162-11-4**]  03:51 AM
   WBC
   15.8
   15.0
   13.4
   11.9
   12.2
   Hct
   26.8
   26.0
   26.6
   24.8
   24.4
   Plt
   [**Telephone/Fax (3) 2251**]92
   442
   Cr
   0.7
   0.8
   0.7
   0.8
   0.8
   TCO2
   25
   31
   30
   33
   33
   Glucose
   155
   142
   416
   152
   73
   Other labs: PT / PTT / INR:13.0/28.9/1.1, ALT / AST:26/22, Alk Phos / T
   Bili:123/0.4, Amylase / Lipase:39/96, Differential-Neuts:78.0 %,
   Band:0.0 %, Lymph:15.1 %, Mono:4.7 %, Eos:1.9 %, Lactic Acid:1.1
   mmol/L, Albumin:2.4 g/dL, LDH:309 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.3 mg/dL
   Imaging: TTE:  normal biventricular function, trivial MR.
   CXR:  PICC line is too distal.
   Assessment and Plan
   1) Respiratory Failure:  Weaning limited by oversedation.
     -Plan to reattempt lightening sedation and checking RSBI.
   2) Sedation:  Increase methadone in effort to decreased Fentanyl gtt.
   3) Fever:  Continued fevers and mild leukocytosis though bandemia
   improving.  Reculture.
   Continue Zosyn for enterococcemia for now though a drug fever is a
   possibility.  Complete 14d course.
   4) Pancreatitis:
    --continue biliary drainage, eventual plan for ccy.
   5) Fluid status:
     --Continue diuresis with goal of negative 1.5L for today.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2162-11-3**] 09:26 PM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2162-11-1**] 11:38 PM
   PICC Line - [**2162-11-3**] 06:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2162-11-05 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Needed 1 mg haldol for sedation in evening
   - ID: recommended repeat CT ab/pelvis to assess for fluid collection,
   CTA to r/o PE, consideration of thoracentesis, trial of stopping
   antibiotics, and checking HIV viral load.
   - PICC line adjusted again, pulled out 3.5 cm
   - ETT was low, pulled back
   - High residuals on tube feeds, held, then re-started
   - Overnight awoke at 2 AM, very agitated and restless, mouthing words.
   Afterwards was very appropriate, nodding and shaking head to questions.
   This morning responding to commands, denies pain. Expresses
   understanding of plan to wean sedation, breathing trial, and possible
   extubation today.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2162-11-5**] 04:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2162-11-5**] 04:03 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-11-4**] 08:00 AM
   Furosemide (Lasix) - [**2162-11-4**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2162-11-5**] 12:15 AM
   Other medications:
   Methadone 20 mg IV Q4H, Flagyl 500  mg IV Q8H (day 5), Thiamine 100 mg,
   Folic acid 1mg, Insulin SS, Artificial tears, Albuterol, Tylenol,
   Chlorhexidine, Heparin SQ, Pantoprazole 40 mg IV
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2162-11-5**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.6
   HR: 78 (73 - 104) bpm
   BP: 97/58(67) {94/55(64) - 124/86(91)} mmHg
   RR: 20 (19 - 20) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,985 mL
                                                                    730 mL
   PO:
             TF:
                                                                    819 mL
                                                                     77 mL
   IVF:
                                                                  2,166 mL
                                                                    653 mL
   Blood products:
   Total out:
                                                                  4,275 mL
                                                                    730 mL
   Urine:
                                                                  3,825 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
                                                                    450 mL
   Balance:
                                                                 -1,290 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   SpO2: 93%
   ABG: ///31/
   Ve: 8.7 L/min
   Physical Examination
   General: Sedated, intubated, opens eyes when name called, and moves all
   extremities when requested
   HEENT: NC/AT. MMM. No scleral icterus
   Neck: Mildly erythematous area surrounding prior tape placement of left
   IJ site, no change.
   Cardiac: RRR, no m/g/r
   Lungs: Decreased BS at bases, transmitted upper airway noises with some
   rhonchi
   Abd: Distented, +BS, nontender
   Extr: Warm, no clubbing or cyanosis, non-pitting edema
   Neuro: PERRL, moves all extremities when requested
   Skin: No new lesions. Percutaneous drain in place over abdomen.
   Labs / Radiology
   492 K/uL
   8.1 g/dL
   71 mg/dL
   1.1 mg/dL
   31 mEq/L
   4.0 mEq/L
   14 mg/dL
   103 mEq/L
   142 mEq/L
   24.0 %
   10.3 K/uL
        [image002.jpg]
                             [**2162-11-1**]  03:59 AM
                             [**2162-11-1**]  04:32 AM
                             [**2162-11-1**]  10:32 AM
                             [**2162-11-2**]  03:29 AM
                             [**2162-11-2**]  03:41 AM
                             [**2162-11-3**]  03:44 AM
                             [**2162-11-3**]  04:56 AM
                             [**2162-11-3**]  04:59 AM
                             [**2162-11-4**]  03:51 AM
                             [**2162-11-5**]  02:40 AM
   WBC
   15.8
   15.0
   13.4
   11.9
   12.2
   10.3
   Hct
   26.8
   26.0
   26.6
   24.8
   24.4
   24.0
   Plt
   [**Telephone/Fax (3) 2251**]92
   442
   492
   Cr
   0.7
   0.8
   0.7
   0.8
   0.8
   1.1
   TCO2
   31
   30
   33
   33
   Glucose
   155
   142
   416
   152
   73
   71
   Other labs: PT / PTT / INR:14.4/30.5/1.3, ALT / AST:24/25, Alk Phos / T
   Bili:147/0.5, Amylase / Lipase:36/84, Differential-Neuts:73.0 %,
   Band:1.0 %, Lymph:12.0 %, Mono:8.0 %, Eos:4.0 %, Lactic Acid:1.1
   mmol/L, Albumin:2.6 g/dL, LDH:310 IU/L, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL,
   PO4:6.1 mg/dL
   No new culture data
   CXR: [**11-5**] final read pending
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who was transferred from an OSH for
   pancreatitis, gallbladder edema, and elevated LFTs, intubated for
   increased work of breathing, currently improving but with challenging
   sedation needs.
   #) Respiratory failure: Will continue to work on sponatenous breathing
   trial
today patient was too sedated (after episode of agitation and
   trying to get out of bed) to continue taking adequate tital volumes, so
   he was switched over to pressure support. Will again try breathing
   trial and aim to extubate today if possible. It is possible that her
   abdominal distension and pleural effusions are making weaning
   difficult.
   .
   She was initially intubated on [**10-28**] for increased work of breathing
   likely secondary to both due to discomfort of abdominal distension.
   Although ARDS has been a concern, she continues to have no infiltrates
   on imaging.
          -     Sedation with versed and fentanyl
levels of sedation have
   dramatically decreased, and will space out methadone dosing to Q6H, and
   add on valium 10 mg IV TID to wean levels of other medications, as
   valium will self-taper.
   -   Continuing to diurese
will be less aggressive given small bump in
   creatinine, responds well to 10-20 mg IV lasix (HCO2 also slightly up
   which is likely contraction alkalosis)
   -   Mitts to remain in place to help prevent extubation again.
   .
   #) Pancreatitis: Stable, no pain. Suspected to be secondary to high
   triglycerides, alcohol use. Also possible that patient could have
   passed stone given dilated CBD, but none have been seen on imaging.  CT
   scan consistent with pancreatitis, no hemorrhage or abscess seen.
   Patient was aggressively fluid resuscitated and has been stable as far
   as her pancreatitis is concerned.
   - Continuing tube feeds.
   .
   #) Fevers, bacteremia, leukocytosis: No change in fever curve. No new
   culture data. She has had fevers since [**Date range (1) 2161**], with culture data
   only revealing for enterococcous, presumably from gut translocation. CT
   and MRCP negative for abscess or other concerning pathology.
   Bandemia and WBC appear to have improved since initiation of flagyl.
   - Antibiotics currently: zosyn (zosyn started [**10-25**], vancomycin
   [**Date range (1) 2200**]), since enterococcous was sensitive to ampicillin, will plan
   to complete at least 14 day course (today is day 12) from time of (+)
   blood cultures ([**10-27**]).
   - Appreciate ID recommendations. All lines have been changed,
   ultrasound revealed there was not enough fluid for a paracentesis. Will
   come to conclusion regarding thoracentesis, additional imaging today.
   - Following all culture data including c. diff.
started empiric
   treatment on [**11-1**], stool negative x2. Given significant improvement in
   bandemia and leukocytosis, will continue treatment course of 14 days
   (today is day 5).
   - ID consult to be requested today to help evaluated persistent fevers
   and other appropriate work up or changing antibiotics. Appreciate
   assistance.
   #) EtOH abuse: Last known drink was PM of [**10-24**].
   -          Sedation taper and transition as noted above.
   -          Folate and thiamine are in TPN, but supplementing as well.
   .
   #) Distended, thickened, gallbladder: Currently, based on imaging,
   appears that her cholecystitis was likely secondary to irritation from
   her pancreatitis. No stones have been seen on imaging at OSH or here.
   At OSH, a percutaneous drain was placed out of concern for possible
   cholangitis, revealed only bile. It is possible she passed stone given
   dilated duct noted.
   Unable to check for bile in ascites as it has resolved, HIDA not felt
   to be helpful.
   - Drain in place for now, plan is for cholecysectomy in 6 weeks time.
   - Zosyn for fevers, as noted above, (was started [**10-25**], today is day
   12), continuing to monitor culture data.
   - MRCP as noted above.
   #) Anemia: Patient
s HCT stable. No hemorrhagic component noted on CT.
   - Iron studies, B12, folate, hemolysis, DIC labs all checked.
   - HCT stable, continuing to follow trend
   .
   #) GERD: Continuing IV PPI
   .
   #) FEN: Tube feeds.
   .
   #) PPx: On PPI (hx GERD), pneumoboots
   .
   #) Code: Full, confirmed with patient.
   .
   #) Communication: Family (mother and father) is aware of patient
   progress, knows to call anytime with questions. Per patient
s parents,
   updates should be relayed to patient
s father. [**Name (NI) 2051**] [**Name (NI) 251**] ([**Telephone/Fax (1) 2180**].
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2162-11-4**] 05:08 PM 10 mL/hour
   Glycemic Control:  Insulin SS
   Lines:
   20 Gauge - [**2162-11-1**] 11:38 PM
   PICC Line - [**2162-11-3**] 06:00 PM
   Prophylaxis:
   DVT: Heparin SQ TID
   Stress ulcer: PPI
   VAP:  Chlorhexidine, Head of bed elevated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2162-11-06 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Failed SBT [**3-6**] apnea, likely related to sedation
   - Was on MMV but inadequate Vt or RR so back on AC
   - After MMV, sats lower, required increased PEEP
   - ID recs: Finish zosyn/flagyl course, if [**Month/Day (2) 1445**] consider antifungal
   - Changed methadone to q6h, valium 10mg IV q8
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2162-11-6**] 04:00 AM
   Metronidazole - [**2162-11-6**] 04:17 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 14 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2162-11-5**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2162-11-6**] 12:00 AM
   Fentanyl - [**2162-11-6**] 12:16 AM
   Haloperidol (Haldol) - [**2162-11-6**] 12:17 AM
   Diazepam (Valium) - [**2162-11-6**] 04:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-11-6**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.8
   HR: 122 (77 - 122) bpm
   BP: 119/89(97) {88/52(62) - 119/89(97)} mmHg
   RR: 25 (6 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,099 mL
                                                                    546 mL
   PO:
             TF:
                                                                    129 mL
   IVF:
                                                                  1,970 mL
                                                                    546 mL
   Blood products:
   Total out:
                                                                  2,445 mL
                                                                    880 mL
   Urine:
                                                                  2,095 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
                                                                    350 mL
                                                                    100 mL
   Balance:
                                                                   -346 mL
                                                                   -334 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 410 (410 - 567) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, Agitated
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 94%
   ABG: 7.41/47/82.[**Numeric Identifier 143**]/29/3
   Ve: 9.9 L/min
   PaO2 / FiO2: 166
   Physical Examination
   Gen: [**Numeric Identifier 883**], opens eyes, intubated
   HEENT: PERRL
   Lungs: Coarse BS bilaterally
   Heart: s1s2 rrr
   Abd: obese, soft, mildy distended
   Ext: + peripheral edema
   Neuro: [**Last Name (LF) 883**], [**First Name3 (LF) **], following commands
   Labs / Radiology
   551 K/uL
   7.9 g/dL
   80 mg/dL
   1.1 mg/dL
   29 mEq/L
   4.1 mEq/L
   13 mg/dL
   104 mEq/L
   142 mEq/L
   23.1 %
   12.6 K/uL
        [image002.jpg]
                             [**2162-11-2**]  03:29 AM
                             [**2162-11-2**]  03:41 AM
                             [**2162-11-3**]  03:44 AM
                             [**2162-11-3**]  04:56 AM
                             [**2162-11-3**]  04:59 AM
                             [**2162-11-4**]  03:51 AM
                             [**2162-11-5**]  02:40 AM
                             [**2162-11-5**]  06:34 PM
                             [**2162-11-6**]  01:27 AM
                             [**2162-11-6**]  04:03 AM
   WBC
   15.0
   13.4
   11.9
   12.2
   10.3
   12.6
   Hct
   26.0
   26.6
   24.8
   24.4
   24.0
   23.1
   Plt
   329
   248
   392
   [**Telephone/Fax (3) 2358**]
   Cr
   0.8
   0.7
   0.8
   0.8
   1.1
   1.1
   TCO2
   33
   33
   33
   31
   Glucose
   142
   416
   152
   73
   71
   80
   Other labs: PT / PTT / INR:14.9/31.8/1.3, ALT / AST:21/23, Alk Phos / T
   Bili:178/0.5, Amylase / Lipase:34/80, Differential-Neuts:77.9 %,
   Band:1.0 %, Lymph:16.1 %, Mono:3.5 %, Eos:2.2 %, Lactic Acid:0.9
   mmol/L, Albumin:2.7 g/dL, LDH:276 IU/L, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL,
   PO4:4.6 mg/dL
   MICRO DATA: No new culture data
   CXR [**11-6**]: Bilateral pleural effusions
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who was transferred from an OSH for
   pancreatitis, gallbladder edema, and elevated LFTs, intubated for
   increased work of breathing, currently improving but with challenging
   sedation needs.
   #) Respiratory failure: Will continue to work on sponatenous breathing
   trial again today. It is possible that her abdominal distension and
   pleural effusions are making weaning difficult, but likely sedation is
   the major factor.
   .
   She was initially intubated on [**10-28**] for increased work of breathing
   likely secondary to both due to discomfort of abdominal distension.
   Although ARDS has been a concern, she continues to have no infiltrates
   on imaging.
          -     Sedation with versed and fentanyl
levels of sedation have
   dramatically decreased, and will space out methadone dosing to Q6H, and
   add on valium 10 mg IV TID to wean levels of other medications, as
   valium will self-taper.
   -   Continuing to diurese
will be less aggressive given small bump in
   creatinine, responds well to 10-20 mg IV lasix (HCO2 also slightly up
   which is likely contraction alkalosis)
   -   Mitts to remain in place to help prevent premature extubation
   again.
   .
   #) Pancreatitis: Stable, no pain. Suspected to be secondary to high
   triglycerides, alcohol use. Also possible that patient could have
   passed stone given dilated CBD, but none have been seen on imaging.  CT
   scan consistent with pancreatitis, no hemorrhage or abscess seen.
   Patient was aggressively fluid resuscitated and has been stable as far
   as her pancreatitis is concerned.
   - Continuing tube feeds.
   .
   #) Fevers, bacteremia, leukocytosis: No change in fever curve. No new
   culture data. She has had fevers since [**Date range (1) 2161**], with culture data
   only revealing for enterococcous, presumably from gut translocation. CT
   and MRCP negative for abscess or other concerning pathology.
   Bandemia and WBC appear to have improved since initiation of flagyl.
   - Antibiotics currently: zosyn (zosyn started [**10-25**], vancomycin
   [**Date range (1) 2200**]), since enterococcous was sensitive to ampicillin, will plan
   to complete at least 14 day course (today is day 13) from time of (+)
   blood cultures ([**10-27**]).
   - Appreciate ID recommendations. All lines have been changed,
   ultrasound revealed there was not enough fluid for a paracentesis. Held
   off on [**Female First Name (un) 217**] or additional imaging at present. If pt [**Last Name (LF) 1445**], [**First Name3 (LF) **]
   consider adding antifungal coverage as per ID recs.
   - Following all culture data including c. diff.
started empiric
   treatment on [**11-1**], stool negative x2. Given significant improvement in
   bandemia and leukocytosis, will continue treatment course of 14 days
   (today is day 5).
   #) EtOH abuse: Last known drink was PM of [**10-24**].
   -          Sedation taper and transition as noted above.
   -          Folate and thiamine are in TPN, but supplementing as well.
   .
   #) Distended, thickened, gallbladder: Currently, based on imaging,
   appears that her cholecystitis was likely secondary to irritation from
   her pancreatitis. No stones have been seen on imaging at OSH or here.
   At OSH, a percutaneous drain was placed out of concern for possible
   cholangitis, revealed only bile. It is possible she passed stone given
   dilated duct noted.
   Unable to check for bile in ascites as it has resolved, HIDA not felt
   to be helpful.
   - Drain in place for now, plan is for cholecysectomy in 6 weeks.
   - Zosyn for fevers, as noted above, (was started [**10-25**], today is day
   12), continuing to monitor culture data.
   - MRCP as noted above.
   #) Anemia: Patient
s HCT stable. No hemorrhagic component noted on CT.
   - Iron studies, B12, folate, hemolysis, DIC labs all checked.
   - HCT stable, continuing to follow trend
   .
   #) GERD: Continuing IV PPI
   .
   #) FEN: Tube feeds.
   .
   #) PPx: On PPI (hx GERD), pneumoboots
   .
   #) Code: Full, confirmed with patient.
   .
   #) Communication: Family (mother and father) is aware of patient
   progress, knows to call anytime with questions. Per patient
s parents,
   updates should be relayed to patient
s father. [**Name (NI) 2051**] [**Name (NI) 251**] ([**Telephone/Fax (1) 2180**].
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2162-11-4**] 05:08 PM 10 mL/hour
   Glycemic Control:  Insulin SS
   Lines:
   20 Gauge - [**2162-11-1**] 11:38 PM
   PICC Line - [**2162-11-3**] 06:00 PM
   Prophylaxis:
   DVT: Heparin SQ TID
   Stress ulcer: PPI
   VAP:  Chlorhexidine, Head of bed elevated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2162-11-07 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2162-11-7**] 05:00 AM
   - ABG obtained on pressure support [**9-10**] was 7.37/51/87, which did not
   fully correlate with VBG obtained at the same time: 3.30/60/52
   - Fentanyl weaned from 150 -> 120 -> 96, versed weaned 14 ->11 -> 9
   - NIF: -38
   This morning, awakes when name is called. Shakes head
 when asked
   if in pain. Moves extremities on command appropriately. Family expected
   to be in to visit this morning. Denies abdominal pain or difficulty
   breathing. Nods understanding of plan for breathing trial, extubation
   soon.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2162-11-6**] 08:30 PM
   Metronidazole - [**2162-11-6**] 09:00 PM
   Infusions:
   Fentanyl - 96 mcg/hour
   Midazolam (Versed) - 9 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-11-6**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2162-11-6**] 06:00 PM
   Haloperidol (Haldol) - [**2162-11-7**] 03:30 AM
   Diazepam (Valium) - [**2162-11-7**] 06:00 AM
   Other medications:
   Tylenol PRN, Valium 10 mg IV Q8H, Methadone 20 mg IV Q6H, Haloperidol 1
   mg IV Q4H PRN, Flagyl 500 mg IV TID (day 7), Thiamine, Folic acid,
   Insulin SS, Artificial tears, albuterol, chlorhexidine, heparin SQ TID.
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2162-11-7**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 93 (78 - 120) bpm
   BP: 129/79(91) {106/62(73) - 136/86(95)} mmHg
   RR: 17 (7 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,073 mL
                                                                    291 mL
   PO:
             TF:
                                                                    211 mL
                                                                     27 mL
   IVF:
                                                                  1,761 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                  3,180 mL
                                                                  1,035 mL
   Urine:
                                                                  2,780 mL
                                                                    915 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
                                                                    100 mL
                                                                    120 mL
   Balance:
                                                                 -1,107 mL
                                                                   -744 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 691 (258 - 1,003) mL
   PS : 8 cmH2O
   RR (Set): 8
   RR (Spontaneous): 11
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 39
   PIP: 17 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: 7.37/51/86.[**Numeric Identifier 143**]/28/2
   NIF: -38 cmH2O
   Ve: 7.2 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General: Intubated, sedated, opens eyes when requested.
   HEENT: No scleral icterus. MMM.
   Neck: Flat JVP, prior right IJ site without erythema, mild erythema at
   surrounding area where tape formerly in place improving
   Lungs: Decreased BS at bases, no wheezing, transmitted upper airway
   rhonchi
   Cardiac: RRR, S1, S2, no rubs or gallops
   Abd: Slightly less distended, +BS, non-tender
   Extr: Warm, pneumoboots in place, non-pitting edema to ankles, no
   cyanosis or clubbing. Mitts in place.
   Skin: No new lesions, percutaneous drain in place. Improving erythema
   over prior tape from right IJ, slight erythema over PICC site, no
   flucutance or warmth.
   Neuro: Awakens when name called, PERRL, moves all extremities on
   command
   Labs / Radiology
   599 K/uL
   7.6 g/dL
   74 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.8 mEq/L
   10 mg/dL
   105 mEq/L
   143 mEq/L
   22.6 %
   13.2 K/uL
        [image002.jpg]
                             [**2162-11-3**]  03:44 AM
                             [**2162-11-3**]  04:56 AM
                             [**2162-11-3**]  04:59 AM
                             [**2162-11-4**]  03:51 AM
                             [**2162-11-5**]  02:40 AM
                             [**2162-11-5**]  06:34 PM
                             [**2162-11-6**]  01:27 AM
                             [**2162-11-6**]  04:03 AM
                             [**2162-11-6**]  02:17 PM
                             [**2162-11-7**]  04:38 AM
   WBC
   13.4
   11.9
   12.2
   10.3
   12.6
   13.2
   Hct
   26.6
   24.8
   24.4
   24.0
   23.1
   22.6
   Plt
   [**Telephone/Fax (3) 2385**]92
   551
   599
   Cr
   0.7
   0.8
   0.8
   1.1
   1.1
   1.0
   TCO2
   33
   33
   31
   31
   Glucose
   [**Telephone/Fax (2) 2386**]
   80
   74
   Other labs: PT / PTT / INR:14.9/31.8/1.3, ALT / AST:21/26, Alk Phos / T
   Bili:197/0.4, Amylase / Lipase:34/80, Differential-Neuts:77.9 %,
   Band:1.0 %, Lymph:16.1 %, Mono:3.5 %, Eos:2.2 %, Lactic Acid:0.9
   mmol/L, Albumin:2.7 g/dL, LDH:316 IU/L, Ca++:8.5 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.8 mg/dL
   Culture data: No new (+) culture data, blood cultures pending x2 [**11-7**],
   central line tip [**11-4**] NGTD
   Imaging:
   Chest x-ray from [**11-7**] final read pending, bilateral pleural effusions
   and low lung volumes noted, no significant change from yesterday.
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who was transferred from an OSH for
   pancreatitis, gallbladder edema, and elevated LFTs, intubated for
   increased work of breathing, currently weaning sedation in preparation
   of extubation, with continued fevers.
   #) Respiratory failure: Will continue to work on spontaneous breathing
   trial again today. It is possible that her abdominal distension and
   pleural effusions are making weaning difficult, but likely that
   sedation continues to be the major factor. Significant progress has
   been made over last 24 hours in weaning her sedation down, and she
   continues to do well on MMV with adequate minute ventilation (5-6L).
   - Continue weaning sedation
will use haldol and possibly persodex to
   avoid agents that suppress her respiratory rate, and further taper down
   versed (to 7) and fentanyl (85).
   - SBT today, possible extubation if she does well on 0/5.
   - Continuing to diurese as tolerated by renal function (stable at 1.0
   today), goal 1000 cc to 1500 cc negative today.
   .
   #) Pancreatitis: Stable, no pain. Suspected to be secondary to high
   triglycerides, alcohol use. Also possible that patient could have
   passed stone given dilated CBD, but none have been seen on imaging.  CT
   scan consistent with pancreatitis, no hemorrhage or abscess seen.
   Patient was aggressively fluid resuscitated and has been stable as far
   as pancreatitis is concerned.
   - Holding tube feeds in preparation of possible extubation.
   .
   #) Fevers, bacteremia, leukocytosis: No change in fever curve. No new
   culture data. She has had fevers since [**Date range (1) 2161**], with culture data
   only revealing for enterococcous, presumably from gut translocation. CT
   and MRCP negative for abscess or other concerning pathology. TTE
   negative for abscess or vegetation. All lines have been changed or
   pulled. Abdominal ultrasound revealed there was not enough fluid for a
   paracentesis.
   Bandemia appeared to have improved since initiation of flagyl.
   - Antibiotics currently: zosyn (zosyn started [**10-25**], vancomycin
   [**Date range (1) 2200**]), since enterococcous was sensitive to ampicillin, will plan
   to complete at least 14 day course (today is day 14, however only day
   12 since (+) blood cultures on [**10-27**]), will discuss possibly stopping to
   see if fever curve changes.
   - Appreciate ID recommendations. Held off on thoracentesis or
   additional imaging at present.  Will discuss today possibly adding
   antifungal coverage as per ID recs.
   - Following all culture data including c. diff.
started empiric
   treatment on [**11-1**], stool negative x2. Given initial significant
   improvement in bandemia and leukocytosis, will continue treatment
   course of 14 days (today is day 7).
   - Checking differential today given rising WBC
   - Will discuss other work-up, such as scanning sinuses (eg NG tube in
   place) today.
   - Rising platelet count (599 up from 100
s-200
s) could also be
   suggestive of infection (can also be seen with iron deficiency, but her
   iron studies were more consistent with anemia of chronic disease).
   #) EtOH abuse: Last known drink was PM of [**10-24**].
   -          Sedation taper and transition as noted above.
   -          Folate and thiamine supplementation.
   .
   #) Distended, thickened, gallbladder: No change in management. Based on
   imaging, appears that her cholecystitis was likely secondary to
   irritation from her pancreatitis. No stones have been seen on imaging
   at OSH or here. At OSH, a percutaneous drain was placed out of concern
   for possible cholangitis, revealed only bile. It is possible she passed
   stone given dilated duct noted. Unable to check for bile in ascites as
   it has resolved, HIDA not felt to be helpful.
   - Drain in place for now, plan is for cholecysectomy in 6 weeks.
   #) Anemia: Today patient
s HCT trended down slightly, from 23.1 to
   22.6. No evidence of bleeding currently, and she has not had any
   evidence of a hemorrhagic component of her pancreatitis noted on CT
   previously. Phlebotomy is likely playing at least a small role as well.
   - Iron studies, B12, folate, hemolysis, DIC labs all checked, iron
   studies consistent with anemia of chronic disease, B12/folate WNL.
   - HCT stable, continuing to follow trend.
   - Given slow decline (as opposed to acute), will hold off on additional
   imaging of abdomen, but consider if continues to decline.
   .
   #) GERD: Change to PO PPI (no evidence of bleeding).
   .
   #) FEN: Tube feeds on hold for possible extubation.
   .
   #) PPx: On PPI (hx GERD), pneumoboots
   .
   #) Code: Full, confirmed with patient.
   .
   #) Communication: Family (mother and father) to visit today, will plan
   to update them on progress. Per patient
s parents, updates should be
   relayed to patient
s father. [**Name (NI) 2051**] [**Name (NI) 251**] ([**Telephone/Fax (1) 2017**].
   ICU Care
   Nutrition:
   Tube feeds on hold for possible extubation
   Glycemic Control:   Insulin sliding scale as needed
   Lines:
   PICC Line - [**2162-11-3**] 06:00 PM
   Prophylaxis:
   DVT: Heparin SQ TID
   Stress ulcer: PPI
   VAP:  Chlorhexidine, head of bed elevated
   Comments:
   Communication:  Comments: Family to visit today
   Code status: Full code
   Disposition:

2162-11-08 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2162-11-8**] 12:03 AM
 FEVER - 101.6
F - [**2162-11-8**] 12:00 AM
   - Tolerated 0/5 SBT for two hours, ABG after two hours 7.36/53/74/31.
   Deferred extubation due to elevated CO2 and changed back over to [**6-7**].
   - Lactulose started for constipation
   - [**Month/Day (1) 2423**] started for sedation, valium stopped. Titrated down versed
   and fentanyl further.
   - Zosyn stopped
   - Spiked fever to 101.4, pan cultured.
   - Lasix 10 mg IV for additional diuresis
   This morning, patient awake, alert, nodding and shaking head
   appropriately to questions. Sponatenous breathing trial was attempted,
   however patient noted to be hypoxic with oxygen saturation of 88%.
   Patient appeared to be working hard to [**Last Name (LF) 2424**], [**First Name3 (LF) **] changed over to
   pressure support.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2162-11-7**] 12:44 PM
   Metronidazole - [**2162-11-8**] 04:16 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-11-7**] 08:00 AM
   Haloperidol (Haldol) - [**2162-11-7**] 02:25 PM
   Heparin Sodium (Prophylaxis) - [**2162-11-7**] 06:00 PM
   Other medications:
   Miconazole powder, Lactulose TID PRN, Lansoprazole 30 mg, Tylenol PRN,
   Methadone 20 mg IV Q6H, Haldol 1 mg Q4H PRN, Flagyl 500 mg IV Q8H (day
   8), Thiamine, Folic acid, Insulin sliding scale, Artificial tears,
   Albuterol, Chlorhexidine, Heparin SQ TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-11-8**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.3
C (101
   HR: 101 (84 - 114) bpm
   BP: 136/83(137) {108/69(58) - 144/89(137)} mmHg
   RR: 15 (8 - 26) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  1,408 mL
                                                                    369 mL
   PO:
             TF:
                                                                     27 mL
   IVF:
                                                                  1,321 mL
                                                                    369 mL
   Blood products:
   Total out:
                                                                  3,375 mL
                                                                  1,330 mL
   Urine:
                                                                  3,255 mL
                                                                    980 mL
   NG:
   100 mL
   Stool:
   Drains:
                                                                    120 mL
                                                                    250 mL
   Balance:
                                                                 -1,967 mL
                                                                   -961 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 527 (507 - 795) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 12
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.36/53/74/26/2
   Ve: 11.4 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General: Intubated, awake, nodding and shaking head appropriately,
   appears to be working harder to [**Year (4 digits) 2424**] with more accessory muscle use
   HEENT: NC/AT. No scleral icterus. MMM
   Neck: Supple, no change in erythema over left shoulder
   Lungs: Decreased BS at bases, occasional rhonchi, no wheezes
   Cardiac: Regular, no m/g/r
   Abd: Distended, no significant change, +BS, percutaneous drain in place
   Extr: warm, no rashes or lesions
   Neuro: Nods and shakes head appropriately, PERRL
   Labs / Radiology
   622 K/uL
   7.9 g/dL
   70 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.0 mEq/L
   9 mg/dL
   104 mEq/L
   142 mEq/L
   23.8 %
   13.9 K/uL
        [image002.jpg]
                             [**2162-11-4**]  03:51 AM
                             [**2162-11-5**]  02:40 AM
                             [**2162-11-5**]  06:34 PM
                             [**2162-11-6**]  01:27 AM
                             [**2162-11-6**]  04:03 AM
                             [**2162-11-6**]  02:17 PM
                             [**2162-11-7**]  04:38 AM
                             [**2162-11-7**]  11:23 AM
                             [**2162-11-7**]  12:45 PM
                             [**2162-11-8**]  02:28 AM
   WBC
   12.2
   10.3
   12.6
   13.2
   13.9
   Hct
   24.4
   24.0
   23.1
   22.6
   23.8
   Plt
   [**Telephone/Fax (3) 2417**]99
   622
   Cr
   0.8
   1.1
   1.1
   1.0
   0.9
   TCO2
   33
   31
   31
   33
   31
   Glucose
   73
   71
   80
   74
   70
   Other labs: PT / PTT / INR:14.9/31.8/1.3, ALT / AST:22/26, Alk Phos / T
   Bili:188/0.4, Amylase / Lipase:31/55, Differential-Neuts:72.0 %,
   Band:0.0 %, Lymph:14.0 %, Mono:12.0 %, Eos:0.0 %, Lactic Acid:0.9
   mmol/L, Albumin:3.1 g/dL, LDH:426 IU/L, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.8 mg/dL
   [**11-7**] Sputum culture: gram stain >25 PMNs, 1+ Gram negative rods
   10/5 Blood culture: NGTD x4
   [**11-7**] Urine culture: NGTD
   Otherwise no new (+) culture data
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who was transferred from an OSH for
   pancreatitis, gallbladder edema, and elevated LFTs, intubated for
   increased work of breathing, who unfortunately did not tolerate a
   breathing trial this morning, and with continued fevers.
   #) Respiratory failure: Unfortunately patient did not tolerate
   breathing trial this morning, and sedation did not appear to be a
   factor. At this time, need to start thinking about tracheostomy to wean
   patient from ventilator if unable to find an intervenable reason for
   failure to wean (eg pneumonia or significant effusion not seen well on
   chest x-ray).
   - Patient was on [**Month/Day (1) **], however now approaching 24 hours on
   [**Last Name (LF) **], [**First Name3 (LF) **] will need to switch back to versed and fentanyl (at lower
   doses) and use haldol as well for agitation. Will titrate down
   methadone from Q6H to Q8H.
   - Will image chest with CTA to rule out PE given hypoxia, look for
   pneumonia, evidence of loculated effusions or significant effusions
   that might be beneficial to drain.
   - Will consult IP tomorrow to discuss trach (possibly PEG) if no
   obvious new abnormalities seen on chest CT
   - Will be less aggressive with regards to diuresis given dye load with
   CTA.
   .
   #) Pancreatitis: Stable, no pain. Suspected to be secondary to high
   triglycerides, alcohol use. Also possible that patient could have
   passed stone given dilated CBD, but none have been seen on imaging.  CT
   scan consistent with pancreatitis, no hemorrhage or abscess seen.
   Patient was aggressively fluid resuscitated and has been stable as far
   as pancreatitis is concerned.
   -          Given persistent fevers and fact that patient is now two
   weeks out from pancreatitis, will re-image abdomen while patient is
   getting chest CT to evaluate for potential source of infection.
   -          Continuing tube feeds.
   .
   #) Fevers, bacteremia, leukocytosis: Persistent fevers overnight. No
   new culture data. She has had fevers since [**Date range (1) 2161**], with culture data
   only revealing for enterococcous, presumably from gut translocation. CT
   and MRCP negative for abscess or other concerning pathology. TTE
   negative for abscess or vegetation. All lines have been changed or
   pulled. Abdominal ultrasound revealed there was not enough fluid for a
   paracentesis. Bandemia appeared to have improved since initiation of
   flagyl.
   - Completed 14 day course of zosyn ([**Date range (1) 2425**]) which covered
   entercoccous in one blood
   - Appreciate ID recommendations. Obtaining CT chest to look for
   loculated effusion, will consider thoracentesis. Will also scan sinuses
   while patient is down in CT scan, as this could be source of persistent
   fevers.
   - Following all culture data including c. diff.
started empiric
   treatment on [**11-1**], stool negative x2. Given initial significant
   improvement in bandemia and leukocytosis, will continue treatment
   course of 14 days (today is day 8).
   - Rising platelet count (above 600 now, up from 100
s-200
s) could also
   be suggestive of infection or acute phase reactant (can also be seen
   with iron deficiency, but her iron studies were more consistent with
   anemia of chronic disease).
   #) EtOH abuse: Last known drink was PM of [**10-24**].
   -          Sedation taper and transition as noted above.
   -          Folate and thiamine supplementation.
   .
   #) Distended, thickened, gallbladder: No change in management. Based on
   imaging, appears that her cholecystitis was likely secondary to
   irritation from her pancreatitis. No stones have been seen on imaging
   at OSH or here. At OSH, a percutaneous drain was placed out of concern
   for possible cholangitis, revealed only bile. It is possible she passed
   stone given dilated duct noted. Unable to check for bile in ascites as
   it has resolved, HIDA not felt to be helpful.
   -          Drain in place for now, plan is for cholecysectomy in 6
   weeks.
   -          CT abdomen today
   #) Anemia: Stable. No evidence of bleeding currently, and she has not
   had any evidence of a hemorrhagic component of her pancreatitis noted
   on CT previously. Phlebotomy is likely playing at least a small role as
   well.
   - Iron studies, B12, folate, hemolysis, DIC labs all checked, iron
   studies consistent with anemia of chronic disease, B12/folate WNL.
   - HCT stable, continuing to follow trend.
   - Given slow decline (as opposed to acute), will hold off on additional
   imaging of abdomen, but consider if continues to decline.
   .
   #) GERD: Change to PO PPI (no evidence of bleeding).
   .
   #) FEN: Resuming tube feeds
   .
   #) PPx: On PPI (hx GERD), pneumoboots
   .
   #) Code: Full, confirmed with patient.
   .
   #) Communication: Family (mother and father) to visited yesterday were
   updated on progress. Per patient
s parents, updates should be relayed
   to patient
s father. [**Name (NI) 2051**] [**Name (NI) 251**] ([**Telephone/Fax (1) 2017**]. [**Name2 (NI) 133**] try to arrange
   family meeting for tomorrow.
   ICU Care
   Nutrition:
   Tube feeds, Lactulose given constipation
   Glycemic Control:
   Lines:
   PICC Line - [**2162-11-3**] 06:00 PM
   Prophylaxis:
   DVT: Heparin SQ TID
   Stress ulcer: PPI
   VAP:  Head of bed elevated, chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2162-11-09 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2162-11-8**] 06:58 PM
 FEVER - 102.4
F - [**2162-11-8**] 04:00 PM
   - Sputum culture from [**11-8**]: Notable for gram negative rods
   - Spiked temperature to 102.4 at 4 PM
   - Fungal culture, beta glucan/galactomannan sent
   - Antibiotics: Vancomycin, Zosyn, and Cipro added, flagyl continued
   - Patient pulled out her percutaneous drain --> surgery aware, will
   follow, not replacing at present, will let us know role for any
   additional imaging
   - Had to restart versed/fentanyl, d/c'd valium, still on methadone
   - Restarted TF
   - CT head: moderate sinus disease, partial opacificcation L max sinus,
   mild mucosal thickening of R maxillary, ethmoidal, sphenoid, frontal
   sinus
   - CT chest: No PE, opacity R lung apex, question of PNA, bilateral
   pleural effusions, no acute changes, abscess, or hemorrhage in abdomen
   - Placed back on AC because with sedation patient not taking good
   breaths on PS
   - Became agitated overnight, went back up on Versed/Fentanyl -->
   anticipate patient will need tracheostomy
   Patient opens eyes, nods and shakes head in response to questions.
   Squeezes hands and moves feet when requested.
   Allergies:
   Codeine
   Unknown
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2162-11-7**] 12:44 PM
   Vancomycin - [**2162-11-8**] 08:13 PM
   Ciprofloxacin - [**2162-11-9**] 12:06 AM
   Metronidazole - [**2162-11-9**] 04:00 AM
   Piperacillin - [**2162-11-9**] 06:12 AM
   Infusions:
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 14 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2162-11-8**] 08:00 AM
   Haloperidol (Haldol) - [**2162-11-8**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2162-11-9**] 06:28 AM
   Other medications:
   Miconazole powder, Lactulose, Lansoprazole, Tylenol, Methadone 20 mg IV
   Q6H, Haldol 1 mg Q4H PRN, Thiamine, Folic acid, Insulin SS, Artificial
   tears, Albuterol, Chlorhexidine, Heparin SQ TID
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2162-11-9**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 37.2
C (99
   HR: 85 (76 - 122) bpm
   BP: 112/66(76) {100/39(65) - 136/84(96)} mmHg
   RR: 14 (8 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,897 mL
                                                                    962 mL
   PO:
             TF:
                                                                    190 mL
                                                                    147 mL
   IVF:
                                                                  1,687 mL
                                                                    815 mL
   Blood products:
   Total out:
                                                                  2,455 mL
                                                                    540 mL
   Urine:
                                                                  2,105 mL
                                                                    540 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
                                                                    250 mL
   Balance:
                                                                    442 mL
                                                                    422 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 689 (438 - 798) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 5
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 15 cmH2O
   Plateau: 23 cmH2O
   SpO2: 95%
   ABG: ///30/
   Ve: 5.8 L/min
   Physical Examination
   General: Intubated, sedated, opens eyes on command
   HEENT: NC, no scleral icterus or conjunctival pallor
   Neck: Supple, continued mild erythema over former site of tape from
   right IJ
   Lungs: Decreased BS at bases, occasional rhonchi and wheezes, good
   airmovement bilaterally
   Cardiac: Regular, no murmurs, gallops, rubs
   Abd: Distended, soft, +BS, drain site with suture material present,
   subcutaneous nodule appreciated overlying heparin administration site,
   abdomen overall unchanged from yesterday
   Extr: Warm, no lesions, PICC site unchanged, mild non-pitting edema
   Skin: Mild erythema over PICC site, no new lesions
   Neuro: Opens eyes to command, squeezes hands and moves feet when
   requested
   Labs / Radiology
   620 K/uL
   7.5 g/dL
   78 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.3 mEq/L
   7 mg/dL
   102 mEq/L
   140 mEq/L
   22.6          %
   11.8              K/uL
        [image002.jpg]
                             [**2162-11-5**]  02:40 AM
                             [**2162-11-5**]  06:34 PM
                             [**2162-11-6**]  01:27 AM
                             [**2162-11-6**]  04:03 AM
                             [**2162-11-6**]  02:17 PM
                             [**2162-11-7**]  04:38 AM
                             [**2162-11-7**]  11:23 AM
                             [**2162-11-7**]  12:45 PM
                             [**2162-11-8**]  02:28 AM
                             [**2162-11-9**]  04:58 AM
   WBC
   10.3
   12.6
   13.2
   13.9
   Hct
   24.0
   23.1
   22.6
   23.8
   Plt
   492
   551
   599
   622
   Cr
   1.1
   1.1
   1.0
   0.9
   0.8
   TCO2
   33
   31
   31
   33
   31
   Glucose
   71
   80
   74
   70
   78
   Other labs: PT / PTT / INR:16.2/33.4/1.5, ALT / AST:17/17, Alk Phos / T
   Bili:160/0.4, Amylase / Lipase:26/42, Differential-Neuts:72.0 %,
   Band:0.0 %, Lymph:14.0 %, Mono:12.0 %, Eos:0.0 %, Lactic Acid:0.9
   mmol/L, Albumin:2.9 g/dL, LDH:288 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.3 mg/dL
   Imaging:
   [**11-8**] CT Sinuses: (Preliminary disease)
   Moderate sinus disease, with partial opacification of the left
   maxillary
   sinus, and mild mucosal thickening of the right maxillary, ethmoidal,
   sphenoid, and left frontal sinuses.
   [**11-8**] CTA, Abdomen:
   1. No evidence of PE.
   2. Airspace opacities right lung apex, concerning for focal area of
   pneumonia.
   3. Moderate bilateral pleural effusions, with adjacent atelectasis of
   the
   lung. However, superimposed pneumonia cannot be excluded.
   4. Continued inflammatory changes surrounding the pancreas, compatible
   with
   pancreatitis.
   5. Moderate gallbladder irregularity, with wall irregularity,
   pericholecystic
   fluid, with a pigtail catheter in place. These findings likely reflect
   continued inflammatory changes from adjacent pancreatitis.
   [**11-9**] Chest x-ray read pending
   Culture data:
   [**11-9**] Blood culture, Fungal myco blood culture NGTD
   [**11-8**] Stool c. difficile A and B toxin negative
   [**11-8**] Blood culture NGTD
   [**11-8**] Sputum culture NGTD, gram stain with >25 PMN and 1+ GNR
   [**11-8**] Urine culture NGTD
   [**11-7**] Sputum culture NGTD, gram stain with >25 PMN and 1+ GNR
   10/5 Blood culture NGTD x4
   [**11-7**] Urine culture NGTD
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who was transferred from an OSH for
   pancreatitis, gallbladder edema, and elevated LFTs, intubated for
   increased work of breathing, who has had persistent fevers and
   difficulty weaning from ventilator.
   #) Respiratory failure: Over the weekend, patient did not do well with
   breathing trials, and in fact needed additional PEEP support. Imaging
   was completed yesterday to rule out PE or look for other reversible
   causes of hypoxia or inability to wean. At this time, need to start
   thinking about tracheostomy to wean patient from ventilator, and family
   will be in today for meeting to further discuss.
   - Currently patient is back on assist-control, appears comfortable,
   will plan to check ABG today
   - Patient responded well to haldol earlier today, and given concerns of
   possible confusion (and possibly ICU psychosis with her agitation), she
   may respond better to haldol
initiating TID standing Haldol with
   additional PRN dosing, will aim to wean versed and fentanyl in this
   setting. Checking EKG today to ensure QTc is okay with haldol use.
   - Will discuss with family and IP service tracheostomy today
   - Diuresis goal about 1 liter net negative today
   .
   #) Pancreatitis: Stable, no pain. Suspected to be secondary to high
   triglycerides, alcohol use. Also possible that patient could have
   passed stone given dilated CBD, but none have been seen on imaging.  CT
   scan consistent with pancreatitis, no hemorrhage or abscess seen.
   Patient was aggressively fluid resuscitated and has been stable as far
   as pancreatitis is concerned.
   -          No complications (hemorrhage, abscess, pseudocyst) noted on
   CT of abdomen from yesterday.
   -          Continuing tube feeds.
   .
   #) Fevers, bacteremia, leukocytosis: Persistent fevers overnight,
   higher to 102. She has had fevers since [**Date range (1) 2161**], with culture data
   only revealing for enterococcous, presumably from gut translocation. CT
   and MRCP negative for abscess or other concerning pathology. TTE
   negative for abscess or vegetation. All lines have been changed or
   pulled. Abdominal ultrasound revealed there was not enough fluid for a
   paracentesis. Bandemia appeared to have improved since initiation of
   flagyl. She has completed 14 day course of zosyn ([**Date range (1) 2425**]) which
   covered entercoccous in one blood
   - Given appearance on chest CT and fevers, yesterday cipro, zosyn, and
   vanco added (today is day 2) to flagyl
   - Appreciate ID recommendations
   - Following all culture data including c. diff.
started empiric
   treatment on [**11-1**], stool negative x2. Given initial significant
   improvement in bandemia and leukocytosis, will continue treatment
   course of 14 days (today is day 10).
   - Rising platelet count (today stable at 620, up from 100
s-200
   could also be suggestive of infection or acute phase reactant (can also
   be seen with iron deficiency, but her iron studies were more consistent
   with anemia of chronic disease).
   - Will follow up final read of CT sinuses, which suggested moderate
   disease. Vancomycin will provide additional gram positive coverage,
   while cipro will provide additional gram negative.
   - If continues to [**Last Name (LF) **], [**First Name3 (LF) **] consider empiric anti-fungal coverage.
   #) EtOH abuse: Last known drink was PM of [**10-24**].
   -          Sedation taper and transition as noted above.
   -          Folate and thiamine supplementation.
   .
   #) Distended, thickened, gallbladder: No change in management. Based on
   imaging, appears that her cholecystitis was likely secondary to
   irritation from her pancreatitis. No stones have been seen on imaging
   at OSH or here. At OSH, a percutaneous drain was placed out of concern
   for possible cholangitis, revealed only bile. It is possible she passed
   stone given dilated duct noted. Patient pulled out percutaneous drain
   overnight, and surgery aware and will follow, no acute interventions
   felt necessary overnight. Read of repeat CT abdomen as noted above.
   - Appreciate surgery assistance, will continue to follow abdominal
   examination, repeat imaging per surgery recommendations (since imaging
   was prior to removal of tube).
   #) Anemia: Stable. No evidence of bleeding currently, and she has not
   had any evidence of a hemorrhagic component of her pancreatitis noted
   on CT previously. Phlebotomy is likely playing at least a small role as
   well. No evidence of hemorrhage on repeat imaging study.
   - Iron studies, B12, folate, hemolysis, DIC labs all checked, iron
   studies consistent with anemia of chronic disease, B12/folate WNL.
   - HCT stable, continuing to follow trend.
   .
   #) GERD: Change to PO PPI (no evidence of bleeding).
   .
   #) FEN: Resuming tube feeds
   .
   #) PPx: On PPI (hx GERD), pneumoboots
   .
   #) Code: Full, confirmed with patient.
   .
   #) Communication: Family (mother and father) will be in today for
   meeting to discuss progress, further treatment. Mom [**Name (NI) 251**] ([**Telephone/Fax (1) 2180**]. Will try to arrange family meeting for tomorrow.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2162-11-8**] 11:30 AM 20 mL/hour
   Glycemic Control:  Insulin SS PRN
   Lines:
   PICC Line - [**2162-11-3**] 06:00 PM
   20 Gauge - [**2162-11-8**] 05:00 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: PPI
   VAP:  Head of bed elevation, chlrohexidine
   Comments:
   Communication:  Comments: Meeting today.
   Code status: Full code
   Disposition: ICU

2162-11-10 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family meeting: mother and father updated regarding progress, agreed
   to pursue trach and peg
   - Started haldol 1 mg IV TID standing.
   - IP will do trach and PEG today or tomorrow
   - Surgery: flet PEG was okay, however would like additional KUB to
   evaluate for any end of percutaneous chole tube that could still be in
   place (GOLD [**Numeric Identifier 2489**])
   - 10 IV lasix x1 at 8pm again at 4am.
   - Cipro added back after blood cultures notable for gram negative rods.
   This morning, patient nods and shakes head appropriately for commands.
   Moves all extremities on request. Appears comfortable.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2162-11-7**] 12:44 PM
   Vancomycin - [**2162-11-9**] 10:30 PM
   Metronidazole - [**2162-11-10**] 04:01 AM
   Piperacillin - [**2162-11-10**] 05:55 AM
   Ciprofloxacin - [**2162-11-10**] 06:24 AM
   Infusions:
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 14 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-11-9**] 10:07 PM
   Furosemide (Lasix) - [**2162-11-10**] 04:00 AM
   Other medications:
   Haldol 1 mg TID, Haldol 1-2 mg Q4H PRN, Cipro 400 mg IV daily,
   Vancomycin 1000 mg Q12H, Zosyn 4.5 mg Q8H, Miconazole, Lactulose,
   Lansoprazole 30 mg, Tylenol PRN, Methadone 20 mg IV Q6H, Flagyl 500 mg
   IV Q8H, Thiamine, Folic Acid, Artificial tears, Albuterol,
   Chlorhexidine, Heparin SQ
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-11-10**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 90 (83 - 102) bpm
   BP: 99/61(68) {93/55(65) - 116/90(115)} mmHg
   RR: 15 (10 - 16) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,368 mL
                                                                    862 mL
   PO:
             TF:
                                                                    480 mL
                                                                      4 mL
   IVF:
                                                                  2,708 mL
                                                                    858 mL
   Blood products:
   Total out:
                                                                  2,190 mL
                                                                  1,210 mL
   Urine:
                                                                  2,190 mL
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,178 mL
                                                                   -348 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 94%
   ABG: ///31/
   Ve: 6.1 L/min
   Physical Examination
   General: Sedated, intuabed, in NAD, opens eyes to command
   HEENT: NC/AT. No scleral icterus, MMM.
   Neck: Supple
   Lungs: Decreased BS at bases, no wheezes or rhonchi.
   Cardiac: Regular, no m/g/r
   Abd: Distended but soft, +BS, hemostat holding suture material in place
   from prior percutaneous chole drain
   Extr: Warm, no significant edema
   Neuro: Responds to commands appropriately, CNs sym
   Labs / Radiology
   556 K/uL
   7.6 g/dL
   84 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.4 mEq/L
   5 mg/dL
   101 mEq/L
   140 mEq/L
   22.6 %
   10.3 K/uL
        [image002.jpg]
                             [**2162-11-5**]  06:34 PM
                             [**2162-11-6**]  01:27 AM
                             [**2162-11-6**]  04:03 AM
                             [**2162-11-6**]  02:17 PM
                             [**2162-11-7**]  04:38 AM
                             [**2162-11-7**]  11:23 AM
                             [**2162-11-7**]  12:45 PM
                             [**2162-11-8**]  02:28 AM
                             [**2162-11-9**]  04:58 AM
                             [**2162-11-10**]  02:51 AM
   WBC
   12.6
   13.2
   13.9
   11.8
   10.3
   Hct
   23.1
   22.6
   23.8
   22.6
   22.6
   Plt
   [**Telephone/Fax (3) 2490**]20
   556
   Cr
   1.1
   1.0
   0.9
   0.8
   0.8
   TCO2
   33
   31
   31
   33
   31
   Glucose
   80
   74
   70
   78
   84
   Other labs: PT / PTT / INR:17.3(16.2)/31.7(33.4)/1.6 (1.5), ALT /
   AST:17 (17)/18 (17), Alk Phos / T Bili:174 (160)/0.4 (0.4), Amylase /
   Lipase:26 (26)/44 (42), Differential-Neuts:70.5 %, Band:0.0 %,
   Lymph:19.3 %, Mono:3.5 %, Eos:6.4 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.8 g/dL, LDH:260 (288) IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.6 mg/dL
   3 AM VBG: 7.36/58/39/34
   Laboraotry Data:
   [**11-9**] Blood culture: Gram negative rods x1, other culture NGTD
   Otherwise no new culture data
   Imaging:
   [**11-10**] Chest X-ray pending, appears more fluid overloaded that prior
   [**11-9**] KUB pending, no evidence of residual drain noted
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who was transferred from an OSH for
   pancreatitis, gallbladder edema, and elevated LFTs, intubated for
   increased work of breathing, who has had persistent fevers and
   difficulty weaning from ventilator, with gram negative bacteremia and
   resolution of fevers in last 24 hours.
   #) Respiratory failure: Patient had not done well with breathing
   trials, and actually was hypoxic. Imaging was completed to rule out PE
   or look for other reversible causes of hypoxia or inability to wean.
   Yesterday family agreed to pursue trachestomy to help improve ability
   to wean patient and lessen sedation.
   - Currently patient is back on assist-control, appears comfortable,
   will leave on current settings until tracheostomy
   - Haldol TID standing, PRN for sedation, and will continue to wean
   versed and fentanyl
   - IP to place tracheostomy today or tomorrow, and PEG
   - Diuresis goal about [**2-3**] liter net negative today (especially given
   CXR appearance)
   .
   #) Pancreatitis: Stable, no pain. Suspected to be secondary to high
   triglycerides, alcohol use. Also possible that patient could have
   passed stone given dilated CBD, but none have been seen on imaging.  CT
   scan consistent with pancreatitis, no hemorrhage or abscess seen.
   Patient was aggressively fluid resuscitated and has been stable as far
   as pancreatitis is concerned.
   -          No complications (hemorrhage, abscess, pseudocyst) noted on
   CT of abdomen from this week.
   -          Continuing tube feeds.
   .
   #) Fevers, bacteremia, leukocytosis:
   Afebrile overnight!
   She has had fevers since [**Date range (1) 2161**]. Imaging of abdomen had no revealed
   an abscess or other reason for fever. TTE negative for abscess or
   vegetation. Lines have been changed. Abdominal ultrasound revealed
   there was not enough fluid for a paracentesis last week. Bandemia
   appeared to have improved since initiation of flagyl. She has completed
   14 day course of zosyn ([**Date range (1) 2425**]) which covered entercoccous in one
   blood culture.
   Overnight, culture data notable for gram negative rods in blood
   culture.
   - Appreciate ID recommendations
   - Following all culture data including c. diff.
started empiric
   treatment on [**11-1**], stool negative x2. Given initial significant
   improvement in bandemia and leukocytosis, will continue treatment
   course of 14 days (today is day 11).
   - Fevers, leukocytosis, platelet count have all improved on cipro, and
   given gram negatives in sputum and blood, sputum this is likely reason
   for fever (VAP, also could be from gut translocation). Will continue
   cipro (day 3), discuss changing zosyn to other gram negative coverage
   given fevers while on zosyn. Will likely stop vancomycin.
   .
   #) EtOH abuse: Last known drink was PM of [**10-24**].
   -          Sedation taper and transition as noted above.
   -          Folate and thiamine supplementation.
   .
   #) Distended, thickened, gallbladder: No change in management. Based on
   imaging, appears that her cholecystitis was likely secondary to
   irritation from her pancreatitis. No stones have been seen on imaging
   at OSH or here. At OSH, a percutaneous drain was placed out of concern
   for possible cholangitis, revealed only bile. It is possible she passed
   stone given dilated duct noted. Patient pulled out percutaneous drain
   overnight, and surgery aware and will follow, no acute interventions
   felt necessary overnight. Read of repeat CT abdomen as noted above.
   - Appreciate surgery assistance, will continue to follow abdominal
   examination, repeat imaging per surgery recommendations (will discuss
   with IR if surgery cannot rule out retained part of percutaneous drain.
   #) Anemia: Stable. No evidence of bleeding currently, and she has not
   had any evidence of a hemorrhagic component of her pancreatitis noted
   on CT previously. Phlebotomy is likely playing at least a small role as
   well. No evidence of hemorrhage on repeat imaging study.
   - Iron studies, B12, folate, hemolysis, DIC labs all checked, iron
   studies consistent with anemia of chronic disease, B12/folate WNL.
   - HCT stable, continuing to follow trend.
   .
   #) Elevated INR: Patient
s INR has been slowly trended upward, suspect
   likely secondary to nutritional deficiencies given that patient was
   NPO, then only on TPN.
   Patient received vitamin K, will re-check in AM, transfuse FFPs if
   remains about 1.5 prior to tracheosomty. Low suspicion for DIC, but
   checking labs.
   .
   #) GERD: Change to PO PPI (no evidence of bleeding).
   .
   #) FEN: Holding tube feeds at midnight for trach
   .
   #) PPx: On PPI (hx GERD), pneumoboots
   .
   #) Code: Full, confirmed with patient.
   .
   #) Communication: Family (mother and father) will be in today for
   meeting to discuss progress, further treatment. Mom [**Name (NI) 251**] ([**Telephone/Fax (1) 2180**]. Will try to arrange family meeting for tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2162-11-3**] 06:00 PM
   20 Gauge - [**2162-11-8**] 05:00 PM
   Prophylaxis:
   DVT: Heparin SQ TID
   Stress ulcer: PPI
   VAP:  Chlorhexidine, head of bed elevated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2162-11-11 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2162-11-11**] 04:06 AM
 FEVER - 101.3
F - [**2162-11-11**] 04:00 AM
   - Blood cultures: Gram positive cocci in addition to known gram
   negative rods, added back vancomycin, also gram variable rods (not
   anthrax, per microbiology lab)
   - Switched zosyn to meropenam given klebseilla in sputum
   - Pushed in ETT 3 cm based on AM CXR
   - Lasix 10 mg IV x3 overnight for diuresis
   - Spiked temperature to 101
   - [**Year (4 digits) 2539**] without evidence of retained foreign object from percutaneous
   cholecystotomy tube
   Patient opens eyes, nods head when asked, moves extremities when asked.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2162-11-10**] 05:55 AM
   Piperacillin/Tazobactam (Zosyn) - [**2162-11-10**] 02:00 PM
   Vancomycin - [**2162-11-10**] 11:07 PM
   Metronidazole - [**2162-11-11**] 05:00 AM
   Ciprofloxacin - [**2162-11-11**] 06:31 AM
   Meropenem - [**2162-11-11**] 07:35 AM
   Infusions:
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 14 mg/hour
   Methadone Hydrochloride - 40 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-11-10**] 10:07 PM
   Furosemide (Lasix) - [**2162-11-11**] 06:57 AM
   Haloperidol (Haldol) - [**2162-11-11**] 07:35 AM
   Lansoprazole (Prevacid) - [**2162-11-11**] 07:49 AM
   Other medications:
   Haldol 1 mg TID, [**2-3**] Q4H PRN, Ciprofloxacin 400 mg IV daily, Lactulose
   TID, Miconazole powder, Tylenol, Methadone 20 mg Q8H IV, Meropenem 500
   mg IV Q6H, Lansoprazole, Tylenol, Flagyl 500 mg IV Q8H, Thiamine, Folic
   Acid, Artificial tears, Albuterol, Chlorhexidine, Heparin SQ TID
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2162-11-11**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.1
C (100.6
   HR: 94 (86 - 117) bpm
   BP: 102/56(65) {95/47(57) - 114/69(80)} mmHg
   RR: 15 (14 - 17) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,325 mL
                                                                  1,050 mL
   PO:
             TF:
                                                                    172 mL
   IVF:
                                                                  3,103 mL
                                                                  1,020 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                  1,225 mL
   Urine:
                                                                  2,850 mL
                                                                  1,145 mL
   NG:
   80 mL
   Stool:
   Drains:
   Balance:
                                                                    475 mL
                                                                   -175 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   SpO2: 93%
   ABG: ///29/
   Ve: 6.9 L/min
   Physical Examination
   General: Intubated, sedated, NAD
   Lungs: Decreased BS at bases, no wheezes
   Cardiac: RRR, no m/g/r
   Abd: Soft, distended, hemostat in place anchoring suture material, +BS
   Extr: Warm, pneumoboots in place
   Neuro: Opens eyes on command, moves extremities when asked
   Labs / Radiology
   553 K/uL
   7.4 g/dL
   87 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.7 mEq/L
   3 mg/dL
   104 mEq/L
   140 mEq/L
   23.1 %
   10.0 K/uL
        [image002.jpg]
                             [**2162-11-6**]  01:27 AM
                             [**2162-11-6**]  04:03 AM
                             [**2162-11-6**]  02:17 PM
                             [**2162-11-7**]  04:38 AM
                             [**2162-11-7**]  11:23 AM
                             [**2162-11-7**]  12:45 PM
                             [**2162-11-8**]  02:28 AM
                             [**2162-11-9**]  04:58 AM
                             [**2162-11-10**]  02:51 AM
                             [**2162-11-11**]  03:33 AM
   WBC
   12.6
   13.2
   13.9
   11.8
   10.3
   10.0
   Hct
   23.1
   22.6
   23.8
   22.6
   22.6
   23.1
   Plt
   [**Telephone/Fax (3) 2530**]
   Cr
   1.1
   1.0
   0.9
   0.8
   0.8
   0.8
   TCO2
   31
   31
   33
   31
   Glucose
   80
   74
   70
   78
   84
   87
   Other labs: PT / PTT / INR:16.0/32.4/1.4, ALT / AST:15/16, Alk Phos / T
   Bili:161/0.3, Amylase / Lipase:26/44, Differential-Neuts:70.5 %,
   Band:0.0 %, Lymph:19.3 %, Mono:3.5 %, Eos:6.4 %, Fibrinogen:669 mg/dL,
   Lactic Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:233 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Culture data:
   Blood cultures 10/7: Bacillus (gram variable rods), gram positive
   cocci, [**11-8**] gram positive cocci
Sputum [**11-8**], [**11-7**]: Klebseilla
([**11-8**])
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CEFUROXIME------------     4 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO----- =>128 R
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
Imaging:
[**11-10**] [**Month/Day (4) 2539**] IMPRESSION: No evidence of retained foreign body.
[**11-11**] Chest X-ray final read pending
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who was transferred from an OSH for
   pancreatitis, gallbladder edema, and elevated LFTs, intubated for
   increased work of breathing, who has had persistent fevers and
   difficulty weaning from ventilator, with blood cultures notable for
   gram positive cocci and gram variable rods.
   #) Respiratory failure: Given difficulty weaning from ventilator,
   patient to go for tracheostomy today.
   - Haldol TID standing, PRN for sedation, after tracheostomy will
   attempt to wean down sedation
   - Continue to work on diuresis goal about 500cc-1000cc (patient is LOS
   about 1 L positive, however expect that much of the fluid has
   redistributed and she has lost significant muscle mass)
   - Ventilator-associated pneumonia treatment as noted below.
   .
   #) Fevers, bacteremia, leukocytosis:
   Patient with fevers overnight to 101-102. New culture data as noted
   above.
   She has had fevers since [**Date range (1) 2161**]. Imaging of abdomen had no revealed
   an abscess or other reason for fever. TTE negative for abscess or
   vegetation. Lines have been changed. Abdominal ultrasound revealed
   there was not enough fluid for a paracentesis last week. Bandemia
   appeared to have improved since initiation of flagyl. She has completed
   14 day course of zosyn ([**Date range (1) 2425**]) which covered entercoccous in one
   blood culture.
   Imaging has been consistent with ventilator-associated pneumonia,
   especially given klebseilla in sputum
   - Appreciate ID recommendations
   - Following all culture data including c. diff.
started empiric
   treatment on [**11-1**], stool negative x3. Given initial significant
   improvement in bandemia and leukocytosis, will continue treatment
   course of 14 days (today is day 12).
   - Given sensitivities above, will continue cipro (day 4), meropenem
   (day 2) for VAP. Will continue vancomycin for gram positive blood
   cultures (although may be able to narrow based on ID recommendations).
   - Will aim to d/c PICC line today, place peripherals for at least next
   24 hours.
   - Will likely pursue thoracentesis of right side given persistent
   effusion and VAP, for both diagnostic purposes and possible therapeutic
   purposes (to help wean from vent)
   .
   #) EtOH abuse: Last known drink was PM of [**10-24**].
   -          Sedation taper and transition as noted above.
   -          Folate and thiamine supplementation.
   .
   #) Distended, thickened, gallbladder: No change in management. Based on
   imaging, appears that her cholecystitis was likely secondary to
   irritation from her pancreatitis. No stones have been seen on imaging
   at OSH or here. At OSH, a percutaneous drain was placed out of concern
   for possible cholangitis, revealed only bile. It is possible she passed
   stone given dilated duct noted. Patient pulled out percutaneous drain
   overnight, and surgery aware and will follow, no acute interventions
   felt necessary overnight. Read of repeat CT abdomen as noted above.
   - No evidence of retained object on [**Last Name (LF) 2539**], [**First Name3 (LF) **] need to discuss further
   with surgery removal of suture material as this continues to serve as
   portal of infection.
   #) Anemia: Stable. No evidence of bleeding currently, and she has not
   had any evidence of a hemorrhagic component of her pancreatitis noted
   on CT previously. Phlebotomy is likely playing at least a small role as
   well. No evidence of hemorrhage on repeat imaging study.
   - Iron studies, B12, folate, hemolysis, DIC labs all checked, iron
   studies consistent with anemia of chronic disease, B12/folate WNL.
   - HCT stable, continuing to follow trend.
   .
   #) Elevated INR: Stable, patient
s INR had slowly trended upward,
   suspect likely secondary to nutritional deficiencies given that patient
   was NPO, then only on TPN.
   .
   #) GERD: PO PPI
   .
   #) FEN: Tube
   feeds
   .
   #) PPx: On PPI (hx GERD), pneumoboots
   .
   #) Code: Full, confirmed with patient.
   .
   #) Communication: Family (mother and father), mom [**Name (NI) 251**] ([**Telephone/Fax (1) 2180**].
   ICU Care
   Nutrition:
   Tube feeds
   Glycemic Control:  Insulin SS as needed
   Lines:
   PICC Line - [**2162-11-3**] 06:00 PM
   * Will aim to place additional peripheral today and pull PICC given
   bacteremia
   Prophylaxis:
   DVT: Heparin SQ TID
   Stress ulcer:  PPI
   VAP:  Chlorhexidine, Head of bed elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2162-11-12 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Diuresed with 10 lasix
   - Peripheral IVs placed, PICC pulled and tip sent for culture
   - Ultrasound of chest: insufficient fluid for paracentesis
   - Family updated via phone
   - CT of abdomen and pelvis completed (concern for abscess given new
   Bacillus in blood culture) --> no abscess, heterogenous gall bladder
   similar to prior, mild amount of pelvic fluid (simple in appearance),
   no evidence of foreign body
   - While in radiology lost all 3 peripheral IVs, dye contrast
   extravasation into left forearm --> Plastics was consulted and
   recommended: splint, warm compresses, elevation, and plastics team will
   follow
   - IV nurse placed 2 peripheral IVs in Right arm
   This morning patient reports she has no pain (shakes
 when asked).
   Moves all extremities when asked. Indicates her arm is uncomfortable.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2162-11-10**] 05:55 AM
   Piperacillin/Tazobactam (Zosyn) - [**2162-11-10**] 02:00 PM
   Vancomycin - [**2162-11-12**] 12:00 AM
   Meropenem - [**2162-11-12**] 02:30 AM
   Metronidazole - [**2162-11-12**] 06:00 AM
   Ciprofloxacin - [**2162-11-12**] 06:17 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 175 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2162-11-11**] 07:49 AM
   Heparin Sodium (Prophylaxis) - [**2162-11-11**] 02:00 PM
   Haloperidol (Haldol) - [**2162-11-11**] 02:00 PM
   Furosemide (Lasix) - [**2162-11-11**] 04:30 PM
   Other medications:
   Methadone 20 mg IV Q8H, Haldol 1-2 mg Q4H IV PRN, Miconazole,
   Lactulose, Lansoprazole, Tylenol, Thiamine, Folic acid, Artificial
   tears, Albuterol, Chlorhexidine, Heparin SQ TID
   Antibiotics: Vancomycin 1000 mg Q12H, Meropenem 500 mg IV Q6H,
   Ciprofloxacin 400 mg IV Q12H, Flagyl 500 mg IV Q8H,
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2162-11-12**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.4
C (99.4
   HR: 80 (80 - 97) bpm
   BP: 99/55(65) {75/48(58) - 120/75(85)} mmHg
   RR: 14 (14 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,421 mL
                                                                  1,090 mL
   PO:
                                                                    690 mL
             TF:
                                                                     97 mL
                                                                     87 mL
   IVF:
                                                                  2,604 mL
                                                                  1,003 mL
   Blood products:
   Total out:
                                                                  2,835 mL
                                                                  1,500 mL
   Urine:
                                                                  2,755 mL
                                                                  1,200 mL
   NG:
                                                                     80 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                    586 mL
                                                                   -410 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   VBG: 7.44/47/76/33 (venous, at 3:55 AM)
   Ve: 7.3 L/min
   Physical Examination
   General: Awake, looking around room at people, in NAD, nods and shakes
   head appropriately
   HEENT: NC/AT. Slight lateral gaze deviation of right eye and ptosis,
   resolves when asked to track with eyes. MMM. No scleral icterus or
   conjunctival pallor
   Neck: Supple
   Lungs: Decreased BS at bases, no wheezes or rhonchi
   Cardiac: Regular, no m/g/r
   Abdomen: Slightly less distended, non-tender, +BS, suture material
   anchored by hemostat
   Extr: Warm, pneumoots in place. Left forearm compartment soft, mildly
   tender when squeezed, radial/PT/DP all 2+ bilaterally
   Skin:  Mild erythema of left forearm, PIVs in place over right arm
   Neuro: Awake, nods/shakes head when asked questions, PERRL, CNs sym
   Labs / Radiology
   549 K/uL
   7.4 g/dL
   84 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.5 mEq/L
   5 mg/dL
   102 mEq/L
   140 mEq/L
   22.2 %
   10.4 K/uL
        [image002.jpg]
                             [**2162-11-6**]  04:03 AM
                             [**2162-11-6**]  02:17 PM
                             [**2162-11-7**]  04:38 AM
                             [**2162-11-7**]  11:23 AM
                             [**2162-11-7**]  12:45 PM
                             [**2162-11-8**]  02:28 AM
                             [**2162-11-9**]  04:58 AM
                             [**2162-11-10**]  02:51 AM
                             [**2162-11-11**]  03:33 AM
                            [**2162-11-12**]  04:16 AM
   WBC
   12.6
   13.2
   13.9
   11.8
   10.3
   10.0
   10.4
   Hct
   23.1
   22.6
   23.8
   22.6
   22.6
   23.1
   22.2
   Plt
   [**Telephone/Fax (2) 2530**]
   549
   Cr
   1.1
   1.0
   0.9
   0.8
   0.8
   0.8
   0.8
   TCO2
   31
   33
   31
   Glucose
   80
   74
   70
   78
   84
   87
   84
   Other labs: PT / PTT / INR:15.6/31.2/1.4, ALT / AST:14/24, Alk Phos / T
   Bili:143(
174)/0.3, Amylase / Lipase:24/44, Differential-Neuts:70.5
   %, Band:0.0 %, Lymph:19.3 %, Mono:3.5 %, Eos:6.4 %, Fibrinogen:669
   mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:217 (
260)
   IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   [**11-7**] and [**11-8**] Sputum culture: Klebsiella
   [**11-8**]: Blood culture: Gram positive cocci
   [**11-9**] Blood culture: Bacillus species, gram positive cocci
   [**11-11**] Blood culture: NGTD
   [**11-11**] PICC tip NGTD
   [**11-11**] CT Abdomen/Pelvis:
   Note - extravasation of contrast into arm, approx 150 cc, at IV site
   confirmed
   with scan of arm. This was discussed with Dr. [**Last Name (STitle) **] [**Last Name (NamePattern4) **] who will obtain
   a
   plastic surgery consult for further evaluation. Moderate bilateral
   pleural
   effusions with associated atelectasis. NG tube in place. Mild pelvic
   fluid
   which appears simple. Heterogeneous gall bladder not significantly
   changed
   in size compared to 3 days ago. No intra-abdominal abscess.
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who was transferred from an OSH for
   pancreatitis, gallbladder edema, and elevated LFTs, intubated for
   increased work of breathing, status post tracheostomy yesterday, with
   bacteremia.
   #) Respiratory failure: Given difficulty weaning from ventilator,
   patient went for tracheostomy yesterday. This morning during rounds she
   did well with breathing trial, maintaining adequate minute ventilation
   and oxygenation.
   - Haldol TID standing, PRN for sedation. Fentanyl and versed have been
   weaned down considerably, but will need to continue to wean as cannot
   maintain if patient is on trach mask. Will discuss additional weaning
   with pharmacy (eg PO valium or fentanyl boluses) as wish to avoid
   withdrawal from narcotics/benzodiazepam agents. QTc has been stable on
   haldol, following daily.
   - Continue to work on diuresis goal about 500cc-1000cc (patient is LOS
   about 1 L positive, however expect that much of the fluid has
   redistributed and she has lost significant muscle mass)
   - Ventilator-associated pneumonia treatment as noted below.
   - Given difficulty weaning sedation and concern for patient safety,
   obtaining 1:1 sitter to help re-orient patient to ensure safety of her
   lines and tracheostomy and hopefully further safely wean sedation since
   this has been a major barrier.
   - Speech consult for assistance with PMV if she tolerates trach mask,
   which may help patient speak and become more oriented, less agitated.
   .
   #) Fevers, bacteremia:
   This morning, temperature of 100, otherwise no fever since >24 hours.
   She has had fevers since [**Date range (1) 2161**]. Work up has included a TTE which
   was negative for abscess or vegetation. Lines have been changed and
   PICC was removed yesterday. Abdominal ultrasound revealed there was not
   enough fluid for a paracentesis last week, and again this was
   consistent with CT yesterday. Bandemia appeared to have improved since
   initiation of flagyl. She has completed 14 day course of zosyn
   ([**Date range (1) 2425**]) which covered entercoccous in one blood culture.
   Imaging has been consistent with ventilator-associated pneumonia,
   especially given klebseilla in sputum.
   CT yesterday was negative for any new acute process (as there had been
   no imaging since patient pulled out percutaneous drain).
   - Appreciate ID recommendations
   - Following all culture data, including surveillance cultures.
   - Given initial significant improvement in bandemia and leukocytosis,
   will continue treatment course of 14 days (today is day 13), tomorrow
   will be last day.
   - Given sensitivities and imaging, will stop ciprofloxacin given that
   klebsiella is very sensitive to meropenem (day 3) for VAP. Will
   continue vancomycin for gram positive blood cultures until further
   speciation completed (although may be able to narrow based on ID
   recommendations).
   .
   #) EtOH abuse: Last known drink was PM of [**10-24**].
   -          Sedation taper and transition as noted above.
   -          Folate and thiamine supplementation.
   .
   #) Distended, thickened, gallbladder: Current unresolved issue is that
   of the retained suture material. Her cholecystitis has been felt to be
   related to edema from her pancreatitis, and no stones have been seen on
   repeated imaging. At OSH, a percutaneous drain was placed out of
   concern for possible cholangitis, revealed only bile. Patient has since
   pulled out the percutaneous tube, and no further intervention has been
   deemed necessary.
   -          Appreciate surgery assistance. Given KUB and CT without
   evidence of retained foreign object, will discuss with surgery whether
   suture material can be removed or trimmed close to skin. If surgery
   team unable to do this, will discuss appropriate next steps (IR or
   additional imaging).
   .
   #) Anemia: Stable. No evidence of bleeding currently, and she has not
   had any evidence of a hemorrhagic component of her pancreatitis noted
   on CT previously. Phlebotomy is likely playing at least a small role as
   well. No evidence of hemorrhage on repeat imaging study.
   - Iron studies, B12, folate, hemolysis, DIC labs all checked, iron
   studies consistent with anemia of chronic disease, B12/folate WNL.
   - HCT stable, continuing to follow trend.
   .
   #) Elevated INR: Stable, patient
s INR had slowly trended upward,
   suspect likely secondary to nutritional deficiencies given that patient
   was NPO, then only on TPN. She has received Vitamin K.
   .
   #) GERD: PO PPI
   .
   #) FEN: Tube
   feeds
   .
   #) PPx: On PPI (hx GERD), pneumoboots
   .
   #) Code: Full, confirmed with patient.
   .
   #) Communication: Family (mother and father), mom [**Name (NI) 251**] ([**Telephone/Fax (1) 2180**]. Discussed events and updated father this morning, family will
   be in to visit this weekend (likely Sunday) with patient
s son.
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Peptamen 1.5 (Full) - [**2162-11-12**] 03:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2162-11-12**] 12:00 AM
   20 Gauge - [**2162-11-12**] 12:00 AM
   ** Access currently is a significant problem given that PICC was pulled
   over infection concerns. After extravasation of contrast into her left
   forearm, this is no longer a site for PIVs. She also continues to pull
   at peripheral IVs or they are unable to be used. Will attempt to have
   another PICC or midline line placed, however this cannot be done, may
   need a central line for continued access.
   Prophylaxis:
   DVT:  Heparin SQ TID
   Stress ulcer:  PPI
   VAP:  Chlorhexidine, Head of bed elevated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU until weaned from ventilation

2162-11-13 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pressures support: Tolerated 5/0, [**6-7**] all day yesterday, then rested
   on AC overnight
   - Discontinued ciprofloxacin
   - PICC nurse evaluated patient, no PICC can be placed for 48-72 hours.
   Patient with 2 peripherals IV
   - Paged and called ortho tech several times for resting volar splint.
   - Surgery pulled suture from percutaneous drain.
   - Sedation weaned: Fentanyl: 250--->175 mcg fentanyl and Versed
   10--->5.  Started fentanyl patch 100mcg/hour and 10mg Valium TID.
   - Required several boluses of sedation around 8pm
   - Auto-diuresed overnight, negative
   This morning, initially calm and answering appropriately, then
   attempting to get out of bed. Shook head
 when asked if in pain or
   short of breath.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2162-11-10**] 02:00 PM
   Ciprofloxacin - [**2162-11-12**] 06:17 AM
   Vancomycin - [**2162-11-12**] 10:17 PM
   Meropenem - [**2162-11-13**] 02:00 AM
   Metronidazole - [**2162-11-13**] 05:24 AM
   Infusions:
   Fentanyl - 175 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other medications:
   Fentanyl patch 100mcg patch Q72H, Valium 10 mg TID PO, Methadone 20 mg
   IV Q8H, Vancomycin 1000 mg [**Hospital1 7**], Meropenem 500 mg IV Q6H, Haldol 1 mg IV
   TID, Haldol 1-2 mg IV Q4H PRN, Miconazole, Lactulose, Lansoprazole,
   Tylenol, Flagyl 500 mg IV Q8H, Thiamine, Folic Acid, Artificial tears,
   Albuterol, Chlorhexidine, Heparin SQ TID
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2162-11-13**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.8
C (98.2
   HR: 91 (78 - 125) bpm
   BP: 117/76(86) {90/51(60) - 143/81(103)} mmHg
   RR: 15 (7 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,864 mL
                                                                    638 mL
   PO:
             TF:
                                                                    420 mL
                                                                    148 mL
   IVF:
                                                                  2,414 mL
                                                                    490 mL
   Blood products:
   Total out:
                                                                  2,965 mL
                                                                    750 mL
   Urine:
                                                                  2,665 mL
                                                                    750 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                   -101 mL
                                                                   -112 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 692 (492 - 692) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   RSBI Deferred: Agitated
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   SpO2: 96%
   ABG: ////
   Ve: 6 L/min
   Physical Examination
   General: Lying in bed, in NAD, trach in place, eyes open and
   nodding/shaking head to questions
   HEENT: MMM, clear oropharynx, no scleral icterus or conjunctival pallor
   Neck: Trach in place, site c/d/I no oozing or erythema
   Lungs: Decreased BS at bases, occasional rhonchi scattered, good
   airmovement bilaterally
   Cardiac: Regular, no m/g/r
   Abd: Slightly less distended, nontender, +BS, dressing in place over
   site of percutaneous GB drain
   Extr: Warm, pneumoboots in place, nontender, no c/c/e
   Neuro: Alert, responds to commands appropriately. CNs sym
   Labs / Radiology
   507 K/uL
   7.5 g/dL
   84 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.5 mEq/L
   5 mg/dL
   102 mEq/L
   140 mEq/L
   22.7 %
   9.4 K/uL
        [image002.jpg]
                             [**2162-11-6**]  02:17 PM
                             [**2162-11-7**]  04:38 AM
                             [**2162-11-7**]  11:23 AM
                             [**2162-11-7**]  12:45 PM
                             [**2162-11-8**]  02:28 AM
                             [**2162-11-9**]  04:58 AM
                             [**2162-11-10**]  02:51 AM
                             [**2162-11-11**]  03:33 AM
                            [**2162-11-12**]  04:16 AM
                            [**2162-11-13**]  06:35 AM
   WBC
   13.2
   13.9
   11.8
   10.3
   10.0
   10.4
   9.4
   Hct
   22.6
   23.8
   22.6
   22.6
   23.1
   22.2
   22.7
   Plt
   599
   622
   620
   556
   553
   549
   507
   Cr
   1.0
   0.9
   0.8
   0.8
   0.8
   0.8
   TCO2
   31
   33
   31
   Glucose
   74
   70
   78
   84
   87
   84
   Other labs: PT / PTT / INR:15.6/31.2/1.4, ALT / AST:14/24, Alk Phos / T
   Bili:143/0.3, Amylase / Lipase:24/44, Differential-Neuts:68.8 %,
   Band:0.0 %, Lymph:21.1 %, Mono:4.3 %, Eos:5.5 %, Fibrinogen:669 mg/dL,
   Lactic Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:217 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Culture data:
   [**11-8**] Beta glucan pending
   [**11-8**] Blood culture:  Gram positive cocci
   [**11-9**] Blood culture: Bacillus species (not anthrax), Coagulase negative
   staph
   [**11-9**] Myco/Fungal blood culture NGTD
   [**11-11**] Blood culture: NGTD
   [**11-11**] PICC tip NGTD
   Imaging:
   Chest x-ray [**11-13**] read pending
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who was transferred from an OSH for
   pancreatitis, gallbladder edema, and elevated LFTs, intubated for
   increased work of breathing, status post tracheostomy, with continued
   periods of agitation.
   #) Respiratory failure: Patient is now status-post tracheostomy after
   difficulty weaning. She did well on PS trials yesterday, however has
   been intermittently agitated which has limited ability to further wean.
   - Discussed strategy for weaning sedation and minimizing risk of
   withdrawal from narcotics and benzodiazepines, and will increase haldol
   to 3 mg TID standing, given she has a good response to this, and
   uptitrate if needed so that PRNs are minimized. Continuing valium 10 mg
   PO TID, and will plan to go up further if needed to wean versed once
   she is on a stable haldol dose. Fentanyl patch should begin to take
   effect later today or tomorrow, so will wean fentanyl as tolerated at
   that time. Continuing methadone as well, will aim to further titrate
   that down once above interventions made. Following daily QTc given
   haldol and methadone can both prolong this.
   - Continue to work on diuresis goal about 500cc-1000cc.
   - Ventilator-associated pneumonia treatment as noted below.
   - 1:1 sitter to help re-orient patient to ensure safety of her lines
   and tracheostomy and hopefully further safely wean sedation since this
   has been a major barrier.
   - Speech consult for assistance with PMV if she tolerates trach mask,
   which may help patient speak and become more oriented, less agitated.
   .
   #) Fevers, bacteremia:
   Overall fever curve appears to be improving.
   She has had fevers since [**Date range (1) 2161**]. Work up has included a TTE which
   was negative for abscess or vegetation. Lines have been changed and
   PICC was removed yesterday. Abdominal ultrasound revealed there was not
   enough fluid for a paracentesis last week, and again this was
   consistent with CT this week. Bandemia appeared to have improved since
   initiation of flagyl. She has completed 14 day course of zosyn
   ([**Date range (1) 2425**]) which covered entercoccous in one blood culture.
   Imaging has been consistent with ventilator-associated pneumonia,
   especially given klebseilla in sputum.
   - Appreciate ID recommendations
   - Following all culture data, including surveillance cultures.
   - Status post 14 day course of empiric flagyl (last day today) for
   question of c. difficile infection.
   - Given sensitivities and imaging, cipro stopped. Sputum klebsiella is
   very sensitive to meropenem (day 5) for VAP.
   - Will continue vancomycin for gram positive blood cultures until
   further speciation completed (called lab this morning)
   .
   #) EtOH abuse: Last known drink was PM of [**10-24**]. Sedation taper and
   transition as noted above. Folate and thiamine supplementation. Social
   work consult once extubated.
   .
   #) Distended, thickened, gallbladder:  No acute issues at present. Her
   cholecystitis has been felt to be related to edema from her
   pancreatitis, and no stones have been seen on repeated imaging. At OSH,
   a percutaneous drain was placed out of concern for possible
   cholangitis, revealed only bile. Patient has since pulled out the
   percutaneous tube, and no further intervention has been deemed
   necessary; surgical team has since removed the suture material that
   remained.
   -          Cholecystectomy in [**5-9**] weeks after recovers from acute
   illness.
   .
   #) Anemia: Stable HCT this week. No evidence of bleeding currently, and
   she has not had any evidence of a hemorrhagic component of her
   pancreatitis noted on CT previously. Phlebotomy is likely playing at
   least a small role as well. No evidence of hemorrhage on repeat imaging
   study.
   - Iron studies, B12, folate, hemolysis, DIC labs all checked, iron
   studies consistent with anemia of chronic disease, B12/folate WNL.
   - HCT stable, continuing to follow trend.
   .
   #) Elevated INR: Stable, patient
s INR had slowly trended upward,
   suspect likely secondary to nutritional deficiencies given that patient
   was NPO, then only on TPN. She has received Vitamin K.
   .
   #) Eosinophilia: Noted on today
s labs. Mild, will continue to monitor
   trend, could be related to medications (meropenem is new).
   .
   #) GERD: PO PPI
   .
   #) FEN: Tube
   feeds
   .
   #) PPx: On PPI (hx GERD), pneumoboots
   .
   #) Code: Full, confirmed with patient.
   .
   #) Communication: Family (mother and father), mom [**Name (NI) 251**] ([**Telephone/Fax (1) 2180**]. Discussed events and updated father this morning via nursing
   team, family will be in to visit tomrorow with patient
s son.
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Peptamen 1.5 (Full) - [**2162-11-12**] 03:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2162-11-12**] 08:10 PM
   Prophylaxis:
   DVT: Heparin SQ TID
   Stress ulcer: PPI
   VAP:  Chlorhexidine, Head of bed elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2162-11-13 11:02:00 Physician Attending Progress Note
Chief Complaint: 40 yr woman with pancreatitis, etoh abuse, initially
   presented to [**Hospital3 735**], trransferred here for further management
   of ? cholangitis, resp failure. Now with persistent fevers, difficult
   wean
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had trach this week
   24 Hour Events:
   Pressure support yesterday and did well.
   Cipro stopped
   Access is a problem
   Weaning sedation; started fentanyl patch
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2162-11-10**] 02:00 PM
   Ciprofloxacin - [**2162-11-12**] 06:17 AM
   Metronidazole - [**2162-11-13**] 05:24 AM
   Vancomycin - [**2162-11-13**] 08:00 AM
   Meropenem - [**2162-11-13**] 09:05 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 275 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2162-11-13**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2162-11-13**] 08:30 AM
   Other medications:
   versed, methadone, haldol, hep sub q, lanzoprazole, valium, fentanyl
   patch, thiamine, folate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-11-13**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.6
C (97.8
   HR: 111 (78 - 125) bpm
   BP: 126/68(94) {105/53(68) - 143/81(103)} mmHg
   RR: 20 (7 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  2,865 mL
                                                                  1,228 mL
   PO:
             TF:
                                                                    420 mL
                                                                    231 mL
   IVF:
                                                                  2,415 mL
                                                                    972 mL
   Blood products:
   Total out:
                                                                  2,965 mL
                                                                  1,145 mL
   Urine:
                                                                  2,665 mL
                                                                  1,145 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                   -100 mL
                                                                     83 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 692 (492 - 692) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Rhonchorous: )
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   7.5 g/dL
   507 K/uL
   89 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.5 mEq/L
   4 mg/dL
   104 mEq/L
   143 mEq/L
   22.7 %
   9.4 K/uL
        [image002.jpg]
                             [**2162-11-6**]  02:17 PM
                             [**2162-11-7**]  04:38 AM
                             [**2162-11-7**]  11:23 AM
                             [**2162-11-7**]  12:45 PM
                             [**2162-11-8**]  02:28 AM
                             [**2162-11-9**]  04:58 AM
                             [**2162-11-10**]  02:51 AM
                             [**2162-11-11**]  03:33 AM
                            [**2162-11-12**]  04:16 AM
                            [**2162-11-13**]  06:35 AM
   WBC
   13.2
   13.9
   11.8
   10.3
   10.0
   10.4
   9.4
   Hct
   22.6
   23.8
   22.6
   22.6
   23.1
   22.2
   22.7
   Plt
   599
   622
   620
   556
   553
   549
   507
   Cr
   1.0
   0.9
   0.8
   0.8
   0.8
   0.8
   0.7
   TCO2
   31
   33
   31
   Glucose
   74
   70
   78
   84
   87
   84
   89
   Other labs: PT / PTT / INR:15.6/31.8/1.4, ALT / AST:14/21, Alk Phos / T
   Bili:122/0.2, Amylase / Lipase:19/37, Differential-Neuts:68.8 %,
   Band:0.0 %, Lymph:21.1 %, Mono:4.3 %, Eos:5.5 %, Fibrinogen:669 mg/dL,
   Lactic Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:234 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Microbiology: [**11-8**] - Gm Pos Cocci
   [**11-9**] - Bacillus, coaf neg staph
   cultures since - NTD
   Assessment and Plan
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who was transferred from an OSH for
   pancreatitis, gallbladder edema, and elevated LFTs, intubated for
   increased work of breathing, status post tracheostomy yesterday, with
   bacteremia.
   #) Respiratory failure: Given difficulty weaning from ventilator,
   patient went for tracheostomy yesterday. This morning during rounds she
   did well with breathing trial, maintaining adequate minute ventilation
   and oxygenation.
   - Haldol TID standing, PRN for sedation. Will consider increasing dose
   to allow for wean of narcotics/benzo's. Will discuss additional weaning
   with pharmacy (eg PO valium or fentanyl boluses) as wish to avoid
   withdrawal from narcotics/benzodiazepam agents. QTc has been stable on
   haldol, following daily.
   - Continue to work on diuresis goal about 500cc-1000cc (patient is LOS
   about 1 L positive, however expect that much of the fluid has
   redistributed and she has lost significant muscle mass)
   - Ventilator-associated pneumonia treatment as noted below.
   - Given difficulty weaning sedation and concern for patient safety,
   obtaining 1:1 sitter to help re-orient patient to ensure safety of her
   lines and tracheostomy and hopefully further safely wean sedation since
   this has been a major barrier.
   - Speech consult for assistance with PMV if she tolerates trach mask,
   which may help patient speak and become more oriented, less agitated.
   .
   #) Fevers, bacteremia:
   This morning, temperature of 100, otherwise no fever since >24 hours.
   She has had fevers since [**Date range (1) 2161**]. Work up has included a TTE which
   was negative for abscess or vegetation. Lines have been changed and
   PICC was removed yesterday. Abdominal ultrasound revealed there was not
   enough fluid for a paracentesis last week, and again this was
   consistent with CT yesterday. Bandemia appeared to have improved since
   initiation of flagyl. She has completed 14 day course of zosyn
   ([**Date range (1) 2425**]) which covered entercoccous in one blood culture.
   Imaging has been consistent with ventilator-associated pneumonia,
   especially given klebseilla in sputum.
   CT yesterday was negative for any new acute process (as there had been
   no imaging since patient pulled out percutaneous drain).
   - Appreciate ID recommendations
   - Following all culture data, including surveillance cultures.
   - Given initial significant improvement in bandemia and leukocytosis,
   will continue treatment course of 14 days (today is day 14), tomorrow
   will be last day.
   - Given sensitivities and imaging, will stop ciprofloxacin given that
   klebsiella is very sensitive to meropenem (day 4) for VAP. Will
   continue vancomycin for gram positive blood cultures until further
   speciation completed (although may be able to narrow based on ID
   recommendations).
   .
   #) EtOH abuse: Last known drink was PM of [**10-24**].
   -          Sedation taper and transition as noted above.
   -          Folate and thiamine supplementation.
   .
   #) Distended, thickened, gallbladder: Current unresolved issue is that
   of the retained suture material. Her cholecystitis has been felt to be
   related to edema from her pancreatitis, and no stones have been seen on
   repeated imaging. At OSH, a percutaneous drain was placed out of
   concern for possible cholangitis, revealed only bile. Patient has since
   pulled out the percutaneous tube, and no further intervention has been
   deemed necessary.
   -          Appreciate surgery assistance. Given KUB and CT without
   evidence of retained foreign object, will discuss with surgery whether
   suture material can be removed or trimmed close to skin. If surgery
   team unable to do this, will discuss appropriate next steps (IR or
   additional imaging).
   .
   #) Anemia: Stable. No evidence of bleeding currently, and she has not
   had any evidence of a hemorrhagic component of her pancreatitis noted
   on CT previously. Phlebotomy is likely playing at least a small role as
   well. No evidence of hemorrhage on repeat imaging study.
   - Iron studies, B12, folate, hemolysis, DIC labs all checked, iron
   studies consistent with anemia of chronic disease, B12/folate WNL.
   - HCT stable, continuing to follow trend.
   .
   #) Elevated INR: Stable, patient
s INR had slowly trended upward,
   suspect likely secondary to nutritional deficiencies given that patient
   was NPO, then only on TPN. She has received Vitamin K.
   .
   #) GERD: PO PPI
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2162-11-12**] 03:00 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2162-11-12**] 08:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2162-11-14 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pressure support trial for about an hour: became hypoxic, appeared to
   be working hard to breathe, was placed back on AC
   - Episode of hypoxia, resolved without intervention, chest x-ray
   without significant change
   - Additional 10 mg IV lasix to help diuresis
   - Increased standing Haldol to 3-5 mg TID
   - Overnight agitated at times, received additional haldol and fentanyl
   This morning, patient appeared calm, nodded and shook head
   appropriately when asked questions regarding pain (none), shortness of
   breath (none). Reminded patient that family would be in to visit
   shortly.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2162-11-12**] 06:17 AM
   Metronidazole - [**2162-11-13**] 05:24 AM
   Vancomycin - [**2162-11-13**] 08:34 PM
   Meropenem - [**2162-11-14**] 02:20 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2162-11-13**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2162-11-13**] 03:14 PM
   Furosemide (Lasix) - [**2162-11-13**] 11:30 PM
   Haloperidol (Haldol) - [**2162-11-13**] 11:41 PM
   Other medications:
   Valium 10 mg Q8H, Haldol 3-5 mg IV Q8H/3 mg Q4H PRN, Fentanyl patch 100
   mcg/hr Q72H, Methadone 20 mg IV Q8H, Vancomycin 1000 mg Q12H, Meropenem
   500 mg IV Q6H, Miconazole powder, Lactulose, Lansoprazole, Tylenol,
   Thiamine, Folic acid, Artificial tears, Albulterol, Chlorhexidine,
   Heparin SQ TID
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2162-11-14**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.1
   HR: 82 (78 - 115) bpm
   BP: 116/59(72) {108/38(65) - 143/92(104)} mmHg
   RR: 14 (13 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,432 mL
                                                                    534 mL
   PO:
             TF:
                                                                    407 mL
                                                                    127 mL
   IVF:
                                                                  1,820 mL
                                                                    407 mL
   Blood products:
   Total out:
                                                                  2,740 mL
                                                                  1,710 mL
   Urine:
                                                                  2,740 mL
                                                                  1,710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -308 mL
                                                                 -1,176 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 620 (620 - 620) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 14 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: ///32/
   Ve: 6.8 L/min
   Physical Examination
   General: Awake, alert, tracking people in room, in NAD
   HEENT: NC, MMM, no scleral icterus
   Neck: Supple, trache site c/d/i
   Lungs: Decreased BS at bases, occasional rales, diffusely rhoncherous
   but with good airmovement bilaterally
   Cardiac: Regular rate, rhythm, no m/g/r
   Abd: Soft, less distended, +BS, dressing in place over prior
   percutaneous site
   Extr: Warm, pneumoboots in place, left arm with mild excoriation,
   compartment appears soft
   Neuro: CNs sym, follows simple commands, PERRL, moves all extremities
   Labs / Radiology
   575 K/uL
   8.0 g/dL
   75 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.7 mEq/L
   4 mg/dL
   102 mEq/L
   142 mEq/L
   24.0 %
   11.5 K/uL
        [image002.jpg]
                             [**2162-11-7**]  04:38 AM
                             [**2162-11-7**]  11:23 AM
                             [**2162-11-7**]  12:45 PM
                             [**2162-11-8**]  02:28 AM
                             [**2162-11-9**]  04:58 AM
                             [**2162-11-10**]  02:51 AM
                             [**2162-11-11**]  03:33 AM
                            [**2162-11-12**]  04:16 AM
                            [**2162-11-13**]  06:35 AM
                            [**2162-11-14**]  03:55 AM
   WBC
   13.2
   13.9
   11.8
   10.3
   10.0
   10.4
   9.4
   11.5
   Hct
   22.6
   23.8
   22.6
   22.6
   23.1
   22.2
   22.7
   24.0
   Plt
   599
   622
   620
   556
   553
   549
   507
   575
   Cr
   1.0
   0.9
   0.8
   0.8
   0.8
   0.8
   0.7
   0.6
   TCO2
   33
   31
   Glucose
   74
   70
   78
   84
   87
   84
   89
   75
   Other labs: PT / PTT / INR:15.2/32.8/1.3, ALT / AST:15/20, Alk Phos / T
   Bili:127/0.3, Amylase / Lipase:19/37, Differential-Neuts:68.8 %,
   Band:0.0 %, Lymph:21.1 %, Mono:4.3 %, Eos:5.5 %, Fibrinogen:669 mg/dL,
   Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:262 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Micro Data:
   Blood culture [**11-9**] and [**11-8**] Both gram positive cocci speciated out as
   coag negative staph. Otherwise no new culture data.
   Imaging:
   Chest x-ray from [**11-13**] PM: No interval change.
   Chest x-ray from [**11-14**]: Read pending
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who was transferred from an OSH for
   pancreatitis, gallbladder edema, and elevated LFTs, intubated for
   increased work of breathing, status post tracheostomy, with continued
   periods of agitation.
   #) Respiratory failure: Patient is now status-post tracheostomy after
   difficulty weaning. Yesterday she did not do well with a spontaneous
   breathing trial.
   - Haldol appeared to work well yesterday with improvement during the
   day in regards to her agitation. Given that the patient tends to become
   more agitated and restless overnight, will increase PM haldol dose to
   10 mg, and give Q6H dosing of 5 mg during the day. Continuing valium 10
   mg PO TID, and will plan to go up further if needed to wean versed once
   she is on a stable haldol dose (today making additional adjustments).
   Continuing fentanyl patch, and will aim to wean versed by 20% today
   (down to 4). Following daily QTc given haldol and methadone can both
   prolong this.
   - Continue to work on diuresis goal about 500cc-1000cc.
   - Ventilator-associated pneumonia treatment as noted below.
   - 1:1 sitter to help re-orient patient to ensure safety of her lines
   and tracheostomy and hopefully further safely wean sedation since this
   has been a major barrier.
   - Speech consult for assistance with PMV once she tolerates trach mask,
   which may help patient speak and become more oriented, less agitated.
   - Will attempt SBT/PS tomorrow after 24 hours of improved behavior
   control.
   .
   #) Fevers, bacteremia:
   Continues to have intermittent low grade temperatures (100), but as
   noted yesterday, fever curve appears to be improving.
   She has had fevers since [**Date range (1) 2161**]. Work up has included a TTE which
   was negative for abscess or vegetation. Lines have been changed and
   PICC was removed yesterday. Abdominal ultrasound revealed there was not
   enough fluid for a paracentesis last week, and again this was
   consistent with CT completed last week. Bandemia appeared to have
   improved since initiation of flagyl. She has completed 14 day course of
   zosyn ([**Date range (1) 2425**]) which covered entercoccous in one blood culture.
   Imaging has been consistent with ventilator-associated pneumonia,
   especially given klebseilla in sputum.
   - Appreciate ID recommendations
   - Following all culture data, including surveillance cultures.
   - Status post 14 day course of empiric flagyl (last day today) for
   question of c. difficile infection.
   - Given sensitivities and imaging, cipro stopped. Sputum klebsiella is
   very sensitive to meropenem (day 7) for VAP.
   - Will continue vancomycin for gram positive blood cultures which were
   coagulase negative staph until sensitivities return. Given that she has
   had two positive cultures, cannot solely attribute this to
   contamination, however surveillance cultures have been negative. Prior
   TTE was negative, but will need to consider repeat if patient remains
   febrile or additional culture return positive.
   .
   #) EtOH abuse: Last known drink was PM of [**10-24**]. Sedation taper and
   transition as noted above. Folate and thiamine supplementation. Social
   work consult once extubated.
   .
   #) Distended, thickened, gallbladder:  No acute issues at present. Her
   cholecystitis has been felt to be related to edema from her
   pancreatitis, and no stones have been seen on repeated imaging. At OSH,
   a percutaneous drain was placed out of concern for possible
   cholangitis, revealed only bile. Patient has since pulled out the
   percutaneous tube, and no further intervention has been deemed
   necessary; surgical team has since removed the suture material that
   remained.
   -          Cholecystectomy in [**5-9**] weeks after recovers from acute
   illness.
   .
   #) Anemia: Stable HCT this week. No evidence of bleeding currently, and
   she has not had any evidence of a hemorrhagic component of her
   pancreatitis noted on CT previously. Phlebotomy is likely playing at
   least a small role as well. No evidence of hemorrhage on repeat imaging
   study. Iron studies, B12, folate, hemolysis, DIC labs all checked, iron
   studies consistent with anemia of chronic disease, B12/folate WNL.
   - HCT stable, continuing to follow trend.
   .
   #) Elevated INR: Stable, patient
s INR had slowly trended upward,
   suspect likely secondary to nutritional deficiencies given that patient
   was NPO, then only on TPN. She has received Vitamin K.
   .
   #) Eosinophilia: Noted on today
s labs. Mild, will continue to monitor
   trend, could be related to medications (meropenem is new).
   .
   #) GERD: PO PPI
   .
   #) FEN: Tube
   feeds
   .
   #) PPx: On PPI (hx GERD), pneumoboots
   .
   #) Code: Full, confirmed with patient.
   .
   #) Communication: Family (mother and father), mom [**Name (NI) 251**] ([**Telephone/Fax (1) 2180**]. Discussed events and updated father this morning via nursing
   team, family will be in to visit today with patient
s son.
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Peptamen 1.5 (Full) - [**2162-11-14**] 02:41 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2162-11-12**] 08:10 PM
   *  PICC to be replaced today if possible
   Prophylaxis:
   DVT: Hep SQ TID
   Stress ulcer: PPI
   VAP:  Chlrohexidine, head of bed elevated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2162-11-14 08:48:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis, cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2162-11-13**] 05:20 PM
 BLOOD CULTURED - At [**2162-11-14**] 04:36 AM
   Failed PS Trial x 2. Back on AC, diuresed
   Improved behavior control with Haldol but needs higher dose to maintain
   control in PM
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2162-11-12**] 06:17 AM
   Metronidazole - [**2162-11-13**] 05:24 AM
   Vancomycin - [**2162-11-13**] 08:34 PM
   Meropenem - [**2162-11-14**] 02:20 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-11-13**] 03:14 PM
   Furosemide (Lasix) - [**2162-11-13**] 11:30 PM
   Haloperidol (Haldol) - [**2162-11-13**] 11:41 PM
   Other medications:
   versed, methadone, haldol, hep Sub Q, valium, lanzoprazole, thiamine,
   folate,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-11-14**] 08:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.1
   HR: 98 (82 - 115) bpm
   BP: 126/98(103) {108/38(65) - 143/98(104)} mmHg
   RR: 14 (13 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,432 mL
                                                                    615 mL
   PO:
             TF:
                                                                    407 mL
                                                                    175 mL
   IVF:
                                                                  1,820 mL
                                                                    441 mL
   Blood products:
   Total out:
                                                                  2,740 mL
                                                                  1,710 mL
   Urine:
                                                                  2,740 mL
                                                                  1,710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -308 mL
                                                                 -1,095 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 620 (620 - 620) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 14 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Normal
   Labs / Radiology
   8.0 g/dL
   575 K/uL
   75 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.7 mEq/L
   4 mg/dL
   102 mEq/L
   142 mEq/L
   24.0 %
   11.5 K/uL
        [image002.jpg]
                             [**2162-11-7**]  04:38 AM
                             [**2162-11-7**]  11:23 AM
                             [**2162-11-7**]  12:45 PM
                             [**2162-11-8**]  02:28 AM
                             [**2162-11-9**]  04:58 AM
                             [**2162-11-10**]  02:51 AM
                             [**2162-11-11**]  03:33 AM
                            [**2162-11-12**]  04:16 AM
                            [**2162-11-13**]  06:35 AM
                            [**2162-11-14**]  03:55 AM
   WBC
   13.2
   13.9
   11.8
   10.3
   10.0
   10.4
   9.4
   11.5
   Hct
   22.6
   23.8
   22.6
   22.6
   23.1
   22.2
   22.7
   24.0
   Plt
   599
   622
   620
   556
   553
   549
   507
   575
   Cr
   1.0
   0.9
   0.8
   0.8
   0.8
   0.8
   0.7
   0.6
   TCO2
   33
   31
   Glucose
   74
   70
   78
   84
   87
   84
   89
   75
   Other labs: PT / PTT / INR:15.2/32.8/1.3, ALT / AST:15/20, Alk Phos / T
   Bili:127/0.3, Amylase / Lipase:19/37, Differential-Neuts:68.8 %,
   Band:0.0 %, Lymph:21.1 %, Mono:4.3 %, Eos:5.5 %, Fibrinogen:669 mg/dL,
   Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:262 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Microbiology: Coag Neg Staph in BC's from 10/6,7
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who was transferred from an OSH for
   pancreatitis, gallbladder edema, and elevated LFTs, intubated for
   increased work of breathing, status post tracheostomy, with continued
   periods of agitation.
   #) Respiratory failure: Patient is now status-post tracheostomy after
   difficulty weaning. She did not do well on PS trials yesterday, she has
   been intermittently agitated which has limited ability to further wean.
   Will attempt to further diurese to assist with wean.
   - Discussed strategy for weaning sedation and minimizing risk of
   withdrawal from narcotics and benzodiazepines, and will increase haldol
   to 3 mg TID standing, given she has a good response to this, and
   uptitrate if needed so that PRNs are minimized. Continuing valium 10 mg
   PO TID, and will plan to go up further if needed to wean versed once
   she is on a stable haldol dose. Fentanyl patch should begin to take
   effect later today or tomorrow, so will wean fentanyl as tolerated at
   that time. Continuing methadone as well, will aim to further titrate
   that down once above interventions made. Following daily QTc given
   haldol and methadone can both prolong this.
   - Continue to work on diuresis goal about 500cc-1000cc.
   - Ventilator-associated pneumonia treatment as noted below.
   - 1:1 sitter to help re-orient patient to ensure safety of her lines
   and tracheostomy and hopefully further safely wean sedation since this
   has been a major barrier.
   - Speech consult for assistance with PMV if she tolerates trach mask,
   which may help patient speak and become more oriented, less agitated.
   .
   #) Fevers, bacteremia:
   Overall fever curve appears to be improving.
   She has had fevers since [**Date range (1) 2161**]. Work up has included a TTE which
   was negative for abscess or vegetation. Lines have been changed and
   PICC was removed yesterday. Abdominal ultrasound revealed there was not
   enough fluid for a paracentesis last week, and again this was
   consistent with CT this week. Bandemia appeared to have improved since
   initiation of flagyl. She has completed 14 day course of zosyn
   ([**Date range (1) 2425**]) which covered entercoccous in one blood culture.
   Imaging has been consistent with ventilator-associated pneumonia,
   especially given klebseilla in sputum.
   - Appreciate ID recommendations
   - Following all culture data, including surveillance cultures.
   - Status post 14 day course of empiric flagyl (last day today) for
   question of c. difficile infection.
   - Given sensitivities and imaging, cipro stopped. Sputum klebsiella is
   very sensitive to meropenem (day 6) for VAP.
   - Will continue vancomycin for gram positive blood cultures--?
   .
   #) EtOH abuse: Last known drink was PM of [**10-24**]. Sedation taper and
   transition as noted above. Folate and thiamine supplementation. Social
   work consult once extubated.
   .
   #) Distended, thickened, gallbladder:  No acute issues at present. Her
   cholecystitis has been felt to be related to edema from her
   pancreatitis, and no stones have been seen on repeated imaging. At OSH,
   a percutaneous drain was placed out of concern for possible
   cholangitis, revealed only bile. Patient has since pulled out the
   percutaneous tube, and no further intervention has been deemed
   necessary; surgical team has since removed the suture material that
   remained.
   -          Cholecystectomy in [**5-9**] weeks after recovers from acute
   illness.
   .
   #) Anemia: Stable HCT this week. No evidence of bleeding currently, and
   she has not had any evidence of a hemorrhagic component of her
   pancreatitis noted on CT previously. Phlebotomy is likely playing at
   least a small role as well. No evidence of hemorrhage on repeat imaging
   study.
   - Iron studies, B12, folate, hemolysis, DIC labs all checked, iron
   studies consistent with anemia of chronic disease, B12/folate WNL.
   - HCT stable, continuing to follow trend.
   .
   #) Elevated INR: Stable, patient
s INR had slowly trended upward,
   suspect likely secondary to nutritional deficiencies given that patient
   was NPO, then only on TPN. She has received Vitamin K.
   .
   #) Eosinophilia: Noted on today
s labs. Mild, will continue to monitor
   trend, could be related to medications (meropenem is new).
   .
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2162-11-14**] 02:41 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2162-11-12**] 08:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2162-11-15 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2162-11-14**] 09:10 AM
 EKG - At [**2162-11-14**] 10:17 AM
   - PICC placed
   - Left on AC Sunday to rest (did not tolerate PS Saturday) while
   diuresing
   - Increased Haldol to 3-5mg q 6 standing, with 10mg dose qHS
   - Diuresed
   - QTc = 350
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2162-11-13**] 05:24 AM
   Vancomycin - [**2162-11-14**] 09:45 PM
   Meropenem - [**2162-11-15**] 02:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-11-14**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-11-15**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 100 (75 - 106) bpm
   BP: 131/67(81) {110/62(73) - 148/98(103)} mmHg
   RR: 17 (12 - 19) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  2,798 mL
                                                                    533 mL
   PO:
             TF:
                                                                  1,078 mL
                                                                    271 mL
   IVF:
                                                                  1,720 mL
                                                                    262 mL
   Blood products:
   Total out:
                                                                  3,220 mL
                                                                    220 mL
   Urine:
                                                                  3,220 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -422 mL
                                                                    313 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 5.8 L/min
   Physical Examination
   Gen: Awake, interactive
   HEENT: PERRL
   Neck: Trach in place
   Lungs: Coarse BS bilat
   Heart: s1s2 RRR
   Abd: +BS, soft, NT/ND
   Ext: WD/WP
   Neuro: Alert, follows commands, MAE
   Labs / Radiology
   545 K/uL
   7.9 g/dL
   97 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.3 mEq/L
   4 mg/dL
   103 mEq/L
   142 mEq/L
   23.7 %
   8.6 K/uL
         [image002.jpg]
                             [**2162-11-7**]  11:23 AM
                             [**2162-11-7**]  12:45 PM
                             [**2162-11-8**]  02:28 AM
                             [**2162-11-9**]  04:58 AM
                             [**2162-11-10**]  02:51 AM
                             [**2162-11-11**]  03:33 AM
                            [**2162-11-12**]  04:16 AM
                            [**2162-11-13**]  06:35 AM
                            [**2162-11-14**]  03:55 AM
                            [**2162-11-15**]  03:57 AM
   WBC
   13.9
   11.8
   10.3
   10.0
   10.4
   9.4
   11.5
   8.6
   Hct
   23.8
   22.6
   22.6
   23.1
   22.2
   22.7
   24.0
   23.7
   Plt
   622
   620
   556
   553
   549
   507
   575
   545
   Cr
   0.9
   0.8
   0.8
   0.8
   0.8
   0.7
   0.6
   0.6
   TCO2
   33
   31
   Glucose
   70
   78
   84
   87
   84
   89
   75
   97
   Other labs: PT / PTT / INR:14.8/32.2/1.3, ALT / AST:[**1-16**], Alk Phos / T
   Bili:106/0.3, Amylase / Lipase:17/35, Differential-Neuts:64.6 %,
   Band:0.0 %, Lymph:22.5 %, Mono:4.6 %, Eos:8.0 %, Fibrinogen:669 mg/dL,
   Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:210 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   MICRO:
   - [**11-14**] Blood cx: P
   - [**11-11**] catheter tip: NGTD
   - [**11-11**] blood cx: NGTD
   - [**11-9**] Mycolytic blood cx: NGTD
   - [**11-9**] Blood cx: COAG NEG STAPH
   IMAGING:
   - [**11-14**] CXR: PICC in place
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who was transferred from an OSH for
   pancreatitis, gallbladder edema, and elevated LFTs, intubated for
   increased work of breathing, status post tracheostomy, with continued
   periods of agitation.
   #) Respiratory failure: Patient is now status-post tracheostomy after
   difficulty weaning. Saturday she did not do well with a spontaneous
   breathing trial.
   - Haldol appeared to work well with improvement during the day in
   regards to her agitation. Given that the patient tends to become more
   agitated and restless overnight, increased PM haldol dose to 10 mg, and
   give Q6H dosing of 5 mg during the day. Continuing valium 10 mg PO TID,
   and will plan to go up further if needed to wean versed once she is on
   a stable haldol dose (today making additional adjustments). Continuing
   fentanyl patch, and will aim to wean versed by 20% today (down to 4).
   Following daily QTc given haldol and methadone can both prolong this.
   - Continue to work on diuresis goal about 500cc-1000cc.
   - Ventilator-associated pneumonia treatment as noted below.
   - 1:1 sitter to help re-orient patient to ensure safety of her lines
   and tracheostomy and hopefully further safely wean sedation since this
   has been a major barrier.
   - Speech consult for assistance with PMV once she tolerates trach mask,
   which may help patient speak and become more oriented, less agitated.
   - [**6-7**] trial today.
   .
   #) Fevers, bacteremia:
   Continues to have intermittent low grade temperatures (100), but as
   noted yesterday, fever curve appears to be improving.
   She has had fevers since [**Date range (1) 2161**]. Work up has included a TTE which
   was negative for abscess or vegetation. Lines have been changed and
   PICC was removed yesterday. Abdominal ultrasound revealed there was not
   enough fluid for a paracentesis last week, and again this was
   consistent with CT completed last week. Bandemia appeared to have
   improved since initiation of flagyl. She has completed 14 day course of
   zosyn ([**Date range (1) 2425**]) which covered entercoccous in one blood culture.
   Imaging has been consistent with ventilator-associated pneumonia,
   especially given klebseilla in sputum.
   - Appreciate ID recommendations
   - Following all culture data, including surveillance cultures.
   - Status post 14 day course of empiric flagyl (last day today) for
   question of c. difficile infection.
   - Given sensitivities and imaging, cipro stopped. Sputum klebsiella is
   very sensitive to meropenem for VAP.
   - Will continue vancomycin for gram positive blood cultures which were
   coagulase negative staph until sensitivities return. Given that she has
   had two positive cultures, cannot solely attribute this to
   contamination, however surveillance cultures have been negative. Prior
   TTE was negative, but will need to consider repeat if patient remains
   febrile or additional culture return positive.
   - PLAN: Vanco for 14 day total course (Staph bacteremia) + Meropenem
   for 8 day total course (Klebs)
   .
   #) EtOH abuse: Last known drink was PM of [**10-24**]. Sedation taper and
   transition as noted above. Folate and thiamine supplementation. Social
   work consult once more awake and on PMV.
   .
   #) Distended, thickened, gallbladder:  No acute issues at present. Her
   cholecystitis has been felt to be related to edema from her
   pancreatitis, and no stones have been seen on repeated imaging. At OSH,
   a percutaneous drain was placed out of concern for possible
   cholangitis, revealed only bile. Patient has since pulled out the
   percutaneous tube, and no further intervention has been deemed
   necessary; surgical team has since removed the suture material that
   remained.
   -          Cholecystectomy in [**5-9**] weeks after recovers from acute
   illness.
   .
   #) Anemia: Stable HCT this week. No evidence of bleeding currently, and
   she has not had any evidence of a hemorrhagic component of her
   pancreatitis noted on CT previously. Phlebotomy is likely playing at
   least a small role as well. No evidence of hemorrhage on repeat imaging
   study. Iron studies, B12, folate, hemolysis, DIC labs all checked, iron
   studies consistent with anemia of chronic disease, B12/folate WNL.
   - HCT stable, continuing to follow trend.
   .
   #) Elevated INR: Stable, patient
s INR had slowly trended upward,
   suspect likely secondary to nutritional deficiencies given that patient
   was NPO, then only on TPN. She has received Vitamin K.
   .
   #) Eosinophilia: Noted on today
s labs. Mild, will continue to monitor
   trend, could be related to medications (meropenem is new).
   .
   #) GERD: PO PPI
   .
   #) FEN: Tube
   feeds
   .
   #) PPx: On PPI (hx GERD), pneumoboots
   .
   #) Code: Full, confirmed with patient.
   .
   #) Communication: Family (mother and father), mom [**Name (NI) 251**] ([**Telephone/Fax (1) 2180**]. Family visited yesterday, provided letter documenting that pt
   is critically ill and in the ICU
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2162-11-15**] 12:02 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2162-11-12**] 01:39 PM
   PICC Line - [**2162-11-14**] 09:10 AM
   22 Gauge - [**2162-11-14**] 09:16 AM
   Prophylaxis:
   DVT: heparin sq, boots
   Stress ulcer:  PPI
   VAP:  HOB, mouth care
   Comments:
   Communication:  Comments:  With family yesterday
   Code status: Full code
   Disposition: ICU for now

2162-11-15 08:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2162-11-14**] 09:10 AM
 EKG - At [**2162-11-14**] 10:17 AM
   Left on AC to rest while diuresed.
   Did better on increased Haldol.
   Attempting SBT this AM
   Afebrile
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2162-11-13**] 05:24 AM
   Meropenem - [**2162-11-15**] 08:00 AM
   Vancomycin - [**2162-11-15**] 08:15 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2162-11-15**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2162-11-15**] 08:00 AM
   Other medications:
   Haldol increased, other meds unchanged
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-11-15**] 08:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 89 (75 - 107) bpm
   BP: 139/70(87) {110/62(74) - 148/87(93)} mmHg
   RR: 13 (12 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.7 kg (admission): 88.9 kg
   Height: 66 Inch
             Total In:
                                                                  2,798 mL
                                                                  1,020 mL
   PO:
             TF:
                                                                  1,078 mL
                                                                    345 mL
   IVF:
                                                                  1,720 mL
                                                                    615 mL
   Blood products:
   Total out:
                                                                  3,220 mL
                                                                    980 mL
   Urine:
                                                                  3,220 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -422 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   545 K/uL
   97 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.3 mEq/L
   4 mg/dL
   103 mEq/L
   142 mEq/L
   23.7 %
   8.6 K/uL
        [image002.jpg]
                             [**2162-11-7**]  11:23 AM
                             [**2162-11-7**]  12:45 PM
                             [**2162-11-8**]  02:28 AM
                             [**2162-11-9**]  04:58 AM
                             [**2162-11-10**]  02:51 AM
                             [**2162-11-11**]  03:33 AM
                            [**2162-11-12**]  04:16 AM
                            [**2162-11-13**]  06:35 AM
                            [**2162-11-14**]  03:55 AM
                            [**2162-11-15**]  03:57 AM
   WBC
   13.9
   11.8
   10.3
   10.0
   10.4
   9.4
   11.5
   8.6
   Hct
   23.8
   22.6
   22.6
   23.1
   22.2
   22.7
   24.0
   23.7
   Plt
   622
   620
   556
   553
   549
   507
   575
   545
   Cr
   0.9
   0.8
   0.8
   0.8
   0.8
   0.7
   0.6
   0.6
   TCO2
   33
   31
   Glucose
   70
   78
   84
   87
   84
   89
   75
   97
   Other labs: PT / PTT / INR:14.8/32.2/1.3, ALT / AST:[**1-16**], Alk Phos / T
   Bili:106/0.3, Amylase / Lipase:17/35, Differential-Neuts:64.6 %,
   Band:0.0 %, Lymph:22.5 %, Mono:4.6 %, Eos:8.0 %, Fibrinogen:669 mg/dL,
   Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:210 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Microbiology: BC's [**11-14**] pending
   BC's [**11-11**] - NGTD
   BC's [**11-9**] - Coag neg Staph
   Assessment and Plan
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who was transferred from an OSH for
   pancreatitis, gallbladder edema, and elevated LFTs, intubated for
   increased work of breathing, status post tracheostomy, with continued
   periods of agitation.
   #) Respiratory failure: Patient is now status-post tracheostomy after
   difficulty weaning. Diuresed yesterday with good results. More
   comfortable this AM. Will trial T-piece with PS 0.
   - Discussed strategy for weaning sedation and minimizing risk of
   withdrawal from narcotics and benzodiazepines, and will increase haldol
   to 5 mg [**Hospital1 7**] standing, 10mg at bedtime - which has worked well.
   Continuing valium 10 mg PO TID, and will plan to go up further if
   needed to wean versed once she is on a stable haldol dose. Fentanyl
   patch in place. Continuing methadone as well, will aim to further
   titrate that down once above interventions made. Following daily QTc
   given haldol and methadone can both prolong this.
   - Continue to work on diuresis goal about 500cc-1000cc.
   - Ventilator-associated pneumonia treatment as noted below.
   - 1:1 sitter to help re-orient patient to ensure safety of her lines
   and tracheostomy and hopefully further safely wean sedation since this
   has been a major barrier.
   - Speech consult for assistance with PMV if she tolerates trach mask,
   which may help patient speak and become more oriented, less agitated.
   .
   #) Fevers, bacteremia:
   Overall fever curve appears to be improving.
   She has had fevers since [**Date range (1) 2161**] but afebrile today.  Work up has
   included a TTE which was negative for abscess or vegetation. Lines have
   been changed and PICC was removed yesterday. Abdominal ultrasound
   revealed there was not enough fluid for a paracentesis last week, and
   again this was consistent with CT this week. Bandemia appeared to have
   improved since initiation of flagyl. She has completed 14 day course of
   zosyn ([**Date range (1) 2425**]) which covered entercoccous in one blood culture.
   Imaging has been consistent with ventilator-associated pneumonia,
   especially given klebseilla in sputum.
   - Appreciate ID recommendations
   - Following all culture data, including surveillance cultures.
   - Status post 14 day course of empiric flagyl (last day today) for
   question of c. difficile infection.
   - Given sensitivities and imaging, cipro stopped. Sputum klebsiella is
   very sensitive to meropenem (day 6) for VAP.
   - Will continue vancomycin for gram positive blood cultures--?
   .
   #) EtOH abuse: Last known drink was PM of [**10-24**]. Sedation taper and
   transition as noted above. Folate and thiamine supplementation. Social
   work consult once extubated.
   .
   #) Distended, thickened, gallbladder:  No acute issues at present. Her
   cholecystitis has been felt to be related to edema from her
   pancreatitis, and no stones have been seen on repeated imaging. At OSH,
   a percutaneous drain was placed out of concern for possible
   cholangitis, revealed only bile. Patient has since pulled out the
   percutaneous tube, and no further intervention has been deemed
   necessary; surgical team has since removed the suture material that
   remained.
   -          Cholecystectomy in [**5-9**] weeks after recovers from acute
   illness.
   .
   #) Anemia: Stable HCT this week. No evidence of bleeding currently, and
   she has not had any evidence of a hemorrhagic component of her
   pancreatitis noted on CT previously. Phlebotomy is likely playing at
   least a small role as well. No evidence of hemorrhage on repeat imaging
   study.
   - Iron studies, B12, folate, hemolysis, DIC labs all checked, iron
   studies consistent with anemia of chronic disease, B12/folate WNL.
   - HCT stable, continuing to follow trend.
   .
   #) Elevated INR: Stable, patient
s INR and is stable. She has received
   Vitamin K.
   .
   #) Eosinophilia: Noted on today
s labs. Mild, will continue to monitor
   trend, could be related to medications (meropenem is new).
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2162-11-15**] 12:02 AM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2162-11-12**] 01:39 PM
   PICC Line - [**2162-11-14**] 09:10 AM
   22 Gauge - [**2162-11-14**] 09:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2162-11-16 07:37:00 Physician Resident Progress Note
RESIDENT DAILY PROGRESS NOTE:
   Chief Complaint:
   24 Hour Events:
   - tolerated [**6-7**] 40% all day Monday, transitioned to facemask
   - increased fentanyl patch to 150mgc/hour
   - was on fentanyl 75, versed 2, dc/ed these in the AM and has been
   tolerating trach mask since 4am!
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsCodeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2162-11-15**] 08:00 PM
   Meropenem - [**2162-11-16**] 02:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2162-11-15**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2162-11-15**] 08:00 AM
   Haloperidol (Haldol) - [**2162-11-16**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-11-16**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.4
C (99.4
   HR: 78 (78 - 107) bpm
   BP: 127/70(83) {127/60(74) - 169/89(100)} mmHg
   RR: 8 (8 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.7 kg (admission): 88.9 kg
   Height: 66 Inch
             Total In:
                                                                  2,577 mL
                                                                    650 mL
   PO:
             TF:
                                                                  1,040 mL
                                                                    329 mL
   IVF:
                                                                  1,417 mL
                                                                    261 mL
   Blood products:
   Total out:
                                                                  2,675 mL
                                                                    660 mL
   Urine:
                                                                  2,675 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -98 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   Ventilator mode: Standby
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 854 (700 - 868) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 13
   PIP: 11 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 6.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   577 K/uL
   7.9 g/dL
   101 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.7 mEq/L
   4 mg/dL
   103 mEq/L
   140 mEq/L
   24.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2162-11-7**]  12:45 PM
                             [**2162-11-8**]  02:28 AM
                             [**2162-11-9**]  04:58 AM
                             [**2162-11-10**]  02:51 AM
                             [**2162-11-11**]  03:33 AM
                            [**2162-11-12**]  04:16 AM
                            [**2162-11-13**]  06:35 AM
                            [**2162-11-14**]  03:55 AM
                            [**2162-11-15**]  03:57 AM
                            [**2162-11-16**]  03:32 AM
   WBC
   13.9
   11.8
   10.3
   10.0
   10.4
   9.4
   11.5
   8.6
   9.5
   Hct
   23.8
   22.6
   22.6
   23.1
   22.2
   22.7
   24.0
   23.7
   24.0
   Plt
   622
   620
   556
   553
   549
   507
   575
   545
   577
   Cr
   0.9
   0.8
   0.8
   0.8
   0.8
   0.7
   0.6
   0.6
   0.5
   TCO2
   31
   Glucose
   70
   78
   84
   87
   84
   89
   75
   97
   101
   Other labs: PT / PTT / INR:14.8/32.2/1.3, ALT / AST:[**1-16**], Alk Phos / T
   Bili:106/0.3, Amylase / Lipase:17/35, Differential-Neuts:64.6 %,
   Band:0.0 %, Lymph:22.5 %, Mono:4.6 %, Eos:8.0 %, Fibrinogen:669 mg/dL,
   Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:210 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Imaging: Today's CXR
   Yest CXR:
   The tracheostomy tip is at the midline, approximately 3 cm above the
   carina.
   The NG tube tip is in the stomach. The right PICC line tip can be
   followed
   till the level of mid SVC - pulled back?. There is interval increase in
   bilateral perihilar predominantly interstitial opacities suggesting
   developed
   interstitial pulmonary edema, mild to moderate. Bilateral pleural
   effusions
   are present, unchanged accompanied by bibasal atelectasis, left more
   than
   right.
   Microbiology: [**2162-11-14**] blood cx pending
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who was transferred from an OSH for
   pancreatitis, gallbladder edema, and elevated LFTs, intubated for
   increased work of breathing, status post tracheostomy, with continued
   periods of agitation.
   #) Respiratory failure:
    - Weaned to facemask
   - Discontinued fent/versed gtts, on fent patch at 150mcg/hour >
   Continuing to wean sedation from prior team
s plan:
   Haldol appeared to work well with improvement during the day in regards
   to her agitation. Given that the patient tends to become more agitated
   and restless overnight, increased PM haldol dose to 10 mg, and give Q6H
   dosing of 5 mg during the day. Continuing valium 10 mg PO TID, and will
   plan to go up further if needed to wean versed once she is on a stable
   haldol dose (today making additional adjustments). Continuing fentanyl
   patch. Follow ECGs
   - Continue to work on diuresis goal about 500cc-1000cc.
   - Ventilator-associated pneumonia treatment as noted below.
   - 1:1 sitter to help re-orient patient to ensure safety of her lines
   and tracheostomy and hopefully further safely wean sedation since this
   has been a major barrier.
   - Speech consult for assistance with PMV once she tolerates trach mask,
   which may help patient speak and become more oriented, less agitated.
   .
   #) Fevers, bacteremia:
   Continues to have intermittent low grade temperatures (100), but as
   noted yesterday, fever curve appears to be improving.
   She has had fevers since [**Date range (1) 2161**]. Work up has included a TTE which
   was negative for abscess or vegetation. Lines have been changed and
   PICC was removed yesterday. Abdominal ultrasound revealed there was not
   enough fluid for a paracentesis last week, and again this was
   consistent with CT completed last week. Bandemia appeared to have
   improved since initiation of flagyl. She has completed 14 day course of
   zosyn ([**Date range (1) 2425**]) which covered entercoccous in one blood culture.
   Imaging has been consistent with ventilator-associated pneumonia,
   especially given klebseilla in sputum.
   - Appreciate ID recommendations
   - Following all culture data, including surveillance cultures.
   - Status post 14 day course of empiric flagyl (last day today) for
   question of c. difficile infection.
   - Given sensitivities and imaging, cipro stopped. Sputum klebsiella is
   very sensitive to meropenem for VAP.
   - Will continue vancomycin for gram positive blood cultures which were
   coagulase negative staph until sensitivities return. Given that she has
   had two positive cultures, cannot solely attribute this to
   contamination, however surveillance cultures have been negative. Prior
   TTE was negative, but will need to consider repeat if patient remains
   febrile or additional culture return positive.
   - PLAN: Meropenem for 8 day total course (Klebs), vanco remains
   .
   #) EtOH abuse: Last known drink was PM of [**10-24**]. Sedation taper and
   transition as noted above. Folate and thiamine supplementation. Social
   work consult once more awake and on PMV.
   .
   #) Distended, thickened, gallbladder:  No acute issues at present. Her
   cholecystitis has been felt to be related to edema from her
   pancreatitis, and no stones have been seen on repeated imaging. At OSH,
   a percutaneous drain was placed out of concern for possible
   cholangitis, revealed only bile. Patient has since pulled out the
   percutaneous tube, and no further intervention has been deemed
   necessary; surgical team has since removed the suture material that
   remained.
   -          Cholecystectomy in [**5-9**] weeks after recovers from acute
   illness.
   .
   #) Anemia: Stable HCT this week, improving to 24.. No evidence of
   bleeding currently, and she has not had any evidence of a hemorrhagic
   component of her pancreatitis noted on CT previously. Phlebotomy is
   likely playing at least a small role as well. No evidence of hemorrhage
   on repeat imaging study. Iron studies, B12, folate, hemolysis, DIC labs
   all checked, iron studies consistent with anemia of chronic disease,
   B12/folate WNL.
   - HCT stable, continuing to follow trend.
   .
   #) Elevated INR: Stable, patient
s INR had slowly trended upward,
   suspect likely secondary to nutritional deficiencies given that patient
   was NPO, then only on TPN. She has received Vitamin K.
   .
   #) Eosinophilia: Will continue to trend qOD, ?medication related.
   .
   #) GERD: PO PPI
   .
   #) FEN: Tube
   feeds
   .
   #) PPx: On PPI (hx GERD), pneumoboots
   .
   #) Code: Full, confirmed with patient.
   .
   #) Communication: Family (mother and father), mom [**Name (NI) 251**] ([**Telephone/Fax (1) 2180**]. Family visited yesterday, provided letter documenting that pt
   is critically ill and in the ICU
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2162-11-16**] 12:29 AM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2162-11-12**] 01:39 PM
   PICC Line - [**2162-11-14**] 09:10 AM
   22 Gauge - [**2162-11-14**] 09:16 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2162-11-17 07:32:00 Physician Resident Progress Note
Chief Complaint: Anxiety, Pancreatitis
   24 Hour Events:
   - Yesterday stopped standing haldol, cut methadone to q12h dosing
   - Anxiety better controlled, but received haldol periodically as PRN
   - ABG on 50%TM was 7.46/41/77 so kept at 50% with aim to wean down
   - nausea overnight and vomiting of tube feeds, gave zofran 4mg and put
   tube to suction
   This morning, she noted recent LUQ discomfort now, and wants more
   anxiety medications.
   History obtained from Patient
   Allergies:
   History obtained from Patient
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2162-11-16**] 08:00 PM
   Meropenem - [**2162-11-17**] 02:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2162-11-16**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2162-11-16**] 10:00 PM
   Haloperidol (Haldol) - [**2162-11-16**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Eyes: No(t)  Blurry vision
   Flowsheet Data as of  [**2162-11-17**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 80 (77 - 117) bpm
   BP: 147/87(100) {131/74(87) - 158/105(118)} mmHg
   RR: 13 (6 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.7 kg (admission): 88.9 kg
   Height: 66 Inch
             Total In:
                                                                  2,378 mL
                                                                    269 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                     45 mL
   IVF:
                                                                  1,178 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                    410 mL
   Urine:
                                                                  1,920 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    458 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 656 (656 - 656) mL
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: 7.47/41/77/29/5
   PaO2 / FiO2: 154
   Physical Examination
   Eyes / Conjunctiva: PERRL, mild disconj gaze that normalizes after
   awakening, full EOM
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Bronchial: , Rhonchorous:
   b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   595 K/uL
   8.4 g/dL
   95 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.0 mEq/L
   5 mg/dL
   103 mEq/L
   139 mEq/L
   25.0 %
   10.4 K/uL
        [image002.jpg]
                             [**2162-11-9**]  04:58 AM
                             [**2162-11-10**]  02:51 AM
                             [**2162-11-11**]  03:33 AM
                            [**2162-11-12**]  04:16 AM
                            [**2162-11-13**]  06:35 AM
                            [**2162-11-14**]  03:55 AM
                            [**2162-11-15**]  03:57 AM
                            [**2162-11-16**]  03:32 AM
                            [**2162-11-16**]  01:44 PM
                            [**2162-11-17**]  02:31 AM
   WBC
   11.8
   10.3
   10.0
   10.4
   9.4
   11.5
   8.6
   9.5
   10.4
   Hct
   22.6
   22.6
   23.1
   22.2
   22.7
   24.0
   23.7
   24.0
   25.0
   Plt
   [**Telephone/Fax (3) 2693**]49
   [**Telephone/Fax (2) 2694**]77
   595
   Cr
   0.8
   0.8
   0.8
   0.8
   0.7
   0.6
   0.6
   0.5
   0.6
   TCO2
   31
   Glucose
   78
   84
   87
   84
   89
   75
   97
   101
   95
   Other labs: PT / PTT / INR:13.8/31.9/1.2, ALT / AST:[**11-15**], Alk Phos / T
   Bili:101/0.3, Amylase / Lipase:20/35, Differential-Neuts:64.6 %,
   Band:0.0 %, Lymph:22.5 %, Mono:4.6 %, Eos:8.0 %, Fibrinogen:669 mg/dL,
   Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:210 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR yesterday: There is no
   evidence of interval appearance of focal parenchymal opacities
   suggestive of
   pneumonia.
   Microbiology: [**2162-11-14**]  BLOOD CULTURE  Pending
   [**2162-11-11**]  CATHETER TIP-IV  Final
   [**2162-11-11**]  BLOOD CULTURE  Pending
   [**2162-11-14**]  BLOOD CULTURE  Pending
   [**2162-11-11**]  CATHETER TIP-IV  Final
   [**2162-11-11**]  BLOOD CULTURE  Pending
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who was transferred from an OSH for
   pancreatitis, gallbladder edema, and elevated LFTs, intubated for
   increased work of breathing, status post tracheostomy, with continued
   periods of agitation.
   #) Respiratory failure/VAP:
   Related to anxity/need for sedation and hypoventilation, as well as
   suspected and treated VAP
   - Continue [**Last Name (un) **] for VAP/Klebs
    - Weaned to trachmask, still somewhat hypoxic requiring 50%TM
   - Discontinued fent/versed gtts, on fent patch at 150mcg/hour
   - PMV trial yesterday went well. She is using it well.
                                                                       [**Last Name (un) **]
   #) Coag neg and bacillus bacteremia:
   She has had fevers since [**Date range (1) 2161**], now only low-grade temps.. Work up
   has included a TTE which was negative for abscess or vegetation. Lines
   have been changed and PICC was removed yesterday. Abdominal ultrasound
   revealed there was not enough fluid for a paracentesis last week, and
   again this was consistent with CT completed last week. Bandemia
   appeared to have improved since initiation of flagyl. She has completed
   14 day course of zosyn ([**Date range (1) 2425**]) which covered entercoccous in one
   blood culture.
   Imaging has been consistent with ventilator-associated pneumonia,
   especially given klebseilla in sputum.
   - Status post 14 day course of empiric flagyl (last day today) for
   question of c. difficile infection, all tests negative
   - continues with low-grade temps.
   - WBC trending back down from 13.9
 10.4
   - Following all culture data, including surveillance cultures.
   - Given sensitivities and imaging, cipro stopped. Sputum klebsiella is
   very sensitive to meropenem for VAP.
   - Will continue vancomycin for gram positive blood cultures which were
   coagulase negative staph until sensitivities return. Given that she has
   had two positive cultures, cannot solely attribute this to
   contamination, however surveillance cultures have been negative. Prior
   TTE was negative, but will need to consider repeat if patient remains
   febrile or additional culture return positive.
   - PLAN: VANC/[**Last Name (un) **] through 10/18per  ID recs.
   .
   #)  Agitation / EtOH abuse: Last known drink was PM of [**10-24**]. Sedation
   taper and transition as noted above. Folate and thiamine
   supplementation. Social work consult once more awake and on PMV.
   -          requires sedation with valium, methadone. Tapered methadone
   down to q12h, discont standing haldol, and wean off these meds.
   -          Consider psych consult as patient becomes more awake
   #) ABD PAIN/Pancreatitis: Ongoing inflammation seen on recent CT. Could
   be residual pancreatitis, though pseudocyst a possibility. Start with
   KUB and can remimage. Abd not impressively tender to palpation at this
   time.
   #) Distended, thickened, gallbladder:  No acute issues at present. Her
   cholecystitis has been felt to be related to edema from her
   pancreatitis, and no stones have been seen on repeated imaging. At OSH,
   a percutaneous drain was placed out of concern for possible
   cholangitis, revealed only bile. Patient has since pulled out the
   percutaneous tube, and no further intervention has been deemed
   necessary; surgical team has since removed the suture material that
   remained.
   -          Cholecystectomy in [**5-9**] weeks after recovers from acute
   illness.
   -
   #) Anemia: Stable HCT this week, improving to 24.. No evidence of
   bleeding currently, and she has not had any evidence of a hemorrhagic
   component of her pancreatitis noted on CT previously. Phlebotomy is
   likely playing at least a small role as well. No evidence of hemorrhage
   on repeat imaging study. Iron studies, B12, folate, hemolysis, DIC labs
   all checked, iron studies consistent with anemia of chronic disease,
   B12/folate WNL.
   - HCT stable, continuing to follow trend.
   #) Elevated INR: Stable, patient
s INR had slowly trended upward,
   suspect likely secondary to nutritional deficiencies given that patient
   was NPO, then only on TPN. She has received Vitamin K.
   #) Eosinophilia: Will continue to trend qOD, ?medication related.
   #) GERD: PO PPI
   #) FEN: Tube
   feeds
   #) PPx: On PPI (hx GERD), pneumoboots
   #) Code: Full, confirmed with patient.
   #) Communication: Family (mother and father), mom [**Name (NI) 251**] ([**Telephone/Fax (1) 2180**]. Family visited yesterday, provided letter documenting that pt
   is critically ill and in the ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2162-11-14**] 09:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending improvement in oxygenation.

2162-11-18 07:35:00 Physician Resident Progress Note
Chief Complaint: Pancreatitis
   24 Hour Events:
   - KUB negative for ileus
   - CXR negative for pneumonia
   - Methadone changed to 20 mg po qd as per Pharmacy
   - Valium changed to 5mg q8h
   - Sensitivities for MSSE pending
   - Given Morphine and Dilaudid for pain
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2162-11-17**] 08:00 PM
   Meropenem - [**2162-11-18**] 01:47 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2162-11-17**] 09:15 AM
   Heparin Sodium (Prophylaxis) - [**2162-11-17**] 04:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-11-18**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.4
   HR: 79 (68 - 98) bpm
   BP: 137/81(92) {134/73(88) - 156/95(107)} mmHg
   RR: 12 (6 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.7 kg (admission): 88.9 kg
   Height: 66 Inch
             Total In:
                                                                  1,699 mL
                                                                    797 mL
   PO:
             TF:
                                                                    219 mL
                                                                    226 mL
   IVF:
                                                                  1,130 mL
                                                                    251 mL
   Blood products:
   Total out:
                                                                  1,995 mL
                                                                    650 mL
   Urine:
                                                                  1,595 mL
                                                                    650 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                   -296 mL
                                                                    147 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   670 K/uL
   8.7 g/dL
   85 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.0 mEq/L
   5 mg/dL
   101 mEq/L
   137 mEq/L
   26.2 %
   9.2 K/uL
        [image002.jpg]
                             [**2162-11-10**]  02:51 AM
                             [**2162-11-11**]  03:33 AM
                            [**2162-11-12**]  04:16 AM
                            [**2162-11-13**]  06:35 AM
                            [**2162-11-14**]  03:55 AM
                            [**2162-11-15**]  03:57 AM
                            [**2162-11-16**]  03:32 AM
                            [**2162-11-16**]  01:44 PM
                            [**2162-11-17**]  02:31 AM
                            [**2162-11-18**]  04:31 AM
   WBC
   10.3
   10.0
   10.4
   9.4
   11.5
   8.6
   9.5
   10.4
   9.2
   Hct
   22.6
   23.1
   22.2
   22.7
   24.0
   23.7
   24.0
   25.0
   26.2
   Plt
   556
   553
   549
   [**Telephone/Fax (3) **]
   577
   595
   670
   Cr
   0.8
   0.8
   0.8
   0.7
   0.6
   0.6
   0.5
   0.6
   0.6
   TCO2
   31
   Glucose
   84
   87
   84
   89
   75
   97
   101
   95
   85
   Other labs: PT / PTT / INR:13.5/31.2/1.2, ALT / AST:[**11-15**], Alk Phos / T
   Bili:101/0.3, Amylase / Lipase:20/35, Differential-Neuts:69.1 %,
   Band:0.0 %, Lymph:15.7 %, Mono:7.1 %, Eos:7.9 %, Fibrinogen:669 mg/dL,
   Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:210 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Assessment and Plan
   Patient is a 40 year old female with history of pancreatitis, alcohol
   abuse, and hyperlipidemia who was transferred from an OSH for
   pancreatitis, gallbladder edema, and elevated LFTs, intubated for
   increased work of breathing, status post tracheostomy, with continued
   periods of agitation.
   #) Respiratory failure/VAP:
   Related to anxity/need for sedation and hypoventilation, as well as
   suspected and treated VAP
   - Continue [**Last Name (un) **] for VAP/Klebs
    - Weaned to trachmask, still somewhat hypoxic requiring 50%TM
   - Discontinued fent/versed gtts, on fent patch at 150mcg/hour
   - PMV trial yesterday went well. She is using it well.
   [**Last Name (un) **]
   #) Coag neg and bacillus bacteremia:
   She has had fevers since [**Date range (1) 2161**], now only low-grade temps.. Work up
   has included a TTE which was negative for abscess or vegetation. Lines
   have been changed and PICC was removed yesterday. Abdominal ultrasound
   revealed there was not enough fluid for a paracentesis last week, and
   again this was consistent with CT completed last week. Bandemia
   appeared to have improved since initiation of flagyl. She has completed
   14 day course of zosyn ([**Date range (1) 2425**]) which covered entercoccous in one
   blood culture.
   Imaging has been consistent with ventilator-associated pneumonia,
   especially given klebseilla in sputum.
   - Status post 14 day course of empiric flagyl (last day today) for
   question of c. difficile infection, all tests negative
   - continues with low-grade temps.
   - WBC trending back down from 13.9
 10.4
   - Following all culture data, including surveillance cultures.
   - Given sensitivities and imaging, cipro stopped. Sputum klebsiella is
   very sensitive to meropenem for VAP.
   - Will continue vancomycin for gram positive blood cultures which were
   coagulase negative staph until sensitivities return. Given that she has
   had two positive cultures, cannot solely attribute this to
   contamination, however surveillance cultures have been negative. Prior
   TTE was negative, but will need to consider repeat if patient remains
   febrile or additional culture return positive.
   - PLAN: VANC/[**Last Name (un) **] through 10/18per  ID recs.
   .
   #)  Agitation / EtOH abuse: Last known drink was PM of [**10-24**]. Sedation
   taper and transition as noted above. Folate and thiamine
   supplementation. Social work consult once more awake and on PMV.
   -          requires sedation with valium, methadone. Tapered methadone
   down to q12h, discont standing haldol, and wean off these meds.
   -          Consider psych consult as patient becomes more awake
   #) ABD PAIN/Pancreatitis: Ongoing inflammation seen on recent CT. Could
   be residual pancreatitis, though pseudocyst a possibility. Start with
   KUB and can remimage. Abd not impressively tender to palpation at this
   time.
   #) Distended, thickened, gallbladder:  No acute issues at present. Her
   cholecystitis has been felt to be related to edema from her
   pancreatitis, and no stones have been seen on repeated imaging. At OSH,
   a percutaneous drain was placed out of concern for possible
   cholangitis, revealed only bile. Patient has since pulled out the
   percutaneous tube, and no further intervention has been deemed
   necessary; surgical team has since removed the suture material that
   remained.
   -          Cholecystectomy in [**5-9**] weeks after recovers from acute
   illness.
   -
   #) Anemia: Stable HCT this week, improving to 24.. No evidence of
   bleeding currently, and she has not had any evidence of a hemorrhagic
   component of her pancreatitis noted on CT previously. Phlebotomy is
   likely playing at least a small role as well. No evidence of hemorrhage
   on repeat imaging study. Iron studies, B12, folate, hemolysis, DIC labs
   all checked, iron studies consistent with anemia of chronic disease,
   B12/folate WNL.
   - HCT stable, continuing to follow trend.
   #) Elevated INR: Stable, patient
s INR had slowly trended upward,
   suspect likely secondary to nutritional deficiencies given that patient
   was NPO, then only on TPN. She has received Vitamin K.
   #) Eosinophilia: Will continue to trend qOD, ?medication related.
   #) GERD: PO PPI
   #) FEN: Tube
   feeds
   #) PPx: On PPI (hx GERD), pneumoboots
   #) Code: Full, confirmed with patient.
   #) Communication: Family (mother and father), mom [**Name (NI) 251**] ([**Telephone/Fax (1) 2180**]. Family visited yesterday, provided letter documenting that pt
   is critically ill and in the ICU
   ICU Care
   Nutrition:
    Glycemic Control:
   Lines:
   PICC Line - [**2162-11-14**] 09:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending improvement in oxygenation.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2162-11-17**] 04:07 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2162-11-14**] 09:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: